2185-03-23 07:26:00 Physician Resident Progress Note
Chief Complaint: 85M with CHF, CAD, afib presents from rehab with
   respiratory distress
   24 Hour Events:
   Weaned off pressors
   A line placed
 PRESEP CATHETER - START [**2185-3-22**] 12:13 PM
 ARTERIAL LINE - START [**2185-3-22**] 02:10 PM
 INVASIVE VENTILATION - START [**2185-3-22**] 04:00 PM
 EKG - At [**2185-3-22**] 04:38 PM
 URINE CULTURE - At [**2185-3-22**] 04:39 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2185-3-22**] 02:36 PM
   Vancomycin - [**2185-3-22**] 04:40 PM
   Meropenem - [**2185-3-23**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-23**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2185-3-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 99 (87 - 101) bpm
   BP: 128/69(89) {107/67(79) - 153/94(314)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (10 - 22)mmHg
   CO/CI (Fick): (5.9 L/min) / (3.3 L/min/m2)
   SvO2: 71%
   Total In:
                                                                  7,838 mL
                                                                    329 mL
   PO:
   TF:
   IVF:
                                                                  2,463 mL
                                                                    279 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    140 mL
                                                                    175 mL
   Urine:
                                                                    140 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,698 mL
                                                                    154 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.31/31/129/16/-9
   Ve: 7.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, +PEG
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   343 K/uL
   9.7 g/dL
   92 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.5 mEq/L
   34 mg/dL
   116 mEq/L
   139 mEq/L
   29.6 %
   5.4 K/uL
        [image002.jpg]
   CXR
   Micro
   [**3-22**] respiratory viral screen pending
   [**3-22**] legionella urinary antigen negative
   [**3-22**] urine cx NGTD
   [**3-22**] blood cx NGTD
                             [**2185-3-22**]  01:27 PM
                             [**2185-3-22**]  03:16 PM
                             [**2185-3-22**]  03:48 PM
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
   WBC
   5.6
   5.3
   5.4
   Hct
   21.3
   24.4
   29.6
   Plt
   328
   351
   343
   Cr
   0.6
   0.6
   TropT
   0.12
   0.12
   0.10
   TCO2
   17
   15
   16
   Glucose
   118
   111
   92
   Other labs: PT / PTT / INR:29.4/46.0/3.0, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Pt currently in septic shock. Currently on sepsis protocol. Has had 5L
   of NS thus far. Also on pressors. Will start dobumatine as cardiac
   functioning impaired. No urgent indication for PA catheter at this
   time. Goal MAP > 65, SvO2 > 70%, glucose 80-150. Will treat for
   suspected pulmonary and urinary source with vancomycin, meropenem, and
   azithromycin. Urgent A-line placement. Cortisol simulation but will
   empirically treat with steroids given clinical history and recent
   therapy with Megace. Will give one dose of dexamethasone now while
   awaiting cortisol level. Transfuse 1 unit of blood, goal HCT 30. BCx
   pending, will obtain UCx, U/A grossly positive. Will send influenza,
   c.diff, and sputum culture. CXR with evidence of B/L infiltrates, once
   ABG and assessment of oxygenation, may need to switch to ARDS net
   protocol for ventilation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Most likely [**3-5**] to PNA/septic shock. Also concern for cardiogenic shock
   given pt
s longstanding cardiac disease and intravascular depletion.
   Wean FiO2 as tolerated. STAT ABG and placement of A-line. Consider ARDS
   net ventilation if difficulty with oxygenation. ABx regimen vancomycin
   (IV for HAP, PO for c.diff), meropenem, azithromycin. Will send sputum
   and respiratory cultures.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Baseline 0.7, currenly 1.1. Renal dose meds, dose vancomycin by level.
   Aggressive IVF resustitation. Goal urine output at least 30 mL/hour.
   Will send urine lytes and UCx.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Cover broadly given patient frequently in hospital and rehab.
   Vancomycin, meropenem, and azithromycin. Will send sputum culture and
   respiratory cultures.
 ATRIAL FIBRILLATION (AFIB)
   Hold antihypertensives for now given septic shock. Monitor HR. Continue
   ASA and Plavix.
 DIABETES MELLITUS (DM), TYPE II
   Insulin gtt given need for tight glycemic control in the setting of
   septic shock.
 URINARY TRACT INFECTION (UTI)
   Cover with meropenem given h/o ESBL. Will send UCx.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Will start dobutamine given cardiac dysfunction in setting of septic
   shock. Repeat TTE today. Continue ASA and Plavix. BNP extremely
   elevated.
   ANEMIA
   Transfuse to keep HCT 30.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   18 Gauge - [**2185-3-22**] 12:15 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-03-23 10:23:00 Physician Attending Progress Note
Chief Complaint: septic shock and respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2185-3-22**] 12:13 PM
 ARTERIAL LINE - START [**2185-3-22**] 02:10 PM
 INVASIVE VENTILATION - START [**2185-3-22**] 04:00 PM
 EKG - At [**2185-3-22**] 04:38 PM
 URINE CULTURE - At [**2185-3-22**] 04:39 PM
   Came off pressors after volume repletion.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2185-3-22**] 02:36 PM
   Meropenem - [**2185-3-23**] 08:00 AM
   Vancomycin - [**2185-3-23**] 08:33 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-23**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2185-3-23**] 08:34 AM
   Other medications:
   vit D, calcium, zocor, plavix, asa, synthroid, azithro, SQH, PPI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-23**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 106 (87 - 108) bpm
   BP: 141/83(104) {107/67(79) - 153/94(314)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 10 (10 - 22)mmHg
   CO/CI (Fick): (8.6 L/min) / (4.8 L/min/m2)
   SvO2: 78%
   Total In:
                                                                  7,838 mL
                                                                    786 mL
   PO:
   TF:
   IVF:
                                                                  2,463 mL
                                                                    636 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    140 mL
                                                                    226 mL
   Urine:
                                                                    140 mL
                                                                    226 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,698 mL
                                                                    560 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 430 (430 - 430) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.31/31/129/16/-9
   Ve: 7.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   343 K/uL
   92 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.5 mEq/L
   34 mg/dL
   116 mEq/L
   139 mEq/L
   29.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2185-3-22**]  01:27 PM
                             [**2185-3-22**]  03:16 PM
                             [**2185-3-22**]  03:48 PM
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
   WBC
   5.6
   5.3
   5.4
   Hct
   21.3
   24.4
   29.6
   Plt
   328
   351
   343
   Cr
   0.6
   0.6
   TropT
   0.12
   0.12
   0.10
   TCO2
   17
   15
   16
   Glucose
   118
   111
   92
   Other labs: PT / PTT / INR:29.4/46.0/3.0, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   85-year-old man with respiratory failure and septic shock, likely
   related to a urinary and/or pulmonary source.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- good RSBI this morning although CXR appears to have increased
   pleural effusions in the setting of volume resuscitation
   -- spontaneous breathing trial
   -- consider diuresis today
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -- shock has now resolved
   -- treat for potential infections as below
   -- check echo to exclude new cardiomyopathy
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -- no sputum culture at this point, so we are committed to therapy
   -- check sputum culture now
   -- complete at least 8-day course unless cultures dictate otherwise
 URINARY TRACT INFECTION (UTI)
   -- follow cultures
   -- [**Last Name (un) 430**] (hx ESBL) + cipro until pathogen identified
   -- likely two-week course for complicated UTI
   -- if recrudesces, image for peri-nephric abscess but doubt at present
   -- UOP difficult to follow due to leaking Foley
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -- resolved
 ATRIAL FIBRILLATION (AFIB)
   -- too rapid at present
   -- add back in a bit of nodal [**Doctor Last Name **]
 DIABETES MELLITUS (DM), TYPE II
   -- SQ insulin
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -- rate control AFib
   -- begin diuresis if tolerates AFib
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -- doubt unstable plaque
   -- continue current rx
   ICU Care
   Nutrition:
   Comments: NPO for now; TF if fails SBT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   18 Gauge - [**2185-3-22**] 12:15 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Hold sedation today and check SBT.
   Communication:  Comments: Discussed with son.
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2185-03-24 07:08:00 Physician Resident Progress Note
Chief Complaint: 85M with CAD, COPD, CHF admitted with respiratory
   distress from [**Hospital3 213**]
   24 Hour Events:
   Rate controlled and diuresed, but failed SBT yesterday
   Viral panel came back positive for influenza B, started on [**Hospital3 1071**]
   ?Clot removed from urethra
   Ortho evaluated patient re dislocated L shoulder
 could be manually
   relocated, but became dislocated again suspected lax capsule, rec
   further imaging when more stable
   TTE done showed decreased EF
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) Rash; Remeron Unknown;
   Last dose of Antibiotics:
   Azithromycin 500mg IV daily day 3
   Meropenem 500mg IV q6 daily 3
   Vancomycin 1g IV daily day 3
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other medications:
   Metoprolol 25mg PO TID
   ASA 81 daily, Plavix 37.5 daily
   Heparin SQ, Insulin SQ
   Levothyroxine, protonix, simvastatin
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2185-3-24**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 110 (93 - 111) bpm
   BP: 155/80(107) {100/58(72) - 155/83(107)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 20 (9 - 20)mmHg
   CO/CI (Fick): (7.9 L/min) / (4.5 L/min/m2)
   SvO2: 77%
   Total In:
                                                                  1,828 mL
                                                                    269 mL
   PO:
   TF:
   IVF:
                                                                  1,528 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,598 mL
                                                                    330 mL
   Urine:
                                                                  1,598 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    -61 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 450 (430 - 450) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.34/33/138/17/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Non-tender, Bowel sounds present +paradoxical movement
   of abdomen
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, withdraws BLE to Babinski stimulation
   Labs / Radiology
   345 K/uL
   9.5 g/dL
   77 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   36 mg/dL
   113 mEq/L
   139 mEq/L
   28.3 %
   6.6 K/uL
        [image002.jpg]
   Vancomycin 28.1
   CXR L pleural effusion, R hemithorax incompletely seen
   TTE
   The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is moderate to
   severe global left ventricular hypokinesis (LVEF = 25-30 %). No masses
   or thrombi are seen in the left ventricle. Right ventricular chamber
   size is normal with moderate global free wall hypokinesis. The aortic
   valve leaflets appear structurally normal with good leaflet excursion.
   There is no aortic valve stenosis. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Mild (1+) mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2184-10-18**], there has
   been marked/diffuse biventricular systolic dysfunction c/w diffuse
   process (toxin, metabolic, cannot exclude multivessel CAD but less
   likely as no focality to dysfunction). The left pleural effusion is now
   much larger.
   Micro:
   [**3-23**] sputum gram and cx pending
   [**3-23**] urethral fluid gram pending
   [**3-22**] respiratory viral screen Influenza B antigen postive cx pending
   [**3-22**] legionella urinary antigen negative
   [**3-22**] urine cx >100,000 yeast
   [**3-22**] blood cx NGTD
                             [**2185-3-22**]  01:27 PM
                             [**2185-3-22**]  03:16 PM
                             [**2185-3-22**]  03:48 PM
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
                             [**2185-3-23**]  12:42 PM
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
   WBC
   5.6
   5.3
   5.4
   6.6
   Hct
   21.3
   24.4
   29.6
   28.3
   Plt
   328
   351
   343
   345
   Cr
   0.6
   0.6
   0.9
   TropT
   0.12
   0.12
   0.10
   TCO2
   17
   15
   16
   15
   19
   Glucose
   118
   111
   92
   77
   Other labs: PT / PTT / INR:47.4/45.2/5.4, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Initial dyspnea likely due to influenza, patient now with increased
   pulmonary edema following aggressive volume resuscitation for sepsis.
   Oxygenation improved today, good RSBI
 but failed SBT yesterday
   secondary to hypoxia. Will wean to PSV today and reassess respiratory
   status later today for consideration of repeat SBT. Will continue
   diuresis to goal negative 1-2liters, increase rate control with
   titration up of metoprolol. Will continue vancomycin now pending sputum
   culture results as patient at risk for staph superinfection in setting
   of influenza. Given elevated vancomycin trough today will hold
   vancomycin today and repeat trough in AM, goal trough 15-20. Can D/C
   azithromycin.  Meropenem will be continued as well for UTI.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Doing well off of pressors. Most likely secondary to pneumonia. Goal
   MAP>65, follow urine output.
 Influenza
   Respiratory virus screen positive for influenza B antigen, cx pending.
   Day 2 of [**Last Name (LF) 1071**], [**First Name3 (LF) 178**] continue for 5 day course.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr slightly elevated from yesterday, making good amount s of urine.
   Follow for now.
 ATRIAL FIBRILLATION (AFIB)
   Patient on both diltiazem and metoprolol at home, neither of which at
   maximum dose, uncertain why patient on both of these. Increase
   metoprolol as above. Apparently not on anticoagulation at [**Hospital 1072**], but will review records
 in any case INR supratherapeutic at
   5.4 today.
 DIABETES MELLITUS (DM), TYPE II
   Continue SQ insulin with fingersticks, glucose under fair control, goal
   fingersticks<150.
 URINARY TRACT INFECTION (UTI)
   h/o ESBL E. coli and Klebsiella [**3-2**] urine, should be covered by
   meropenem. s/p ~7 day course gentamicin. Repeat urinalysis/culture.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   EF depressed on TTE yesterday, suspect influenza related myocarditis.
   No evidence of new ischemic event as patient ruled out for MI by
   biomarkers. Can consider repeat TTE as outpatient to assess for
   recovery of pump function. Continue beta blockers, diuresis as above.
 Coagulopathy
   INR elevated at 5.4 today, with PTT stable, elevated ~45. Concern for
   DIC given recent sepsis, so will check fibrinogen, smear, FDP. Will
   give PO vitamin K and repeat coags in afternoon. Discontinue
   subcutaneous heparin.
 ANEMIA
   No evidence of active bleeding. Had normal iron studies [**2-8**], normal
   B12 and folate [**10-9**].
   Transfused yesterday per sepsis protocol to increase SVO2. Hct stable,
   no evidence of active bleeding. Transfuse Hb>7.
 Left shoulder dislocation, suspected
   Repeat shoulder imaging to better assess, follow up with ortho if
   needed
   ICU Care
   Nutrition:  NPO pending extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   18 Gauge - [**2185-3-22**] 12:15 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  with family
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-03-24 11:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock, influenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2185-3-23**] 01:43 PM
 SPUTUM CULTURE - At [**2185-3-23**] 04:41 PM
   Influenza B (+)
   Echo showed global hypokinesis
   Failed SBT
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2185-3-22**] 02:36 PM
   Azithromycin - [**2185-3-23**] 10:12 AM
   Vancomycin - [**2185-3-24**] 06:00 AM
   Meropenem - [**2185-3-24**] 08:21 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2185-3-23**] 11:27 AM
   Heparin Sodium (Prophylaxis) - [**2185-3-24**] 08:20 AM
   Furosemide (Lasix) - [**2185-3-24**] 09:00 AM
   Other medications:
   vit D, calcium, statin, plavix, asa, levothyroxine, PPI, SQH, colace,
   CHG, tamiflu, vanco oral and IV,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-24**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 110 (93 - 112) bpm
   BP: 146/83(108) {102/58(74) - 155/83(108)} mmHg
   RR: 27 (11 - 27) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 19 (9 - 20)mmHg
   CO/CI (Fick): (7.6 L/min) / (4.3 L/min/m2)
   SvO2: 77%
   Total In:
                                                                  1,828 mL
                                                                    487 mL
   PO:
   TF:
   IVF:
                                                                  1,528 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  1,598 mL
                                                                    550 mL
   Urine:
                                                                  1,598 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    -63 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 16 cmH2O
   Plateau: 10 cmH2O
   SpO2: 91%
   ABG: 7.34/33/138/17/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Thin
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   345 K/uL
   77 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   36 mg/dL
   113 mEq/L
   139 mEq/L
   28.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2185-3-22**]  01:27 PM
                             [**2185-3-22**]  03:16 PM
                             [**2185-3-22**]  03:48 PM
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
                             [**2185-3-23**]  12:42 PM
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
   WBC
   5.6
   5.3
   5.4
   6.6
   Hct
   21.3
   24.4
   29.6
   28.3
   Plt
   328
   351
   343
   345
   Cr
   0.6
   0.6
   0.9
   TropT
   0.12
   0.12
   0.10
   TCO2
   17
   15
   16
   15
   19
   Glucose
   118
   111
   92
   77
   Other labs: PT / PTT / INR:47.4/45.2/5.4, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: basilar opacities,
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
 URINARY TRACT INFECTION (UTI)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   18 Gauge - [**2185-3-22**] 12:15 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   85M with influenza B, presenting with shock and hypoxic respiratory
   failure due to flu, pulmonary edema from global hypokinesis.
   # HYPOXIC RESPIRATORY FAILURE: Flu and pulmonary edema, possibly
   bacterial superinfection.
   -          Diurese 1-1.5L neg
   -          Continue Tamiflu, empiric abx
   -          Cardiac optimization
   -          Continue AC ventilation for now, increase VT to 500 from
   450. Consider PSV later in day following diuresis.
   # HEART FAILURE: Global HK likely due to viral infection/sepsis, afib
   with RVR
   -          Improve rate control with increasing doses of metoprolol
   -          Diuresis as above
   # COAGULOPATHY: Apparently not on coumadin at home. INR up > PTT.
   Differential includes malnutrition, DIC, acquired factor inhibitor or
   factor deficiency
   -          Will check DIC labs, follow coags and platelets, and give
   vitamin K
   # UTI: Urine cx with yeast, foley changed yesterday
   -          Continue current abx, follow cultures
   # ANEMIA: Chronic, iron deficient. Ferritin was 50 in [**Month (only) **].
   -          Continue to monitor HCT.
   # GENERAL ICU CARE: PPI, will place P-[**Last Name (LF) **], [**First Name3 (LF) 178**] start TFs today
   # CODE: DNR

2185-03-25 07:25:00 Physician Resident Progress Note
Chief Complaint: 85M with COPD, CAD, CHF admitted with respiratory
   distress found to have influenza
   24 Hour Events:
   Diuresed
   Switched to pressure support, did well
   Clarified that he has been on coumadin at home--gave IV vitamin K
   Ortho saw him--okay to wait 1-2 weeks until stable for further X-rays
   of shoulder
   Started tube feeds
   Switched sedation to propofol in anticipation of possible extubation
   (had transient hypotension into 60s SBP)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-3-25**] 02:00 AM
   Vancomycin - [**2185-3-25**] 02:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-24**] 08:20 AM
   Furosemide (Lasix) - [**2185-3-24**] 09:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2185-3-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 124 (101 - 124) bpm
   BP: 127/71(91) {100/56(71) - 151/83(108)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 6 (6 - 25)mmHg
   Total In:
                                                                  1,149 mL
                                                                    405 mL
   PO:
   TF:
                                                                     90 mL
                                                                    125 mL
   IVF:
                                                                    859 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  3,340 mL
                                                                    900 mL
   Urine:
                                                                  3,340 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,191 mL
                                                                   -495 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 385 (370 - 462) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.38/30/125/18/-5
   Ve: 10.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   323 K/uL
   9.2 g/dL
   84 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.5 mEq/L
   32 mg/dL
   109 mEq/L
   138 mEq/L
   27.0 %
   5.8 K/uL
        [image002.jpg]
   UA 1.008 5.0 leuk large, nitr-, bld-, wbc 145, rbc 4, no yeast
   Micro
   [**3-24**] urine cx NGTD
   [**3-23**] sputum gram >25polys, 4+ gpcs pairs and clusters, 3+ gprs, cx
   pending
   [**3-23**] urethral fluid
   [**3-22**] respiratory virus influenza B antigen+
   [**3-22**] urine cx yeast
   CXR poor film L CP angle not seen, B pleural effusions, vasculature
   prominent c/w pulmonary edema. ET tube ~7cm should be advanced
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
                             [**2185-3-23**]  12:42 PM
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
                             [**2185-3-24**]  11:52 AM
                             [**2185-3-24**]  04:12 PM
                             [**2185-3-24**]  09:16 PM
                             [**2185-3-25**]  03:58 AM
   WBC
   5.4
   6.6
   8.8
   6.7
   5.8
   Hct
   29.6
   28.3
   30.2
   27.9
   27.0
   Plt
   343
   345
   366
   358
   323
   Cr
   0.6
   0.9
   0.9
   TropT
   0.10
   TCO2
   15
   16
   15
   19
   18
   Glucose
   92
   77
   84
   Other labs: PT / PTT / INR:16.3/36.7/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Initial dyspnea likely due to influenza, patient now with increased
   pulmonary edema following aggressive volume resuscitation for sepsis.
   Oxygenation improved today, good RSBI
 but failed SBT yesterday
   secondary to hypoxia. Will wean to PSV today and reassess respiratory
   status later today for consideration of repeat SBT. Will continue
   diuresis to goal negative 1-2liters, increase rate control with
   titration up of metoprolol. Will continue vancomycin now pending sputum
   culture results as patient at risk for staph superinfection in setting
   of influenza. Given elevated vancomycin trough today will hold
   vancomycin today and repeat trough in AM, goal trough 15-20. Can D/C
   azithromycin.  Meropenem will be continued as well for UTI.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Doing well off of pressors. Most likely secondary to pneumonia. Goal
   MAP>65, follow urine output.
 Influenza
   Respiratory virus screen positive for influenza B antigen, cx pending.
   Day 2 of [**Last Name (LF) 1071**], [**First Name3 (LF) 178**] continue for 5 day course.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr slightly elevated from yesterday, making good amount s of urine.
   Follow for now.
 ATRIAL FIBRILLATION (AFIB)
   Patient on both diltiazem and metoprolol at home, neither of which at
   maximum dose, uncertain why patient on both of these. Increase
   metoprolol as above. Apparently not on anticoagulation at [**Hospital 1072**], but will review records
 in any case INR supratherapeutic at
   5.4 today.
 DIABETES MELLITUS (DM), TYPE II
   Continue SQ insulin with fingersticks, glucose under fair control, goal
   fingersticks<150.
 URINARY TRACT INFECTION (UTI)
   h/o ESBL E. coli and Klebsiella [**3-2**] urine, should be covered by
   meropenem. s/p ~7 day course gentamicin. Repeat urinalysis/culture.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   EF depressed on TTE yesterday, suspect influenza related myocarditis.
   No evidence of new ischemic event as patient ruled out for MI by
   biomarkers. Can consider repeat TTE as outpatient to assess for
   recovery of pump function. Continue beta blockers, diuresis as above.
 Coagulopathy
   INR elevated at 5.4 today, with PTT stable, elevated ~45. Concern for
   DIC given recent sepsis, so will check fibrinogen, smear, FDP. Will
   give PO vitamin K and repeat coags in afternoon. Discontinue
   subcutaneous heparin.
 ANEMIA
   No evidence of active bleeding. Had normal iron studies [**2-8**], normal
   B12 and folate [**10-9**].
   Transfused yesterday per sepsis protocol to increase SVO2. Hct stable,
   no evidence of active bleeding. Transfuse Hb>7.
 Left shoulder dislocation, suspected
   Repeat shoulder imaging to better assess, follow up with ortho if
   needed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   18 Gauge - [**2185-3-22**] 12:15 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-03-25 11:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Additional information from family: was apparently on warfarin recently
   started
   Failed SBT
   Diuresed
   TF begun
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2185-3-22**] 02:36 PM
   Azithromycin - [**2185-3-23**] 10:12 AM
   Vancomycin - [**2185-3-25**] 02:00 AM
   Meropenem - [**2185-3-25**] 08:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   vit D, calcium, statin, plavix, asa, synthroid, meropenem, PPI, colace,
   tamiflu, vanco orally, SQI, metoprolol 75 mg orally three times a day
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-25**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (99 - 124) bpm
   BP: 108/59(76) {100/56(71) - 143/82(106)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 9 (3 - 25)mmHg
   Total In:
                                                                  1,149 mL
                                                                    573 mL
   PO:
   TF:
                                                                     90 mL
                                                                    125 mL
   IVF:
                                                                    859 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  3,340 mL
                                                                  1,140 mL
   Urine:
                                                                  3,340 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,191 mL
                                                                   -567 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 514 (370 - 514) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/30/125/18/-5
   Ve: 10.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   323 K/uL
   84 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.5 mEq/L
   32 mg/dL
   109 mEq/L
   138 mEq/L
   27.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2185-3-22**]  07:34 PM
                             [**2185-3-23**]  12:02 AM
                             [**2185-3-23**]  03:55 AM
                             [**2185-3-23**]  12:42 PM
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
                             [**2185-3-24**]  11:52 AM
                             [**2185-3-24**]  04:12 PM
                             [**2185-3-24**]  09:16 PM
                             [**2185-3-25**]  03:58 AM
   WBC
   5.4
   6.6
   8.8
   6.7
   5.8
   Hct
   29.6
   28.3
   30.2
   27.9
   27.0
   Plt
   343
   345
   366
   358
   323
   Cr
   0.6
   0.9
   0.9
   TropT
   0.10
   TCO2
   15
   16
   15
   19
   18
   Glucose
   92
   77
   84
   Other labs: PT / PTT / INR:16.3/36.7/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1
   mg/dL
   Microbiology: Sputum Cx pending
   Influenza B (+)
   UA with pyuria; cx pending
   Assessment and Plan
   85-year-old man with respiratory failure, new systolic congestive heart
   failure, and (resolved) shock from influenza.  He failed an SBT today,
   and when we decreases his support now he has very shallow and rapid
   breathing, with paradox.  This appears to be either CHF or respiratory
   failure-related, rather than sedation-related.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          diuresis today
   -          afterload reduction today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   -          add afterload reduction
   -          diuresis -1000
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -          continue antibiotics.  Since sputum cultures obtained after
   antibiotics, will need to complete course for possible CAP.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          as above
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          improving
 ATRIAL FIBRILLATION (AFIB)
   -          rate control as needed
 DIABETES MELLITUS (DM), TYPE II
   -          SC insulin as needed.  Control is adequate for now.
 URINARY TRACT INFECTION (UTI)
   -          if yeast persists, consider treating
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -          ASA, heparin, beta blockade, statin, ACEI
   ICU Care
   Nutrition: resume TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Start SQ heparin today (vs IV heparin))
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Family meeting yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2185-03-26 07:17:00 Physician Resident Progress Note
Chief Complaint: 85M with COPD, CHF, CAD admitted from [**Hospital3 213**]
   with respiratory distress, found to have influenza
   24 Hour Events:
   Failed SBT due to labored breathing, placed back on AC
   Had renal u/s due to persistent candiduria - showed only known
   angiomyolipoma
   Family meeting held, next planned for Tuesday - emphasized poor long
   term prognosis although patient may pull through this acute illness
   Allergies:
   Bactrim Rash;Remeron Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-25**] 02:00 AM
   Meropenem - [**2185-3-26**] 02:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2185-3-26**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 113 (98 - 123) bpm
   BP: 105/56(70) {99/56(69) - 170/89(120)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 12 (3 - 316)mmHg
   Total In:
                                                                  1,478 mL
                                                                    772 mL
   PO:
   TF:
                                                                    265 mL
                                                                    248 mL
   IVF:
                                                                    943 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    625 mL
   Urine:
                                                                  3,720 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,242 mL
                                                                    147 mL
   Respiratory support
   Ventilator mode: CPAP/PPS
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 390 (390 - 514) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 13 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.50/25/115/23/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   Respiratory / Chest: (Breath Sounds: Clear : ) +paradoxical breathing
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Grimaces with sternal rub or Babinski testing
   Labs / Radiology
   320 K/uL
   9.5 g/dL
   138 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.0 mEq/L
   27 mg/dL
   107 mEq/L
   135 mEq/L
   26.6 %
   6.7 K/uL
        [image002.jpg]
   Vancomycin 15.9
   INR 1.5, PTT 150
   CXR R CP angle not seen, L sided effusion, decreased vascular markings
   Micro
   [**3-24**] urine cx 10-100,000 yeast
   [**3-23**] sputum cx with sparse S. aureus (sensitivities pending) and yeast
   [**3-23**] urethral liquid yeast
   [**3-22**] respiratory virus screen influenza B antigen positive
   [**3-22**] urine legionella ag negative
   [**3-22**] urine cx yeast
   [**3-22**] blood cx NGTD
   Renal U/S
   1.  No evidence of hydronephrosis or mass within the urinary bladder.
   2.  A 1.9 cm angiomyolipoma of the right kidney.
   3.  Moderate enlargement of the prostate consistent with BPH.
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
                             [**2185-3-24**]  11:52 AM
                             [**2185-3-24**]  04:12 PM
                             [**2185-3-24**]  09:16 PM
                             [**2185-3-25**]  03:58 AM
                             [**2185-3-25**]  05:16 PM
                             [**2185-3-25**]  11:44 PM
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
   WBC
   6.6
   8.8
   6.7
   5.8
   6.7
   Hct
   28.3
   30.2
   27.9
   27.0
   26.6
   Plt
   [**Telephone/Fax (3) 1110**]23
   320
   Cr
   0.9
   0.9
   0.8
   TCO2
   19
   18
   18
   19
   20
   Glucose
   77
   84
   138
   Other labs: PT / PTT / INR:17.1/150.0/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Initial dyspnea likely due to influenza, now key issue likely pulmonary
   edema following aggressive volume resuscitation for sepsis.  Given
   labored breathing and RSBI of 110 not yet ready for extubation.  ABG
   c/w respiratory alkalosis
 increase sedation, may need to resume AC.
   Repeat ABG this morning.
   CXR shows persistent pulmonary edema. Patient needs continued diuresis,
   goal net negative 1-2 liters today. Check PM electrolytes given
   diuresis. Will also aim for improved rate control, titrate metoprolol.
   Will also seek to optimize rate control for afib and afterload
   reduction given systolic HF, increasing metoprolol and captopril today.
   Sputum shows S. aureus, sensitivites of which are pending will be
   covered by current vancomycin. Would continue antibiotics  for 8 day
   course. Dose vancomcyin today, goal trough 15-20. Can d/c meropenem as
   no evidence for gram negative infection.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Doing well off of pressors. Most likely secondary to pneumonia. Goal
   MAP>65, follow urine output.
 Influenza
   Respiratory virus screen positive for influenza B antigen, cx pending.
   Day 4 of [**Last Name (LF) **], [**First Name3 (LF) 178**] continue for 5 day course.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr stable, making good amount s of urine. Follow for now.
 ATRIAL FIBRILLATION (AFIB)
   Patient on both diltiazem and metoprolol at home, neither of which at
   maximum dose, uncertain why patient on both of these. Increase
   metoprolol as above. Continue IV heparin.
 DIABETES MELLITUS (DM), TYPE II
   Continue SQ insulin with fingersticks, glucose under fair control, goal
   fingersticks<150.
 URINARY TRACT INFECTION (UTI)
   Recent [**3-2**] ESBL E coli and Klebsiella, s/p gentamicin and recently
   meropenem.
   Repeat urine cx with yeast only. Kidney imaging without evidence of
   hydronephrosis, abscess
 would hold off on treating funguria as no
   evidence of benefit.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   EF depressed on TTE yesterday, suspect influenza related myocarditis.
   No evidence of new ischemic event as patient ruled out for MI by
   biomarkers. Can consider repeat TTE as outpatient to assess for
   recovery of pump function. Continue beta blockers, diuresis as above.
   Increase captopril for afterload reduction, titrate up as BP tolerates.
 Coagulopathy
   Upon further history patient was indeed taking warfarin at home.
   Elevation may have been secondary to antibiotics vs nutrition. INR
   reversed successfully following vitamin K.
 ANEMIA
   No evidence of active bleeding. Had normal iron studies [**2-8**], normal
   B12 and folate [**10-9**].
   Hct stable, transfuse Hb>7.
 Left shoulder dislocation, suspected
   Repeat shoulder imaging in [**3-6**] weeks to better assess per ortho recs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-25**] 05:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-03-26 08:59:00 Physician Attending Progress Note
Chief Complaint: Influeza B causing resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Failed SBT - uncomfortable
   Family Meeting - discussed prognosis
   24 Hour Events:
 ULTRASOUND - At [**2185-3-25**] 07:30 PM
        unremarkable
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2185-3-23**] 10:12 AM
   Vancomycin - [**2185-3-25**] 02:00 AM
   Meropenem - [**2185-3-26**] 08:00 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2185-3-25**] 05:00 PM
   Pantoprazole (Protonix) - [**2185-3-26**] 08:28 AM
   Other medications:
   simvastsaitin, plavix, ASA, synthroid, colace, tamifu, chlorhexidine,
   RISS, lopressor, captopril
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-26**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 118 (98 - 123) bpm
   BP: 144/84(104) {99/56(69) - 170/89(120)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 13 (3 - 316)mmHg
   Total In:
                                                                  1,478 mL
                                                                  1,171 mL
   PO:
   TF:
                                                                    265 mL
                                                                    302 mL
   IVF:
                                                                    943 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    710 mL
   Urine:
                                                                  3,720 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,242 mL
                                                                    461 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 439 (390 - 439) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.50/25/115/23/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   diffusely to palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   320 K/uL
   138 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.0 mEq/L
   27 mg/dL
   107 mEq/L
   135 mEq/L
   26.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2185-3-24**]  04:28 AM
                             [**2185-3-24**]  04:40 AM
                             [**2185-3-24**]  11:52 AM
                             [**2185-3-24**]  04:12 PM
                             [**2185-3-24**]  09:16 PM
                             [**2185-3-25**]  03:58 AM
                             [**2185-3-25**]  05:16 PM
                             [**2185-3-25**]  11:44 PM
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
   WBC
   6.6
   8.8
   6.7
   5.8
   6.7
   Hct
   28.3
   30.2
   27.9
   27.0
   26.6
   Plt
   [**Telephone/Fax (3) 1110**]23
   320
   Cr
   0.9
   0.9
   0.8
   TCO2
   19
   18
   18
   19
   20
   Glucose
   77
   84
   138
   Other labs: PT / PTT / INR:17.1/150.0/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR - Pulm Edema
   Microbiology: Yeast in Urine, sparse Staph Aureus in Sputum, BC's neg
   to date
   Assessment and Plan
 ANEMIA, CHRONIC
   Stable, no need for transfusion
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy resolved, no DIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
       No progress, continued mechanical vent, still appears to be volume
   overloaded
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
      On broad specrum AB, culturing Staph, off pressors
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Covered
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Good urine output, stable creat
 ATRIAL FIBRILLATION (AFIB)
       increasing metoprolol ro control rate; consider amiodarone
 DIABETES MELLITUS (DM), TYPE II
       ssri
 URINARY TRACT INFECTION (UTI)
      covered with current AB
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza. Continue to
   diurese to goal of [**2-2**] liters
   On Captopril increasing as BP tolerates
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Previous dx of diastolic failure
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-25**] 05:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2185-03-27 07:53:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 BLOOD CULTURED - At [**2185-3-26**] 08:46 PM
   was oxygenating well on 40% so FiO2 decreased to 35%
   pt was consistently tachypneic on PSV 10/5 despite excellent
   oxygenation, thereby giving himself a respiratory alkalosis
   tried to sedate him more with fentanyl/versed, but dropped his pressure
   to 60/40. Came up on own after d/c F/V and 500cc NS bolus. Ultimately
   was able to tolerate some fentanyl with improvement in his ABG
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-3-26**] 08:00 AM
   Vancomycin - [**2185-3-26**] 08:00 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-26**] 08:28 AM
   Furosemide (Lasix) - [**2185-3-26**] 10:26 PM
   Fentanyl - [**2185-3-27**] 12:05 AM
   Midazolam (Versed) - [**2185-3-27**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 96 (91 - 118) bpm
   BP: 104/57(71) {97/56(71) - 144/84(104)} mmHg
   RR: 16 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  2,898 mL
                                                                  1,181 mL
   PO:
   TF:
                                                                    982 mL
                                                                    329 mL
   IVF:
                                                                  1,457 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                  2,659 mL
                                                                  1,300 mL
   Urine:
                                                                  2,659 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -119 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (398 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 46
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.47/33/119/22/1
   Ve: 5.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Intubated, sedated, responds to sternal rub, moving extremities.
   S1, S2, tachycardic, no murmur.
   Lungs with coarse BS b/l
   Abd with PEG tube, soft, NT, ND.
   Ext:  LLE somewhat cool as compared to right.  Right DP palpable.
   Pneumoboots in place.  No edema.
   Labs / Radiology
   373 K/uL
   10.1 g/dL
   137 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.9 mEq/L
   26 mg/dL
   107 mEq/L
   136 mEq/L
   30.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2185-3-25**]  03:58 AM
                             [**2185-3-25**]  05:16 PM
                             [**2185-3-25**]  11:44 PM
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
                             [**2185-3-26**]  11:48 AM
                             [**2185-3-26**]  04:59 PM
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
   WBC
   5.8
   6.7
   8.7
   Hct
   27.0
   26.6
   30.4
   Plt
   [**Telephone/Fax (3) 1120**]
   Cr
   0.9
   0.8
   0.7
   0.8
   TCO2
   18
   19
   20
   20
   22
   25
   Glucose
   84
   138
   139
   137
   Other labs: PT / PTT / INR:18.6/76.3/1.7, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   BCx [**3-26**] pending
   C diff negative
   Ucx [**3-24**] [**Month/Year (2) 1134**], urethral discharge with [**Month/Year (2) 1134**]
   Sputum [**3-23**] Cx +MRSA, also with 3+GPR
   +Influenza B
   CXR [**3-26**]:
   Moderate bilateral pleural effusion, left greater than right, not [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) **] over
   48 hours.  Upper lungs show mild vascular engorgement, improved since F
   ebruary
   22.  No pulmonary edema.  Left lower lobe atelectasis unchanged.  Heart
    size
   normal.  Endotracheal tube ends at the thoracic inlet.  Right jugular l
   ine tip
   projects over the mid SVC.  No pneumothorax.
   Assessment and Plan
   85yo gentleman with COPD, CHF, and CAD admitted with respiratory
   distress and influenza.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Due to influenza, volume overload (from aggressive fluid resuscitation
   for sepsis as well as heart failure), and bacterial pneumonia.
   -          day 5 of 5 of oseltamivir
   -          continue vancomycin for MRSA for total of 8 days; dose by
   trough
   -          RSBI excellent this morning, but patient is overall
   decompensated from multiple illnesses; will clarify with family whether
   he ought to be reintubated if he fails extubation prior to removing
   tube
   -          In the meantime, will support at 10/5
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -          off pressors, doing well
   # Hypotension/Hypertension:
   Patient has extremely labile BPs with precipitous drop on BP when given
   propofol, fentanyl, or versed
   -          conservative use of sedating medications
   -          small boluses as needed to support BP
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
admission Cr 1.1
   -          Cr stable with good urine output
   -          Monitor closely
 ATRIAL FIBRILLATION (AFIB)
   -          metoprolol for rate control as tolerated by BP
   -          IV heparin for anticoagulation
 DIABETES MELLITUS (DM), TYPE II
   Continue SubQ insulin as discussed below
 URINARY TRACT INFECTION (UTI)
   Although would not normally treat [**Doctor Last Name 1134**] in urine, patient had ball of
   thick discharge that was obstructing his urethra.  Culture from this
   ball is growing [**Last Name (LF) 1134**], [**First Name3 (LF) **] team decided to treat with amphotericin
   bladder irrigation.
   -          note that pt is s/p gent and meropenem for recent ESBL E
   coli and Klebsiella UTI
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.
   -          TTE with newly depressed EF, ? influenza myocarditis
   -          Continue beta blocker and ACE I
   -          Pt has prior Dx of diastolic HF
 COAGULOPATHY:
   Pt has been on warfarin at home, admitted with supratherapeutic INR
   -          INR improving after vitamin K
 ANEMIA, CHRONIC
   -          monitor; no evidence of bleed
   -          would transfuse for Hct <21
   # L shoulder dislocation:
   -          noted incidentally on CXR
   -          seen by orthopedics
okay to defer further imaging of L
   shoulder until patient more stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-26**] 09:07 PM 45 mL/hour
   Glycemic Control:  SSI with sugar 120-140
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care, daily RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU

2185-03-27 12:02:00 Physician Attending Progress Note
Chief Complaint: 85 yr male with resp distress from [**Hospital 12**] Rehab
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypoxemic yesterday, had episode of hypotension after increased
   sedation
   24 Hour Events:
 BLOOD CULTURED - At [**2185-3-26**] 08:46 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-3-26**] 08:00 AM
   Vancomycin - [**2185-3-26**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2185-3-26**] 10:26 PM
   Fentanyl - [**2185-3-27**] 12:05 AM
   Midazolam (Versed) - [**2185-3-27**] 05:39 AM
   Pantoprazole (Protonix) - [**2185-3-27**] 08:00 AM
   Other medications:
   RISS, colace, synthroid, ASA, plavix, simvastatin, Vit D, CaCO3,
   tamiflu, lopressor, captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-27**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 100 (91 - 114) bpm
   BP: 110/64(78) {97/57(71) - 144/80(103)} mmHg
   RR: 18 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,899 mL
                                                                  1,518 mL
   PO:
   TF:
                                                                    982 mL
                                                                    510 mL
   IVF:
                                                                  1,457 mL
                                                                    868 mL
   Blood products:
   Total out:
                                                                  2,659 mL
                                                                  1,830 mL
   Urine:
                                                                  2,659 mL
                                                                  1,830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                   -311 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (398 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 46
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.47/33/119/22/1
   Ve: 5.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG Tube in place
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   Non -purposeful, Tone: Decreased
   Labs / Radiology
   10.1 g/dL
   373 K/uL
   137 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.9 mEq/L
   26 mg/dL
   107 mEq/L
   136 mEq/L
   30.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2185-3-25**]  03:58 AM
                             [**2185-3-25**]  05:16 PM
                             [**2185-3-25**]  11:44 PM
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
                             [**2185-3-26**]  11:48 AM
                             [**2185-3-26**]  04:59 PM
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
   WBC
   5.8
   6.7
   8.7
   Hct
   27.0
   26.6
   30.4
   Plt
   [**Telephone/Fax (3) 1120**]
   Cr
   0.9
   0.8
   0.7
   0.8
   TCO2
   18
   19
   20
   20
   22
   25
   Glucose
   84
   138
   139
   137
   Other labs: PT / PTT / INR:18.6/76.3/1.7, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR - Bilateral Effusions; largely unchanged
   TTE - depressed EF from Flu
   Microbiology: BC yesterday pending
   C Diff negative
   Sputum [**3-26**] + MRSA
   DFA pos for Influenza B
   Assessment and Plan
 ANEMIA, CHRONIC
   Hct stable
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Flu, Staph Pneumonia - Ready for extubation, will discuss Code Status
   again with family before extubation
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Septic Physiology resolved.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   On Vanco
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
   On Beta Blocker, reluctant to start Ca Blocker with borderline BP
 DIABETES MELLITUS (DM), TYPE II
   Good control
 URINARY TRACT INFECTION (UTI)
   On Meropenem, not treating yeast
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Previous dx of diastolic failure
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Same RX
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-27**] 08:13 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:  Pantoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR no pressors
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-03-28 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family mtg with wife- plan for extubation soon, working on plan for how
   to manage if pt needs re-intubation
   BP still very labile, SBP dropped in 50s after Versed increased to 0.5
   for grimacing, improved with 500cc bolus.  BP agents: Metoprolol &
   Captopril- half dosed & started liquid oxycodone per PEG for pain
   Pt Intubated & grimace to verbal and physical stimuli, responds
   intermittently to commands.  Pt has been biting and pull at ETT.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-3-26**] 08:00 AM
   Vancomycin - [**2185-3-26**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-27**] 08:00 AM
   Midazolam (Versed) - [**2185-3-27**] 08:45 PM
   Fentanyl - [**2185-3-27**] 11:00 PM
   Other medications:
   Flowsheet Data as of  [**2185-3-28**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 120 (99 - 133) bpm
   BP: 173/90(121) {68/45(53) - 173/105(123)} mmHg
   RR: 22 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 17 (10 - 17)mmHg
   Total In:
                                                                  3,322 mL
                                                                    566 mL
   PO:
   TF:
                                                                  1,067 mL
                                                                    287 mL
   IVF:
                                                                  1,925 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,817 mL
                                                                    560 mL
   Urine:
                                                                  2,817 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                      6 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 566 (513 - 690) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 50
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.51/30/138/25/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 394
   Physical Examination
   Gen: Intubated, grimaces to verbal stimuli, responds intermittently to
   exam
   HEENT: intubated
   CV: mildly tachy in 120s, irreg irreg
   Resp: rhoncherous over RLL, left lobe clear to anterior auscult
   Abd: soft, NT, NABS, G-tube in place, NTTP
   Extr: no c/c/e
   Labs / Radiology
   CXR [**2185-3-28**]
   Moderate-to-large left and small-to-moderate right pleural effusions un
   changed
   since [**3-27**].  Consolidation in left lower lobe could be explained
    by
   atelectasis.  Upper lungs show vascular congestion but no edema.  Heart
    size
   normal.  ET tube and right jugular line in standard placements.  No
   pneumothorax.
   390 K/uL
   9.6 g/dL
   125 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   26 mg/dL
   106 mEq/L
   137 mEq/L
   28.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
                             [**2185-3-26**]  11:48 AM
                             [**2185-3-26**]  04:59 PM
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
                             [**2185-3-27**]  05:15 PM
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
   WBC
   6.7
   8.7
   9.4
   Hct
   26.6
   30.4
   28.7
   Plt
   [**Telephone/Fax (3) 1145**]
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   20
   20
   22
   25
   25
   25
   Glucose
   138
   139
   137
   125
   Other labs: PT / PTT / INR:16.4/58.6/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Blood Cx negative from [**3-26**]
   C Diff negative
   Urine Cx from [**3-24**] growing yeast, urethral discharge + yeast
   Sputum from [**3-23**] + MRSA & + GPR
   Viral swab + Influenza B
   Assessment and Plan
   85 y/o M with COPD, CHF & CAD admitted for respiratory distress with
   influenza B complicated by MRSA PNA.
 RESPIRATORY FAILURE: etiology likely [**3-5**] to influenza c/b secondary
   MRSA PNA, now an element of volume overload from volume resuscitation
   and depressed EF.  Moderate bilateral pleural effusions seen on CXR
   today.  Pt currently vented on [**6-11**], RSBI <100 but pt having
   significant apneic episodes and ABG shows resp alkalosis thought due to
   agitation vs vent settings & high MV.
   - decreasing MMV today and recheck ABG in pm & repeat SBT again today
   - will start olanzapine [**Hospital1 **] for possible delirium contributing to resp
   alkalosis
   - completed 5 days of oseltamivir
   - continue Vancomycin for MRSA (am level of 21, holding pm dose)
   - ongoing d/w family re plan for care after extubation if pt unable to
   tolerate.
   - off pressors, no e/o sepsis
LABILE BP: Pt with intermittent hypertension/hypotension, extremely
   medication sensitive and agitation contributing to vascular
   hyperresponsiveness.
   - short acting BB Metoprolol 50mg TID with hold parameters
   - Captopril 6.25mg q6hrs
   - starting olanzapine [**Hospital1 **] for concern of delirium, avoid increasing
   sedation to avoid hypotension
 ATRIAL FIBRILLATION: HR not well controlled between 100-130s due BP
   lability in response to BB
   - starting digoxin today, will monitor for rate control, continue
   Metoprolol 50mg TID
   - heparin gtt
 DIABETES MELLITUS (DM), TYPE II: insulin sliding scale
 URINARY TRACT INFECTION (UTI): yeast growing from cultures and
   urethral swab.
   - day [**2-3**] of CBI with Amphotericin, monitor UOP
   - will recheck UA on [**3-30**]
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: Pt with h/o diastolic CHF &
   Echo on [**3-23**] showed new systolic failure with EF of 25-30%,
   presumptively related to influenza myocarditis vs mild troponin leak in
   setting of sepsis, likely demand ischemia
   - likely to improve with resolution of infection, would repeat echo in
   6-8wks
 Coagulopathy: Admitted with supratherapeutic INR on Coumadin as
   outpt, corrected with Vit K
   -  INR currently 1.5 likely due to poor nutrition.  Continue Heparin
   gtt for A.Fib
 Anemia: likely due to chronic disease, hct current 26, monitor daily
   and transfuse for hct <21
 L shoulder dislocation: noted incidentally on CXR, per ortho- better
   to defer management until pt stable to undergo better imaging. Started
   Oxycodone 5mg via g-tube, monitoring for response.
   ICU Care
   Nutrition: Nutren Pulm with TF via G-tube at 45cc/hr
   Glycemic Control:  ISS
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR
   Disposition:
   ------ Protected Section ------
   Note: Pt with h/o Hypothyroidism on synthroid.  Checking TSH today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2185-3-28**] 16:39 ------

2185-03-28 10:15:00 Physician Attending Progress Note
Chief Complaint: Hypoxic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:   85M with hypoxic respiratory failure due to influenza, VAP, CHF.
   Difficult patient-ventilator interactions due to volatile BP and
   agitation/delerium
   24 Hour Events:
   Family meeting yesterday
   BP labile
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-3-26**] 08:00 AM
   Vancomycin - [**2185-3-26**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2185-3-27**] 08:45 PM
   Fentanyl - [**2185-3-27**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, FH, SH unchanged compared to admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-28**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 103 (99 - 133) bpm
   BP: 163/84(112) {68/45(53) - 173/105(123)} mmHg
   RR: 23 (10 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  3,322 mL
                                                                    667 mL
   PO:
   TF:
                                                                  1,067 mL
                                                                    287 mL
   IVF:
                                                                  1,925 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,817 mL
                                                                    780 mL
   Urine:
                                                                  2,817 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 665 (513 - 690) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 50
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.51/30/138/25/2
   Ve: 5.7 L/min
   PaO2 / FiO2: 394
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   390 K/uL
   125 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   26 mg/dL
   106 mEq/L
   137 mEq/L
   28.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2185-3-26**]  05:16 AM
                             [**2185-3-26**]  05:41 AM
                             [**2185-3-26**]  11:48 AM
                             [**2185-3-26**]  04:59 PM
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
                             [**2185-3-27**]  05:15 PM
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
   WBC
   6.7
   8.7
   9.4
   Hct
   26.6
   30.4
   28.7
   Plt
   [**Telephone/Fax (3) 1145**]
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   20
   20
   22
   25
   25
   25
   Glucose
   138
   139
   137
   125
   Other labs: PT / PTT / INR:16.4/58.6/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Imaging: Persistent B pleural effusions
   Assessment and Plan
   85M with hypoxic respiratory failure due to influenza, VAP, CHF.
   Difficult patient-ventilator interactions due to volatile BP and
   agitation/delirium
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - continue vent support for now
prolonged apneas with CPAP/PS, possibly
   exacerbated by resp alkalosis and decreased ventilatory drive
   - decrease MMV given resp alkalosis and repeat ABG
   - continue gentle diuresis
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)--
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   - Vancomycin dosed by level for MRSA level
   - today is day 7 of 10 of course
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Previous dx of diastolic failure
   - Will increase rate control by adding digoxin to b-blocker
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.
   -          Continue diuresis, afterload reduction as BP
   -          Continue captopril at low dose
   Update Dr.[**Name (NI) 1157**], pt
s cardiologist
 ATRIAL FIBRILLATION (AFIB)
   - rate control
   - heparin gtt
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - resolved
 DIABETES MELLITUS (DM), TYPE II
   - RISS
 URINARY TRACT INFECTION (UTI)
   - Ampho bladder wash X 3 days then repeat U/a with cx
   C. Diff
   - PO vanco, on prolonged taper
 ANEMIA, CHRONIC--stable
   AGITATION/DELERIUM:
   -          Start low-dose olanzapine for delirium.
   -          Oxycodone for pain
   Remainder of problems reviewed with housestaff and are as documented in
   their daily progress note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:   45 critical care

2185-03-29 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Metoprolol inc to 75mg TID
   - olanzapine started
   - TSH 20, T4 and T3 pending
   - on MMV, doing well
   Pt still grimaces to exam, only intermittently responding to commands
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-26**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2185-3-29**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 115 (95 - 121) bpm
   BP: 153/81(107) {102/57(71) - 172/89(116)} mmHg
   RR: 17 (10 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 14 (11 - 18)mmHg
   Total In:
                                                                  1,838 mL
                                                                    485 mL
   PO:
   TF:
                                                                    959 mL
                                                                    325 mL
   IVF:
                                                                    524 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    650 mL
   Urine:
                                                                  2,330 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                   -165 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 636 (183 - 769) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.46/38/131/25/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 374
   Physical Examination
   GEN: grimacing to vebal stimuli, intermittently responds to commands
   HEENT: intubated
   CV: mildly tachy, irreg irreg
   RESP: CTAB in anterior lung fields, [**Month (only) 38**] BS at bases
   ABD: soft,NT/ND/NABS, G-tube site NTTP
   EXTR: thin +DP/PT pulses bilaterally
   Labs / Radiology
   CXR [**2185-3-29**] am:
   FINDINGS:  Change in position as compared to the previous radiograph.
   No
   relevant change.  Mild-to-moderate right-sided pleural effusion.  Atele
   ctatic
   opacity in the left lower lobe.  No higher grade pulmonary edema.  The
   size of
   the cardiac silhouette is at the upper range of normal.  Central venous
   catheter and endotracheal tube are in unchanged position, no pneumothor
   ax.
   IMPRESSION:  Unchanged radiographic appearance as compared to the previ
   ous
   examination.
   371 K/uL
   9.1 g/dL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   105 mEq/L
   136 mEq/L
   27.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
                             [**2185-3-27**]  05:15 PM
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
                             [**2185-3-28**]  11:53 AM
                             [**2185-3-28**]  07:45 PM
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
   WBC
   8.7
   9.4
   7.8
   Hct
   30.4
   28.7
   27.5
   Plt
   373
   390
   371
   Cr
   0.8
   0.7
   0.7
   TCO2
   22
   25
   25
   25
   27
   28
   28
   Glucose
   137
   125
   126
   Other labs: PT / PTT / INR:16.4/87.3/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): etiology multifactorial
   but includes influenza A complicated by MRSA PNA and volume overload
   [**3-5**] resuscitation and depressed EF.  CXR shows stable moderate
   bilateral pleural effusions, no increase in pulm edema.  Pt vented on
   [**11-6**], MMV decreased to 3L overnight, ABG improved this am with pH of
   7.46 & CO2 of 38.  However, sedation was held o/n and pt was somnolent
   & minimally responsive to commands this am, likely not able to tolerate
   extubation.  Complete 5/5 days oseltamivir
   -will advance tube today & recheck placement
   -will attempt to d/c MMV and provide pressure support with 5/5, recheck
   ABG
   -continue Vancomycin day [**9-11**], dosing by level, f/u am level
   -transfuse with 1upRBCs and lasix, goal i/os neg 500cc
   -still working with family about goals post extubation
 ATRIAL FIBRILLATION with LABILE BPs: Pt with chronic A.Fib continues
   to have intermittent hyper/hypotension with agitation/delirium.  HR not
   well controlled, ranging from 99-133.
   - continue Captopril 6.25mg q6hrs
   - titrate up Metoprolol currently 75mg TID
   - continue Digoxin
   - Olanzapine 5mg [**Hospital1 **] for delirium
   - continue Heparin gtt with goal PTT of 60-80
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: Pt with h/o diastolic CHF &
   ECHO on [**3-23**] showed new systolic failure with EF of 25-30%
   presumptively related to influenza vs mild troponin leak in setting of
   tachycardia & sepsis.  No RWMA & global depression of EF may be due to
   sepsis & is likely to improve with resolution of infection.  Moderate
   bilateral pleural effusions & pulm edema present of CXR since volume
   resussitation.
   - will need f/u ECHO in 6-8wks
   - diurese with Lasix 80mg IV with RBCs, goal I/Os neg 500cc
 URINARY TRACT INFECTION: Urine Cultures + yeast, currently day [**3-6**]
   for amphotericin continuous bladder irrigation
   - continue CBI for 1 more day, monitor UOP
   - check UA in am after d/c CBI
 DIABETES MELLITUS (DM), TYPE II: continue Insulin Sliding Scale while
   on TF
 Coagulopathy: admitted with supratherapeutic INR, corrected with Vit
   K
   - INR currently 1.5 likely due to poor nutrition
Anemia: likely due to chronic disease, will transfuse 1u pRBCs with
   80mg IV lasix
L shoulder dislocation: noted incidentally on CXr, per ortho, will
   defer management  until pt more stable to undergo more definitive
   management.  Started Oxycodone 5mg via g-tube, monitoring for response.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-3-29**] 01:54 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU

2185-03-29 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  85M with hypoxic respiratory failure due to influenza, VAP, CHF.
   Difficult patient-ventilator interactions due to volatile BP and
   agitation/delirium
   24 Hour Events:
   * Metoprolol increased
   * Digoxin started for rate control
   * Diuresing
   * RSBI 71
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-29**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   ISS, plavix, zocor, vit D, Ca CO3, PO Vanco, Captopril 6.25, Metoprol
   75 TID, Digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Musculoskeletal: Shoulder dislocation
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated, Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-3-29**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 93 (93 - 121) bpm
   BP: 101/60(75) {101/57(71) - 172/89(116)} mmHg
   RR: 21 (10 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 13 (13 - 17)mmHg
   Total In:
                                                                  1,838 mL
                                                                    942 mL
   PO:
   TF:
                                                                    959 mL
                                                                    497 mL
   IVF:
                                                                    524 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    780 mL
   Urine:
                                                                  2,330 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 575 (183 - 769) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.46/38/131/25/3
   Ve: 7.4 L/min
   PaO2 / FiO2: 374
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Distant),
   irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: bases)
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   371 K/uL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   105 mEq/L
   136 mEq/L
   27.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2185-3-26**]  10:42 PM
                             [**2185-3-27**]  05:17 AM
                             [**2185-3-27**]  05:52 AM
                             [**2185-3-27**]  05:15 PM
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
                             [**2185-3-28**]  11:53 AM
                             [**2185-3-28**]  07:45 PM
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
   WBC
   8.7
   9.4
   7.8
   Hct
   30.4
   28.7
   27.5
   Plt
   373
   390
   371
   Cr
   0.8
   0.7
   0.7
   TCO2
   22
   25
   25
   25
   27
   28
   28
   Glucose
   137
   125
   126
   Other labs: PT / PTT / INR:16.4/67.4/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Imaging: Persistent blunting of R > L costophrenic angles. L base cut
   off film. ETT slightly high. Other lines OK.
   Assessment and Plan
   85M with hypoxic respiratory failure due to influenza, VAP, CHF.
   Agitation and delirium
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Due to influenza, pleural
   effusions, weakness, CHF, and MRSA VAP. Difficult wean likely
   complicated by delirium.
   - Will attempt to wean pressure support, lighten sedation, use PRNs for
   agitation or discomfort
   - Advance ETT
   - Discuss tracheostomy with his family since progress is slow and
   mental status, secretion, weakness contributing to poor wean candidate
 ATRIAL FIBRILLATION (AFIB): Anticoagulated, on b-blocker. Started on
   digoxin [**2185-3-28**].
   - Will continue to advance B-blocker for improved heart rate control
 ANEMIA, CHRONIC: Continues to drift down.
   - Will transfuse to HCT > 30 given his CHF and CAD
   - Lasix with PRBCs
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   - Day [**9-11**] of Vanco, which is dosed by level
 DIABETES MELLITUS (DM), TYPE II
   - ISS
 URINARY TRACT INFECTION (UTI): Yeast, treating with ampho bladder
   washes.
   - D/C bladder washes tomorrow.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza.
   - Continue to monitor fluid balance, with goal -500/day.
   - Low dose captopril
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   - Continue ASA and Plavix, beta blocker
   - Hct > 30.
   * Delirium:
   - Continue olanzapine, attempt to wean fentanyl/versed
   * HYPOTHYROID: Mild, and difficult to assess in setting of critical
   illness.
   - Continue synthroid at current dosing.
   Other issues discussed with housestaff, with whose assessments and
   plans I agree with.
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2185-3-29**] 01:54 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Comments: Will need PICC for long-term access
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Communicating with family daily
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2185-03-30 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BB inc to 100mg TID
   - intermittently on [**6-6**], without back up MMV & ABGs stable
   - received 1u pRBCs and Lasix, making [**Name (NI) 949**]
   Pt intubated, comfortable, not responding to commands
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-29**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2185-3-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 118 (89 - 119) bpm
   BP: 110/80(93) {98/56(71) - 177/103(130)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  2,176 mL
                                                                    469 mL
   PO:
   TF:
                                                                  1,109 mL
                                                                    320 mL
   IVF:
                                                                    692 mL
                                                                    149 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,720 mL
                                                                    720 mL
   Urine:
                                                                  1,720 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                   -251 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 385 (0 - 584) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.55/29/110/24/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 314
   Physical Examination
   GEN: NAD, comfortable, no grimacing on exam
   HEENT: intubated
   CV: irreg/irreg, no m/r/g
   RESP: rhoncherous BS over RLL base & cta over LLL base
   ABD: soft, NT/ND/NABS, g-tube site c/d/I, NTTP, no erythema
   Lower extr: no c/c/e
   Upper R extr: edema distal to restraints
   Labs / Radiology
   CXR [**2185-3-29**] am
   FINDINGS:  Change in position as compared to the previous radiograph.
   No
   relevant change.  Mild-to-moderate right-sided pleural effusion.  Atele
   ctatic
   opacity in the left lower lobe.  No higher grade pulmonary edema.  The
   size of
   the cardiac silhouette is at the upper range of normal.  Central venous
   catheter and endotracheal tube are in unchanged position, no pneumothor
   ax.
   IMPRESSION:  Unchanged radiographic appearance as compared to the previ
   ous
   examination.
   CXR pending this am
   437 K/uL
   10.8 g/dL
   140 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   103 mEq/L
   137 mEq/L
   31.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
                             [**2185-3-28**]  11:53 AM
                             [**2185-3-28**]  07:45 PM
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
   WBC
   9.4
   7.8
   11.9
   Hct
   28.7
   27.5
   31.6
   Plt
   390
   371
   437
   Cr
   0.7
   0.7
   0.6
   TCO2
   25
   27
   28
   28
   28
   28
   26
   Glucose
   125
   126
   140
   Other labs: PT / PTT / INR:16.4/52.4/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   ABG from 6:40am pH 7.55/29/ 110
   Blood Cx from [**3-26**] NGTD
   Urine Cx + yeast
   Assessment and Plan: 85 y/o man admitted with respiratory failure [**3-5**]
   to sepsis from MRSA PNA.
   .
   # RESPIRATORY FAILURE: etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  Pt was aggressively volume
   resussitated with a depressed EF and continues to moderate bilateral
   pleural effusions and pulm edema.  Pt able to tolerate minimal vent
   support [**6-6**] for 3-4 hrs at a time, then develops tachypnea & alkalosis
   of unknown etiology. It is unclear if this is due to agitation vs
   severely decompensated resp status and poor baseline functionning.  Not
   likely to extubate today, plan for family meeting with Attg regarding
   possible trach.
   - continue Vancomycin for MRSA PNA, currently day [**10-12**]
   - will recheck ABG this am, working with RT to [**Month (only) 38**] tachypnea &
   alkalosis, continue Olanzapine [**Hospital1 **]
   - s/p 1upRBCs overnight, IV lasix for goal neg 0.5-1L today
   - supportive care, possible planning for trach placement
   .
   # Atrial Fibrillation with Labile BPS: Pt with chronic A.Fib and labile
   BPs/HR thought due to agitation and extreme sensitivity to
   medications.  Pt started on Digoxin [**3-28**] & increased BB overnight,
   acheiving better rate control.
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg IV daily & check am level
   - continue heparin gtt for anticoag goal PTT 60-80
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.  CXR continues to show stable
   volume overload, attempting to diurese.
   - continue Captopril 6.25mg q6hr for afterload reduction
   - diuresis with IV lasix, goal neg 0.5-1L daily
   .
   # UTI: Urine cultures positive for yeast, currently day [**4-4**] for
   Amphotericin CBI.
   - f/u UA this evening after completion of CBI
   .
   # DM TYPEII: continue ISS with TF
   .
   # Anemia: likely [**3-5**] chronic disease, s/p 1uPRBCs overnight.  Hct
   bumped appropriately, continue to monitor.
   .
   # Coagulopathy: Pt p/w supratherapeutic INR, corrected with Vit K.  INR
   still elevated at 1.5 likely due to poor nutrition
   - d/w nutrition regarding Vit K supplementation in TF
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-29**] 11:29 PM 45 mL/hour
   Glycemic Control:
   Lines:  PICC line request placed
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-03-30 11:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure [**3-5**] influenza, VAP, CHF,  ongoing
   delirium and agitation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85M with hypoxic respiratory failure due to influenza, VAP, CHF.
   24 Hour Events:
   Tachypneic overnight on PS 5/5
increasing PS to [**11-6**], rested on AC
   overnight and now returned to PS 5/5 this am
   Transfused  1 unit prbcs/ lasix with good urine output
   Metoprolol increased to 100 tid with  improved rate control
   temp to 100.6--was not cx'd, resolved without tylenol, no additional
   temp spike
   History obtained from Family / [**Hospital 56**] Medical records, house staff
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-29**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-30**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 93 (89 - 119) bpm
   BP: 118/64(82) {98/56(71) - 177/103(130)} mmHg
   RR: 30 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 10 (3 - 15)mmHg
   Total In:
                                                                  2,176 mL
                                                                    702 mL
   PO:
   TF:
                                                                  1,109 mL
                                                                    477 mL
   IVF:
                                                                    692 mL
                                                                    225 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,720 mL
                                                                  1,280 mL
   Urine:
                                                                  1,720 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                   -578 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 294 (0 - 584) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.55/29/110/24/4
   Ve: 10.8 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General Appearance: No acute distress, Thin, chachectic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, line site clean
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left, Crackles : scant at bases, Diminished: throughout, No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, chacechtic
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, abrasions back,
   groin
   Neurologic: not following commands, minimal response to voice ,
   Movement: Not assessed, Sedated,
   Labs / Radiology
   10.8 g/dL
   437 K/uL
   140 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   103 mEq/L
   137 mEq/L
   31.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2185-3-28**]  05:35 AM
                             [**2185-3-28**]  05:57 AM
                             [**2185-3-28**]  11:53 AM
                             [**2185-3-28**]  07:45 PM
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
   WBC
   9.4
   7.8
   11.9
   Hct
   28.7
   27.5
   31.6
   Plt
   390
   371
   437
   Cr
   0.7
   0.7
   0.6
   TCO2
   25
   27
   28
   28
   28
   28
   26
   Glucose
   125
   126
   140
   Other labs: PT / PTT / INR:16.4/67.8/1.5, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Imaging: et at 3 cm above carina, r ij in good position
   b/l effusions layering, rotated
   Microbiology: no new data
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Due to influenza, pleural
   effusions, weakness, CHF, and MRSA VAP. Difficult wean further
   complicated by delirium, currently very poor extubation candidate given
   marginal rsbi of 95, extreme weakness,  poor mental status/agitation
   and secretions and volume overload/CHF, now on day 8 of intubation
   -          Discuss tracheostomy with his family as feel that he will be
   prolonged vent wean
   -          Continue diuresis for effusions, CHF (goal 500 neg per day)
   -          Currently on [**6-6**] with mmv
                      rechecking abg given alkalosis
                      Try increasing PS amt
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled with increased metoprolol dose/digoxin
                   Anticoagulated with hep ggt
                   Check digoxin level
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza, post viral myocarditis.
   - Continue to monitor fluid balance, with goal -500/day.
   - Low dose captopril at current dose
    Lasix prn
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above
 ANEMIA, CHRONIC: Continues to drift down/chronic illness, blood
   draws.
   Bumped post transfusion yesterday
   Monitor
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   - Day [**10-12**] of Vanco, which is dosed by level--completing course today
 DIABETES MELLITUS (DM), TYPE II
   - ISS
 URINARY TRACT INFECTION (UTI): Yeast, treating d/c ampho bladder
   washes  now s/p 3 days
   recheck u/a
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis, stable sat present
   - Continue ASA and Plavix, beta blocker
   >Delirium:
   - Continue olanzapine, minimal versed/fentanyl requirements
   >chronic c diff:  po vanco with prolonged taper
touch base with ID
   regarding length/course of treatment
   >HYPOTHYROID: Mild, and difficult to assess in setting of critical
   illness.
   - Continue synthroid at current dosing.
   Other issues discussed with housestaff, with whose assessments and
   plans I agree with.
   Continue to address goals of care with patient
s family.  Consider
   palliative care involvement
   ICU Care
   Nutrition:  tube feeds, ensure adequate vit K in diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:  in for picc placement with plan to d/c central access
   afterwards
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin drip)
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-03-31 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2185-3-31**] 01:40 AM
   -- family meeting, no change in current plan.
   -- Continued alkalolsis requiring MMV ventilation.  Improved slightly
   on [**6-6**].
   -- IV nursing could not place PICC, IR to place today
   -- completed amphotericin B and [**Name (NI) 1247**]
   Pt was tachypneic & mildly diaphoretic on [**11-6**] with [**Month (only) 38**] tidal volumes
   when examined.  Vent settings were changes to AC to allow [**Month (only) 38**] pt [**Name (NI) 31**].
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-30**] 01:43 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications: Olanzapine, Digoxin, Captopril, Heparin, Plavix,
   [**Last Name (LF) 1267**], [**First Name3 (LF) 369**], Metoprolol, Insulin, Zocor, Vit D/Calcium.
   Flowsheet Data as of  [**2185-3-31**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 111 (80 - 116) bpm
   BP: 115/94(100) {90/44(51) - 143/94(100)} mmHg
   RR: 24 (19 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 8 (1 - 23)mmHg
   Total In:
                                                                  1,804 mL
                                                                    593 mL
   PO:
   TF:
                                                                  1,093 mL
                                                                    300 mL
   IVF:
                                                                    711 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    365 mL
   Urine:
                                                                  3,020 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,216 mL
                                                                    228 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 446 (0 - 488) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 115
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.51/37/126/28/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 360
   Physical Examination
   GEN: tachypneic, intubated, no grimacing
   CV: irreg/irreg mildly tachy, no m/r/g
   RESP: CTAB, coarse BS over RLL, [**Month (only) 38**] BS over bases
   ABD: soft NT/ND/NABS, G-tube site NTTP
   Extr: thin, no c/c/e
   Labs / Radiology
   CXR 2/27/008
   The endotracheal tube still projects approximately 3.7 cm above the
   carinal bifurcation, unchanged.  Right IJ central line distal tip proje
   cts
   over the caval/atrial junction.
   There is persistent unchanged pulmonary edema in a symmetrical bilatera
   l
   distribution with bilateral small effusions.  There is also persistent
   left
   apical opacity.  Note that the shoulder joints are significantly degene
   rative.
   IMPRESSION:
   1.  Endotracheal tube in satisfactory location.
   2.  Persistent moderate pulmonary edema and mild/small pleural effusion
   s.
   487 K/uL
   10.8 g/dL
   128 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   33.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-3-28**]  07:45 PM
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
   WBC
   7.8
   11.9
   13.0
   Hct
   27.5
   31.6
   33.0
   Plt
   371
   437
   487
   Cr
   0.7
   0.6
   0.8
   TCO2
   28
   28
   28
   28
   26
   29
   31
   Glucose
   126
   140
   128
   Other labs: PT / PTT / INR:14.7/62.9/1.3, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   UA -8 WBCs, no yeast, no bacteria
   ABG [**2185-8-29**]  pH 7.53/32/137/28/5 on [**11-6**] with MMV (tachypneic) prior to
   change of settings
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  Pt was aggressively volume
   resussitated with a depressed EF and continues to moderate bilateral
   pleural effusions and pulm edema.  Pt was noted to have inc [**Month/Day (2) 31**],
   tachypnea & alkalosis on [**11-6**] this am with back up MMV.  It is unclear
   if this is due to agitation vs severely decompensated resp status. RSBI
   115 this am, pt not likely to tolerated extubation, ongoing family
   meeting with Attg regarding trach placement.
   - completed course of Vancomycin for MRSA PNA, currently day [**11-11**]
   - recheck ABG this afternoon, after spending a few hrs on AC
   - diuresed well overnight 1.2L negative, continue with goal of neg
   500cc/day
   - supportive care, planning for possible trach placement, consulting
   ethics today
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs/HR thought due to agitation and extreme sensitivity to
   medications.  Pt started on Digoxin [**3-28**] & Metoprolol 100mg TID,
   acheived better rate control but still ranging for 90-120
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg IV daily & check am level
   - continue heparin gtt for anticoag goal PTT 60-80
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.  Diuresed well overnight, CXR
   continues to show volume overload with bilateral pleural effusions.
   - continue Captopril 6.25mg q6hr for afterload reduction
   - diuresis with IV lasix, goal neg 0.5L daily
   .
   # UTI: Urine cultures positive for yeast, now completed 3 days of
   Amphotericin [**Month/Year (2) 1247**].  Repeat UA +leuks & WBCs, no yeast.
   - f/u urine cultures
   .
   # DM TYPEII: continue ISS with TF
   .
   # ANEMIA: etiology likely [**3-5**] chronic disease, s/p 1uPRBCs [**3-29**] and hct
   bumped appropriately, continue to monitor.
   .
   # Coagulopathy: Pt p/w supratherapeutic INR, corrected with Vit K.  INR
   still elevated at 1.5 likely due to poor nutrition
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-30**] 09:25 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Prophylaxis:
   DVT: Hepain gtt
   Stress ulcer: Famotidine
   VAP:  chlorhexidine washes
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-03-31 10:30:00 Physician Attending Progress Note
Chief Complaint: repsiratory failure from CHF, influenza, MSRA pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 URINE CULTURE - At [**2185-3-31**] 01:40 AM
   continued alkalosis--improved slightly on [**6-6**] with MMV
   Became more tachypneic overnight and changed to 10/5 then for increased
   fatigue switched back to AVC this am.
   unable to place bedside picc
scheduled for picc via IR today
   History obtained from house staff
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-30**] 01:43 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Per [**Month (only) **] (reviewed0
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-31**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 110 (80 - 117) bpm
   BP: 110/66(81) {85/45(59) - 153/79(105)} mmHg
   RR: 20 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 14 (1 - 23)mmHg
   Total In:
                                                                  1,806 mL
                                                                    824 mL
   PO:
   TF:
                                                                  1,095 mL
                                                                    461 mL
   IVF:
                                                                    711 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    445 mL
   Urine:
                                                                  3,020 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,214 mL
                                                                    379 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 446 (0 - 488) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 115
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.53/32/137/28/5
   Ve: 9.9 L/min
   PaO2 / FiO2: 391
   Physical Examination
   General Appearance: Thin, Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, waisted, atrophied
   Skin:  , No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement:unable to assess,
   Sedated, Tone: Decreased
   Labs / Radiology
   10.8 g/dL
   487 K/uL
   128 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   33.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-3-29**]  04:50 AM
                             [**2185-3-29**]  05:00 AM
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
   WBC
   7.8
   11.9
   13.0
   Hct
   27.5
   31.6
   33.0
   Plt
   371
   437
   487
   Cr
   0.7
   0.6
   0.8
   TCO2
   28
   28
   28
   26
   29
   31
   28
   Glucose
   126
   140
   128
   Other labs: PT / PTT / INR:14.7/62.9/1.3, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Imaging: raoted et ok ( 3), sr Ij in place, table with pulm edema and
   b/l effusions layering
   Microbiology: urine/a--large leuks
   cx--pending
   no additional micro data back
   CXR:  et ok at 3-4 cm, r ij ok, unchanged with b/l layering effusions
   and mild pulm vascular edema
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Due to influenza, pleural
   effusions, weakness, CHF, and MRSA VAP.
      Remains very poor extubation candidate given rsbi, extreme
   weakness,  poor mental status/agitation and secretions, volume
   overload/CHF, and fatigue, now on day 9 of intubation
      - will continue discussion with family regarding  tracheostomy as
   feel that pt will be prolonged vent wean if continued ongoing
   aggressive care is desired, will involve ethics c/s for assistance
       - Continue diuresis for effusions, CHF (goal 500 neg per
   day)--follow metabolic status, consider adding diamox if metabolic
   alkalosis/contraction worsens
        - Continue  ACV given fatigue--follow abg and adjust to address
   alkalosis
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled with increased metoprolol dose/digoxin
                   - Anticoagulated with hep ggt
                   - follow digoxin level
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza, post viral myocarditis.
          - Continue to monitor fluid balance, with goal -500/day (gentle
   lasix) as cr tolerates, would try diamox if metabolic component to
   alkalosis worsens with continued diuresis
           - cont low dose captopril at current dose
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above
 ANEMIA, CHRONIC: Continues to drift down/chronic illness, blood
   draws.
   - Bumped post transfusion yesterday
   - Continue to monitor, minimize blood draws
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
        - completed 10 day vanco course, d/c'd today
 DIABETES MELLITUS (DM), TYPE II
   - ISS
 URINARY TRACT INFECTION (UTI): had yeast uti , d/c ampho bladder
   washes now s/p 3 days
   Repeat urine cx pending.  If still yeast positive and with new evidence
   of infection such as fever spike or hypotension, would give fluconazole
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
   - Continue ASA and Plavix, beta blocker and ace-i
   >Delirium:
   - Continue olanzapine, minimal versed/fentanyl requirements
   >chronic c diff:  po vanco with prolonged taper
continue 10 day course
   then d/c
   >HYPOTHYROID: Mild, and difficult to assess in setting of critical
   illness.
   - Continue synthroid at current dosing.
    > Other issues discussed with housestaff, with whose assessments and
   plans I agree with.
   Continue to address goals of care with patient
s family.  ethics
   involvement.  Continue to clarify code status with pts family as per
   discussion with Dr [**Last Name (STitle) 832**] last week apparently DNR though based on my
   conversations with pts wife at this time I was told that family still
   would want everything in setting of cardiac arrest.  I feel that in
   setting of cardiac arrest pt would have extremely grim prognosis and
   that CPR would not be medically indicated, though at this time he is
   stable from HD standpoint.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-3-31**] 08:16 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2185-3-22**] 12:13 PM
   Arterial Line - [**2185-3-22**] 02:10 PM
   Comments: IR picc today, then will pull IJ
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-01 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2185-3-31**] 03:00 PM
   inserted in IR
 PRESEP CATHETER - STOP [**2185-3-31**] 08:15 PM
   - D/C'd vanc
   - ethics consult made, family meeting planned for [**3-/2106**]
   - PICC placed by IR
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-30**] 01:43 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-1**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 105 (97 - 120) bpm
   BP: 119/72(89) {86/52(64) - 136/76(97)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 15 (12 - 16)mmHg
   Total In:
                                                                  1,848 mL
                                                                    496 mL
   PO:
   TF:
                                                                  1,090 mL
                                                                    282 mL
   IVF:
                                                                    518 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    110 mL
   Urine:
                                                                  1,865 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                    386 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Set): 15
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.55/29/62/25/3
   Ve: 8 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   498 K/uL
   9.9 g/dL
   145 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   29.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
   WBC
   11.9
   13.0
   13.9
   Hct
   31.6
   33.0
   29.1
   Plt
   437
   487
   498
   Cr
   0.6
   0.8
   0.9
   TCO2
   28
   28
   26
   29
   31
   28
   26
   Glucose
   140
   128
   145
   Other labs: PT / PTT / INR:14.4/55.7/1.3, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  Pt was aggressively volume
   resussitated with a depressed EF and continues to moderate bilateral
   pleural effusions and pulm edema.  Pt was noted to have inc WOB,
   tachypnea & alkalosis on [**11-6**] this am with back up MMV.  It is unclear
   if this is due to agitation vs severely decompensated resp status. RSBI
   115 this am, pt not likely to tolerated extubation, ongoing family
   meeting with Attg regarding trach placement.
   - completed course of Vancomycin for MRSA PNA, currently day [**11-11**]
   - recheck ABG this afternoon, after spending a few hrs on AC
   - diuresed well overnight 1.2L negative, continue with goal of neg
   500cc/day
   - supportive care, planning for possible trach placement, consulting
   ethics today
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs/HR thought due to agitation and extreme sensitivity to
   medications.  Pt started on Digoxin [**3-28**] & Metoprolol 100mg TID,
   acheived better rate control but still ranging for 90-120
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg IV daily & check am level
   - continue heparin gtt for anticoag goal PTT 60-80
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.  Diuresed well overnight, CXR
   continues to show volume overload with bilateral pleural effusions.
   - continue Captopril 6.25mg q6hr for afterload reduction
   - diuresis with IV lasix, goal neg 0.5L daily
   .
   # UTI: Urine cultures positive for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UA +leuks & WBCs, no yeast.
   - f/u urine cultures
   .
   # DM TYPEII: continue ISS with TF
   .
   # ANEMIA: etiology likely [**3-5**] chronic disease, s/p 1uPRBCs [**3-29**] and hct
   bumped appropriately, continue to monitor.
   .
   # Coagulopathy: Pt p/w supratherapeutic INR, corrected with Vit K.  INR
   still elevated at 1.5 likely due to poor nutrition
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-04-01 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2185-3-31**] 03:00 PM
   inserted in IR
 PRESEP CATHETER - STOP [**2185-3-31**] 08:15 PM
   - D/C'd vanc
   - ethics consult made, family meeting planned for [**3-/2106**]
   - PICC placed by IR
   Pt more alert this am, responding to commands, c/o R shoulder pain.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-30**] 01:43 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2185-4-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 105 (97 - 120) bpm
   BP: 119/72(89) {86/52(64) - 136/76(97)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 15 (12 - 16)mmHg
   Total In:
                                                                  1,848 mL
                                                                    497 mL
   PO:
   TF:
                                                                  1,090 mL
                                                                    282 mL
   IVF:
                                                                    518 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    110 mL
   Urine:
                                                                  1,865 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                    387 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Set): 15
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.55/29/62/25/3
   Ve: 8 L/min
   PaO2 / FiO2: 124
   Physical Examination
   GEN:NAD, more alert, responding to commands
   HEENT: intubated, crusted blood in mouth
   CV: irreg, irreg, mildly tachy
   RESP: CTAB, [**Month (only) 38**] BS at bases
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/e
   Labs / Radiology
   498 K/uL
   9.9 g/dL
   145 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   29.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2185-3-29**]  06:31 PM
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
   WBC
   11.9
   13.0
   13.9
   Hct
   31.6
   33.0
   29.1
   Plt
   437
   487
   498
   Cr
   0.6
   0.8
   0.9
   TCO2
   28
   28
   26
   29
   31
   28
   26
   Glucose
   140
   128
   145
   Other labs: PT / PTT / INR:14.4/55.7/1.3, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Urine culture final: negative for growth
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  Pt was aggressively volume
   resussitated with a depressed EF and continues to moderate bilateral
   pleural effusions. CXR from this am is mildly improved with [**Month (only) 38**] pulm
   vascular congestion. Pt did not tolerate pressure support with resp
   alkalosis and was maintained on AC overnight. RSBI 115 on [**3-31**]. Pt not
   likely to tolerated extubation, ongoing family meetings with Attg
   regarding trach placement and code status.
   - f/u NIFF today to assess inspiratory strength
   - completed course of Vancomycin for MRSA PNA,
   - diuresed well overnight and appears contracted on am labs, goal for
   net i/os even
   - supportive care, planning for possible trach placement, consulted
   ethics
   .
   # ID: Low grade fevers & rising WBC count very concerning for VAP in pt
   that has been intubated for 9 days.
   - sending blood, urine & trach sputum cultures
   - given increased bloody secretions, will get Head CT to r/o sinus
   infection
   - start empiric Abx with Vanc/Zosyn for coverage of VAP with plan to
   d/c if all cultures negative
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Still working on better rate control, ranging from 90-120s
   currently.
   - will start Diltiazem 30mg q6hrs today for better rate control
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg IV daily & check am level
   - continue heparin gtt for anticoag goal PTT 60-80
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.  Diuresed well overnight, CXR
   shows [**Month (only) 38**] volume overload, improved costophrenic angles.
   - continue Captopril 6.25mg q6hr for afterload reduction
   - contracted on am labs, goal net even i/os
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UA +leuks & WBCs, no yeast.
   - Urine culture NGTD.  Will repeat UA & Culture today
   .
   # DM TYPEII: continue ISS with TF
   .
   # ANEMIA: etiology likely [**3-5**] chronic disease, s/p 1uPRBCs [**3-29**] and hct
   bumped appropriately, continue to monitor.
   .
   # Coagulopathy: Pt p/w supratherapeutic INR, corrected with Vit K.  INR
   still elevated at 1.5 likely due to poor nutrition
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition: Pulm Nutren 45 cc/hr
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status: Full code
   Disposition: ICU

2185-04-01 12:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2185-3-31**] 03:00 PM
   inserted in IR
 PRESEP CATHETER - STOP [**2185-3-31**] 08:15 PM
   temp to 100.9, was not cx'd
   History obtained from housestaff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-30**] 01:43 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-1**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.3
   HR: 104 (97 - 120) bpm
   BP: 106/65(80) {86/52(64) - 136/76(97)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 15 (12 - 16)mmHg
   Total In:
                                                                  1,848 mL
                                                                    852 mL
   PO:
   TF:
                                                                  1,090 mL
                                                                    532 mL
   IVF:
                                                                    518 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    190 mL
   Urine:
                                                                  1,865 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                    662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Set): 15
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.56/30/182/25/5
   Ve: 10.8 L/min
   PaO2 / FiO2: 364
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): intubated, unable [**Last Name (un) **] ssess, Movement:
   Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   498 K/uL
   145 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   29.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2185-3-29**]  11:50 PM
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
   WBC
   11.9
   13.0
   13.9
   Hct
   31.6
   33.0
   29.1
   Plt
   437
   487
   498
   Cr
   0.6
   0.8
   0.9
   TCO2
   28
   26
   29
   31
   28
   26
   28
   Glucose
   140
   128
   145
   Other labs: PT / PTT / INR:14.4/55.7/1.3, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: slightly improved vascular congestion and plerual effusions
   b/l, et appears sdlightly high, picc OK
   Microbiology: urine cx--ngtd
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Due to influenza, pleural
   effusions, weakness, CHF, and MRSA VAP
   Remains very poor extubation candidate given rsbi, extreme weakness,
   poor mental status/agitation and secretions, volume overload/CHF, and
   fatigue, now on day 10 of intubation though cxr appears somewhat
   imrpoved with small effusions b/l and reduced edema
      - will continue discussion with family regarding  tracheostomy as
   feel that pt will be prolonged vent wean if continued ongoing
   aggressive care is desired, will involve ethics c/s for assistance
       - Continue diuresis for effusions, CHF (goal 500 neg per
   day)--follow metabolic status, consider adding diamox if metabolic
   alkalosis/contraction worsens
        - Continue  ACV given fatigue--follow abg and adjust to address
   alkalosis
   FTW--suspect that poor nbutirion, deconditioning and waekness are
   likely cause for FTW, post-polio syndrome possibly with some underlying
   muscle weakness, no evidence to suggest diapragmatic elevation, would
   check NIF, concerned that new infaction is breving given tamp last
   night and increased WBC
   >  new leukocytosis and low grade temps--concerned for new infection,
   secretions from oral and suctioning, now just off of vanco
        would reculture blood urine and sputum and check head ct b/c of
   mainly oral sinusitis, highest concern is of sinuisitis verses new VAP
   though minimal et sx and no clear new infiltrate on CXR, has low grade
   temps and mild elevation in WBC ct
       check ct head for sinuisists and chest to further asses
       Zoysn and vanco , tracheal aspirate
   repeat urine cx negative for yeast and chest/sinuses are of highest
   concer at this time
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled with increased metoprolol dose/digoxin but still in low 100
   range
                   - Anticoagulated with hep ggt
                   - follow digoxin level
                     start low dose diltiazem
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza, post viral myocarditis.
          - Continue to monitor fluid balance, with goal -500/day (gentle
   lasix) as cr tolerates, has been negative and developing a metabolic
   alkalosis, would hold on additonal diuresis
           - cont low dose captopril at current dose for after load
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above
 ANEMIA, CHRONIC: Continues to drift down/chronic illness, blood
   draws.
   - Continue to monitor, minimize blood draws
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
        - completed 10 day vanco course, d/c'd today
 DIABETES MELLITUS (DM), TYPE II
   - ISS
 URINARY TRACT INFECTION (UTI): had yeast uti , d/c ampho bladder
   washes now s/p 3 days
   Repeat urine cx pending.  If still yeast positive and with new evidence
   of infection such as fever spike or hypotension, would give fluconazole
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
   - Continue ASA and Plavix, beta blocker and ace-i
   >Delirium:
   - Continue olanzapine, minimal versed/fentanyl requirements
   >chronic c diff:  po vanco with prolonged taper
continue 10 day course
   then d/c
   >HYPOTHYROID: Mild, and difficult to assess in setting of critical
   illness.
   - Continue synthroid at current dosing.
    > Other issues discussed with housestaff, with whose assessments and
   plans I agree with.
   Continue to address goals of care with patient
s family.  ethics
   involvement.  Continue to clarify code status with pts family as per
   discussion with Dr [**Last Name (STitle) 832**] last week apparently DNR though based on my
   conversations with pts wife at this time I was told that family still
   would want everything in setting of cardiac arrest.  I feel that in
   setting of cardiac arrest pt would have extremely grim prognosis and
   that CPR would not be medically indicated, though at this time he is
   stable from HD standpoint.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-1**] 06:14 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-04-02 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-4-1**] 01:23 PM
 URINE CULTURE - At [**2185-4-1**] 01:23 PM
   - family meeting- pt now DNR
   - Vanc/Zosyn started for low grade temp, inc WBC ct & concern for VAP
   - CT head ordered to eval for sinus infection given inc bloody
   secretions
   - maintained on AC overnight, ABG continues to show resp alkalosis
   - received Fentanyl and BP dropped slightly, responded approp to IV
   bolus
   Pt sedated, not responding to commands this am after receiving fentanyl
   bolus
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-1**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-2**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2185-4-2**] 05:11 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 94 (78 - 114) bpm
   BP: 96/55(69) {73/46(59) - 125/75(93)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,020 mL
                                                                  1,093 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    313 mL
   IVF:
                                                                    841 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    220 mL
   Urine:
                                                                    695 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,325 mL
                                                                    873 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.56/30/182/24/5
   NIF: -3 cmH2O
   Ve: 9.8 L/min
   PaO2 / FiO2: 364
   Physical Examination
   GEN: NAD, not responding to commands
   HEENT: intubated, crusted blood around ETT
   CV: irreg/irreg no m/r/g
   RESP: CTAB, [**Month (only) 38**] BS at bases, no w/r
   ABD: Soft/NT/ND/NABS
   EXTR: no c/c/e
   Labs / Radiology
   CXR [**2185-4-1**]:
   FINDINGS:  In comparison with the study of [**3-31**], there is little overal
   l
   change.  Bilateral pleural effusions and bibasilar retrocardiac atelect
   asis
   persist with mild vascular engorgement.
   Endotracheal tube remains in place.  The IJ catheter has been removed a
   nd
   replaced with a right subclavian line that extends to the lower portion
    of the
   SVC.
   435 K/uL
   8.7 g/dL
   128 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   25.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
   WBC
   11.9
   13.0
   13.9
   12.1
   Hct
   31.6
   33.0
   29.1
   25.8
   Plt
   437
   487
   498
   435
   Cr
   0.6
   0.8
   0.9
   0.9
   TCO2
   26
   29
   31
   28
   26
   28
   Glucose
   140
   128
   145
   128
   Other labs: PT / PTT / INR:14.0/61.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Microbiology:
   GRAM STAIN (Final [**2185-4-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
     2+   (1-5 per 1000X FIELD):  Gram Neg Rods
     1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   Repeat UA + 144 WBCs +Bacteria, no yeast
   Blood Cx NGTD
   Urine Cx NGTD
   Cath Tip Cultures NGTD
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  Pt was aggressively volume
   resussitated with a depressed EF and continues to have moderate
   bilateral pleural effusions. Pt with continued resp alkalosis and was
   maintained on AC overnight. Increased sedation this am to [**Month (only) 38**]
   overbreathing on vent. Pt not likely to tolerate extubation  (NIFF -1,
   last RSBI 115). Ongoing discussions with family regarding trach
   placement.
   - completed 10 day course of Vancomycin for MRSA PNA
   - concern for VAP given low grade temps & elev WBC, now day 2
   Vanc/Zosyn
   - appeared contracted on [**3-/2106**] & net positive overnight
   - BP dipped down after Fentanyl bolus, responded to 500cc bolus & stim
   - supportive care, planning for possible trach placement, consulted
   ethics
   .
   # ID: Low grade fevers & rising WBC count concerning for VAP in pt
   intubated for 10 days.
   - blood & urine Cx NGTD
   - trach sputum cultures + [**Last Name (LF) 1302**], [**First Name3 (LF) 178**] continue Vanc/Zosyn for now
   - hct trended down & increased bloody secretions, getting Head CT to
   r/o sinus infection
   - start empiric Abx with Vanc/Zosyn for coverage of VAP
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Still working on better rate control, ranging from 90-120s
   currently.
   - continue Metoprolol 100mg TID & Diltiazem 30mg q6hr
   - continue Digoxin 0.125mg IV daily & check am level
   - continue heparin gtt for anticoag goal PTT 60-80
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   - continue Captopril 6.25mg q6hr for afterload reduction
   - contracted on am labs, goal net even i/os
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley in
   place, empiric coverage with Vanc/Zosyn
   - Urine culture NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease, s/p 1uPRBCs [**3-29**] and hct
   bumped appropriately, continue to monitor.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition: Pulm Nutren 45 cc/hr
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:  DVT:  Heparin
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-2**] 12:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:  PPI
   VAP: Chlorhexidine, Vanc/zosyn
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-02 11:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-4-1**] 01:23 PM
 URINE CULTURE - At [**2185-4-1**] 01:23 PM
   NIF -1
   vanco and zosyn started for empiric coverage, ct head and chest ordered
   remains on ACV
   family mtg and code staus reclarified--DNR, continue to discuss trach
                                       History obtained from house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-2**] 08:00 AM
   Vancomycin - [**2185-4-2**] 09:40 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2185-4-2**] 05:11 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-2**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 79 (78 - 114) bpm
   BP: 81/45(57) {73/45(57) - 118/70(85)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,020 mL
                                                                  2,215 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    502 mL
   IVF:
                                                                    841 mL
                                                                  1,653 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    355 mL
   Urine:
                                                                    695 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,325 mL
                                                                  1,860 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.56/30/182
   NIF: -3 cmH2O
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   435 K/uL
   128 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   25.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2185-3-30**]  04:56 AM
                             [**2185-3-30**]  06:41 AM
                             [**2185-3-30**]  12:06 PM
                             [**2185-3-30**]  06:03 PM
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
   WBC
   11.9
   13.0
   13.9
   12.1
   Hct
   31.6
   33.0
   29.1
   25.8
   Plt
   437
   487
   498
   435
   Cr
   0.6
   0.8
   0.9
   0.9
   TCO2
   26
   29
   31
   28
   26
   28
   Glucose
   140
   128
   145
   128
   Other labs: PT / PTT / INR:14.0/84.0/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Imaging: ET and R picc ok, b/l effusions
   Microbiology: sputum cx pending, yeast, 2+ GNR
   u/a--no yeast, + wbc and bacteria, cx NGTD with 2nd pending
   blood cx's NGTD
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean
   Main ISSUES REMAIN:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean:
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness
post-polio syndrome/ICU myopathy seems
   main issue with wean, on treatment for hypothyroid (labs checked
   recently ands/o chronic illness picture)
   NIF checked and -1 suggesting significant weakness of respiratory
   muscles
          Remains very poor extubation candidate and now on day 11 of
   intubation
          Now with low grade temps and increasing WBC ct suggesting new
   infection
                   continue discussion with family regarding tracheostomy
   as feel that pt will be prolonged vent wean if continued
   aggressive/vent sup[port is goal of care
                   Continue  ACV  at this time, foolow gas--stable
   respiratory alkalsoisi
   >  new leukocytosis and low grade temps
af and wbc trending down after
   initiaon of emperic antibx, concerning  for new infection, no clear new
   infiltrate on cxr and minimal o2 needs and et secretion but now with
   increasing oral secretions continue verses fungal infection
                     just completed course of vanco for MRSA pna
     f/u repeat cx's,
   central line out and picc placed 2 days ago
   remains on c diff treatment
   continue empiric coverage with vanco ajnd zosyn (now with new GNR in
   sputum)
   check head ct for sinusitis and chest ct to r/o empyema /infiltrate
   masked by fluid
   empiric hospital acquired inf coverage with zosyn vanco tapering
   pending additional cx/imaging results
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled with increased metoprolol dose/digoxin but still tachy
                   - Anticoagulated with hep ggt --but given yh/h drop and
   ongoing bloody oral secretions will d/c
                   - follow digoxin level
                     start low dose diltiazem
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza and post viral myocarditis.
          - Continue to monitor fluid balance, hold on diuresis again and
   follow i/o
           - cont low dose captopril at current dose for after load
   reduction as bp tolerates
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above as bp tolerates
 ANEMIA, CHRONIC: Continues to drift down/chronic illness, blood draws
   on heparin--will d/c heparin given continued drop and bloody
   secretions,
      keep t and c, serial labs, if no reolsution after stopping hep--ent
   c/s
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
   - Continue ASA and Plavix, beta blocker and ace-i
   >Delirium:  mental status and agitation improved
   - Continue olanzapine
   >chronic c diff:  po vanco with prolonged taper
continue 10 day course
   then d/c
    > Other issues discussed with house staff, with whose assessments and
   plans I agree with.
   Continue to address goals of care with patient
s family along w/
   ethics involvement.  Family meeting for today
   ICU Care
   Nutrition:
   Comments: tf's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-04-03 07:04:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   -- CT scan of sinuses showed air fluid level possibly c/w siunsitis,
   ENT has not been called
   -- CT of chest showed possible RLL pneumonia w/ large b/l pleural
   effusions causing LLL lung collabse
   -- ABG unchanged
   -- Fungal labs sent
   -- family attempted to have sedated/intubated patient sign legal papers
   making son power of attorney.
   -- Foley changed
   -- Vanc level 37.7- dose held
   -- bradycardic to 40s
 dig held, metoprolol held, captopril given
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-3**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-3**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 80 (73 - 101) bpm
   BP: 116/61(81) {81/45(57) - 119/72(87)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  3,119 mL
                                                                    296 mL
   PO:
             TF:
                                                                  1,035 mL
                                                                    109 mL
   IVF:
                                                                  1,964 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    205 mL
   Urine:
                                                                    757 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,362 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 342 (342 - 342) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.48/34/95.[**Numeric Identifier 607**]/22/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: cachectic
   Cardiovascular: difficult to appreciate [**3-5**] coarse breath sounds on
   vent
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   342 K/uL
   8.2 g/dL
   126 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   37 mg/dL
   102 mEq/L
   135 mEq/L
   24.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
   WBC
   13.0
   13.9
   12.1
   11.1
   Hct
   33.0
   29.1
   25.8
   24.2
   24.2
   Plt
   487
   498
   435
   342
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   28
   26
   28
   27
   26
   Glucose
   128
   145
   128
   126
   Other labs: PT / PTT / INR:14.0/84.0/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA.  s/p aggressive volume resuscitation
   with depressed EF, pt continues to have moderate bilateral pleural
   effusions. Pt with ongoing resp alkalosis and was maintained on AC
   overnight. Increased sedation this am to [**Month (only) 38**] overbreathing vent. Pt not
   likely to tolerate extubation (NIFF -1, last RSBI 84). Ongoing
   discussions with family regarding trach placement.
   - completed 10 day course of Vancomycin for MRSA PNA
   - concern for VAP given low grade temps & elev WBC, now day [**4-8**]
   Vanc/Zosyn
   - supportive care, planning for possible trach placement, consulted
   ethics
   .
   # ID: Low grade fevers & rising WBC count concerning for VAP in pt
   intubated for 10 days.
   - blood & urine Cx NGTD
   - trach sputum cultures + Klebsiella, will continue Vanc/Zosyn
   - hct trended down & increased bloody secretions, concern for sinus
   infection
   - Head CT to r/o sinus infection- c/w sinusisitis v mastoiditis
   - will call ENT to see if sinus worth tapping, if not, can peel off
   vanc
   - Chest CT possible RLL PNA
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Now bradycardic, with SBPs<100.
   - continue Metoprolol 100mg TID; d/c Diltiazem
   - continue Digoxin 0.125mg IV daily
   - due to hct drop & ongoing bloody secretions from oropharynx, will d/c
   heparin today (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   - continue Captopril 6.25mg q6hr for afterload reduction
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Will
   change out foley today
   - Urine culture NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable overnight,
   recent downward trend likely due to loss from oropharynx vs volume
   expansion.
   -          pm HCT, transfuse for HCT <24
   -          stool guaiac negative
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Comments: Nutren Pulmonary Full 45ml/h
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-03 12:43:00 Physician Attending Progress Note
Chief Complaint: influenza pna, nstemi, chf, respiratory failure,
   failure to wean
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, now with new nosocomial
   infection, probable sinusitis and klebsiella pna
   24 Hour Events:
   ct sinuses and chest performed
   family escalation addressed in evening
   intermittent hypotension/brady--bp meds held
   heparin drip d/c'd
   History obtained from Family / Friend, house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-3**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-3**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   Unchanged from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-3**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (53 - 101) bpm
   BP: 93/44(61) {86/41(55) - 119/72(87)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 77%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  3,118 mL
                                                                    986 mL
   PO:
             TF:
                                                                  1,035 mL
                                                                    547 mL
   IVF:
                                                                  1,964 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    485 mL
   Urine:
                                                                    757 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,361 mL
                                                                    501 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 342 (342 - 342) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   SpO2: 77%
   ABG: 7.48/34/95.[**Numeric Identifier 607**]/22/2
   Ve: 8.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Waisted elderly male, resonds to voice, follows simple commands,
   Intubated and sedated
   Clear anteriorly with basilar rales
   Irreg s1 s2
   Soft nt abd with +BS
   Without le edema, picc site c/d/i
   Labs / Radiology
   8.2 g/dL
   342 K/uL
   126 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   37 mg/dL
   102 mEq/L
   135 mEq/L
   24.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2185-3-31**]  05:36 AM
                             [**2185-3-31**]  07:41 AM
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
   WBC
   13.0
   13.9
   12.1
   11.1
   Hct
   33.0
   29.1
   25.8
   24.2
   24.2
   Plt
   487
   498
   435
   342
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   28
   26
   28
   27
   26
   Glucose
   128
   145
   128
   126
   Other labs: PT / PTT / INR:14.0/84.0/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.9
   mg/dL
   Imaging: ? skin fold on right--repeating cxr, otherwise unchanged
   effusions and pulm edema
   Sinus ct --afl in sphenoid sinus and mastoid air [**Last Name (un) 1333**]
   ct chest--
   Probable right lower lobe pneumonia.
   2.  Bilateral pleural effusions, longstanding, with associated compress
   ive
   atelectasis.
   Microbiology: klebsiella pna in sputum
   Bl cx's pending, no new growth today
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, now with new nosocomial
   infection, probable sinusitis and klebsiella pna
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean:
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness  seems main issue with wean, on treatment
   for hypothyroid (labs checked recently ands/o chronic illness picture).
   NIF checked and -1 suggesting significant weakness of respiratory
   muscles likely from post-polio verses icu myopathy
                 Now with kleb VAP on zosyn
                  Concern for sinusitis on chest ct with afl-- ent c/s
   regarding utility for tap
                  Continuing vanco empirically until blood returns
   negative
                  Remains very poor extubation candidate and now on day 12
   of intubation
                   Continue discussion with family regarding tracheostomy
   as feel that pt will be prolonged vent wean if continued
   aggressive/vent sup[port is goal of care
                   Continue  ACV  at this time, follow gases--stable
   respiratory alkalosis
   >  leukocytosis and low grade temps
, now af and wbc trending down
   after initiation of empiric antibx
            Treat as above
          remains on c diff treatment while on antibx
 ANEMIA--Continues to drift down/chronic illness, blood draws on
   heparin
off heparin drip with stablizatio of hct.
      keep t and c, rebeat cbc today and transfuse if less than 24 given
   mild hypotension and continued slow drop
      bleeding from oral sx seems to have subsided
   >hypotension
likely from sedation and increased BP/HR meds, as now af
   and wbc trending down, monitor, continue dig and and metoprolol with
   hr/bp parameters, d/c diltiazem
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                  follow digoxin level
                   Resume meds metop as bp tolerates d/c dilt
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza and post viral myocarditis.
          - Continue to monitor fluid balance, hold on diuresis  given
   tenuous bp
           - cont low dose captopril at current dose for after load
   reduction as bp tolerates
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
   - Rate control as above as bp tolerates
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
   - Continue ASA and Plavix, beta blocker and ace-i
   >Delirium:  mental status and agitation improved
   - Continue olanzapine
   >chronic c diff:  po vanco with prolonged taper
continue 10 day course
   then d/c
   Other issues discussed with house staff, with whose assessments and
   plans I agree with.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-3**] 02:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-04 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bradycardic to 40s - dilt d/c'd, antiHTNsive held for SBP<100
   - vanc level 37.7 - dose held
   - held off on ENT consult re whether or not to tap sinus, will place
   this am
   - transfused 1u pRBC for HCT<24
   Pt intubated & sedated, grimaces during exam.
   -bloody secretions present in suction basin
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-4**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other medications:
   Flowsheet Data as of  [**2185-4-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 79 (53 - 100) bpm
   BP: 77/44(56) {77/41(55) - 134/70(94)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,192 mL
                                                                    504 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    317 mL
   IVF:
                                                                    595 mL
                                                                    186 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,060 mL
                                                                    145 mL
   Urine:
                                                                  1,060 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,132 mL
                                                                    359 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7.3 L/min
   Physical Examination
   GEN: intubated/sedated, grimacing to exam
   CV: irreg/irreg. no m/r/g
   RESP: CTAB, occais crackle at RLL, [**Month (only) 38**] BS at bases
   Abd: soft/NT/ND/NABS  g-tube site NTTP
   EXTR: no c/c/e
   Labs / Radiology
   [**2185-4-2**] CT head:
   IMPRESSION: Air fluid levels in the sphenoid sinus and in the mastoid a
   ir
   cells.  This could be consistent with sinusitis/mastoiditis.  Clinical
   correlation recommended.
   [**2185-4-2**] CT Chest
   IMPRESSION:
   1.  Probable right lower lobe pneumonia.
   2.  Bilateral pleural effusions, longstanding, with associated compress
   ive
   atelectasis.
   CXR [**2185-4-3**]
    A single portable image of the chest was obtained and compared to
   the prior examination earlier today, [**2185-4-3**] at 5:29 a.m.  The radiolu
   cencies
   along the lateral aspect of the right hemithorax are no longer seen and
    most
   likely represented bedding material.  The radiolucencies now project ov
   er the
   left hemithorax.  No pneumothorax is seen.  Persistent bilateral pleura
   l
   effusions are noted, left greater than right.  There is persistent pulm
   onary
   edema.  A left retrocardiac opacity is again noted, likely secondary to
   underlying atelectasis and the effusion, difficult to exclude pneumonia
   .  The
   supporting lines are stable.  There is persistent interstitial edema.
   The
   supporting lines are stable and in satisfactory positions.
   411 K/uL
   8.5 g/dL
   112 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   37 mg/dL
   103 mEq/L
   134 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
   WBC
   13.9
   12.1
   11.1
   10.0
   Hct
   29.1
   25.8
   24.2
   24.2
   23.5
   25.1
   Plt
   498
   435
   342
   411
   Cr
   0.9
   0.9
   0.8
   0.9
   TCO2
   26
   28
   27
   26
   Glucose
   145
   128
   126
   112
   Other labs: PT / PTT / INR:13.4/31.7/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.6
   mg/dL
   Sputum + Klebsiella sensitive to Zosyn
   Blood & Urine Cultures NGTD
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continued bilateral pulm effusions. Pt developped low
   grade temps s/p 10 days of  Vanc & sputum was +klebsiella.  Pt now day
   [**5-9**] Vanc/Zosyn for VAP. Pt not likely to tolerate extubation (NIFF -1,
   last RSBI 84). Ongoing discussions with family regarding trach
   placement.
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**5-9**] Zosyn for VAP (klebsiella [**Last Name (un) **] to zosyn)
   - supportive care, planning for possible trach placement, consulted
   ethics
   .
   # ID: Low grade fevers & rising WBC count likely c/w VAP in pt
   intubated for 12 days.
   - blood & urine Cx NGTD
   - trach sputum cultures + Klebsiella sensitive to Zosyn
   - hct trended down & increased bloody oropharyngeal secretions, will
   consult ENT today
   - Head CT c/w sinusisitis vs mastoiditis
   - Chest CT showed possible RLL PNA
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR stable today in 80s
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg IV daily
   - d/c plavix, continue low dose ASA 81mg (will touch base with outpt
   cardiologist tonight)
   - holding anticoagulation, hct drop with ongoing bloody secretions from
   oropharynx
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   - continue Captopril 6.25mg q6hr for afterload reduction
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease, blood loss from
   oropharynx?.  Transfused 1 upRBCs overnight & went from 23.5 to 25.
   Will recheck pm hct
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID today, will increase to treatment dose po
   Vancomycin 125mg q6hr while on Zosyn & resume taper post Abx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-3**] 11:08 PM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  PPI
   VAP:  Zosyn
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-04 12:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, NSTEMI, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, now with new nosocomial
   infection, probable sinusitis and klebsiella VAP
   24 Hour Events:
   brady to 40's HR-- diltiazem has been d/c'd
   transfused 1 unit prbc's without approp bump
   History obtained from Medical records, house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-4**] 12:09 PM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-4**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-4**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 80 (72 - 100) bpm
   BP: 121/64(85) {77/44(56) - 134/70(94)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,192 mL
                                                                    902 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    552 mL
   IVF:
                                                                    595 mL
                                                                    350 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,060 mL
                                                                    355 mL
   Urine:
                                                                  1,060 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,132 mL
                                                                    548 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 491 (491 - 491) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, waisted
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, waisted
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t) Paralyzed,
   Tone: weak
   Labs / Radiology
   8.5 g/dL
   411 K/uL
   112 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   37 mg/dL
   103 mEq/L
   134 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-3-31**]  04:54 PM
                             [**2185-4-1**]  04:24 AM
                             [**2185-4-1**]  07:40 AM
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
   WBC
   13.9
   12.1
   11.1
   10.0
   Hct
   29.1
   25.8
   24.2
   24.2
   23.5
   25.1
   Plt
   498
   435
   342
   411
   Cr
   0.9
   0.9
   0.8
   0.9
   TCO2
   26
   28
   27
   26
   Glucose
   145
   128
   126
   112
   Other labs: PT / PTT / INR:13.4/31.7/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: vanco level 32.6
   Imaging: cxr--b/l effusions and edema, unchanged,
         L basilar atelectasis
   Microbiology: blood pending ngtd
   urine ngtd
   sputum with klebsiella sensitive to zosyn
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, now with new nosocomial
   infection, sinusitis and klebsiella VAP
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean:
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness  seems main issue with wean, NIF checked
   and -1 suggesting significant weakness of respiratory muscles likely
   from post-polio verses icu myopathy
                  Now with kleb VAP on zosyn
                  Concern for sinusitis on chest ct with afl-- ent c/s
   regarding utility for tap of sinuses
                  Remains very poor extubation candidate and now on day 13
   of intubation
                  Dicussion ongoing with family regarding tracheostomy as
   feel that pt will be prolonged vent wean if continued aggressive/vent
   support is goal of care
                  Continue  ACV at this time, follow gases--stable
   respiratory alkalosis, somewhat improved
   >  leukocytosis and low grade temps
remains af and wbc trending down
   after initiation of empiric antibx
            Treat as above
            will d/c vanco given neg blood cx (picc) X 48 hrs, and
   continue zosyn
            remains on c diff treatment while on antibx
 hypotension
likely from sedation and increased BP/HR meds, + ongoing
   bleeding from oral secretions, as now af and wbc trending down low
   suspicion that there is new sepsis/infection as cause,
                   monitor h/h,
                 ent c/s regarding assessment of ongoing bleeding from
   upper airway/possible need for intervention
                 stop plavix today, off heparin drip
 ANEMIA
Hct continues to drift down without appropriate bump
   post-transfusion, possible dilution component,
                   off heparin  drip now
                   d/c plavix
              keep t and c, rebeat cbc today and transfuse if less than 24
   given mild hypotension and continued slow drop
               ent regarding bleeding from oral source
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
now bradycardic last night which is likely med
                  related
                  follow digoxin level
                  Resume meds metop as bp tolerates
                  d/c diltiazem
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza and post viral
          myocarditis.
          - Continue to monitor fluid balance, hold on diuresis, has
   stable pulm edema and effusions on chest but with stable
          oxygenation,
          - cont low dose captopril at current dose for after load
   reduction as bp tolerates
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
              Rate control as above as bp tolerates
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
               Continue ASA and ace-1 with bb as bp allows, d/c plavix
   given dropping hct
   >Delirium:  mental status and agitation improved
             - Continue olanzapine
   >chronic c diff:  po vanco with prolonged taper
will d/w ID
   Other issues discussed with house staff, with whose assessments and
   plans I agree with.
   Ethics and palliative care consults for ongoing family discussion
   regarding goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-4**] 09:34 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-05 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vanc level 32, d/c'd now that blood cultures NGTD
   - hct stable, no need for transfusion
   - ENT consult- likely oropharyngeal mucosal breakdown [**3-5**] ETT
   - family agreed for trach placement, consult surgery in am
   Pt doing okay, grimacing during exam, responds appropriately to
   questions and commands, denying any pain.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-4**] 10:00 PM
   Furosemide (Lasix) - [**2185-4-4**] 11:00 PM
   Other medications:
   ASA, Heparin, Olanzapine, Metoprolol, Digoxin, Docusate, Ca, Vit D,
   Alb/Atrovent, Levothyroxine, Simvastatin
   Flowsheet Data as of  [**2185-4-5**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 88 (69 - 101) bpm
   BP: 117/59(80) {78/41(54) - 147/79(104)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.7 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,907 mL
                                                                    514 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    266 mL
   IVF:
                                                                    594 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                  1,330 mL
   Urine:
                                                                    965 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    942 mL
                                                                   -816 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 491 (491 - 491) mL
   RR (Set): 15
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.52/31/106/25/3
   Ve: 6.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN: intubated, responding to commands
   HEENT: oropharynx with some dry crusted blood
   CV: irreg/irreg no m/r/g
   RESP: CTAB no w/r
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/e
   Labs / Radiology
   460 K/uL
   9.0 g/dL
   129 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   138 mEq/L
   27.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
   WBC
   12.1
   11.1
   10.0
   11.9
   Hct
   25.8
   24.2
   24.2
   23.5
   25.1
   26.6
   27.2
   Plt
   [**Telephone/Fax (3) 1351**]60
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   27
   26
   26
   Glucose
   128
   126
   112
   129
   Other labs: PT / PTT / INR:13.4/31.7/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR [**2185-4-4**]
   Portable AP chest dated [**2185-4-4**] is compared to the prior examination.
   The
   endotracheal tube terminates 3.5 cm above the carina, in satisfactory
   position.  The right subclavian central venous catheter terminates at
   the
   cavoatrial junction.  There is mild enlargement of the cardiac
   silhouette.
   Again noted are bilateral lung base airspace consolidations with
   moderate-
   sized pleural effusions, not significantly changed.  There is no
   pneumothorax.
   IMPRESSION:  Stable appearance of the chest showing bilateral lower
   lobe
   airspace consolidation with bilateral pleural effusion.
   Microbiology: Blood Cx NGTD
   Urine Cx NGTD
   Sputum + Klebsiella sensitive to Zosyn
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP, planning for possible trach placement.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Pt
   developped low grade temps s/p 10 days of  Vanc & sputum was
   +klebsiella.  Pt now day [**6-8**] Vanc/Zosyn for VAP. Pt not likely to
   tolerate extubation                    (NIFF-1, RSBI ranging from
   80-120) Family has agreed to trach placement, consulting surgery today.
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**6-8**] Zosyn for VAP (klebsiella [**Last Name (un) **] to zosyn)
   - ABG this am pH 7.52/31/106, continue to show resp alkalosis, unclear
   etiology for overbreathing vent
   - surgery consult for trach today
   #iD: Pt developped low grade temps, elevated WBC ct s/p 10 days of vanc
   for MRSA PNA. Chest CT showed possible RLL PNA, now day [**5-9**] of Zosyn
   for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by Zosyn
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR stable today in 80s
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct drop with ongoing bloody secretions from
   oropharynx
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   -continue Captopril 6.25mg q6hr for afterload reduction
   .
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin gtt for now
   - working towards trach and monitor for acute bleed
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable this am at 27
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on Zosyn & resume taper post Abx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-5**] 12:00 AM 44.[**Telephone/Fax (5) 1352**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:  Zosyn, chlorhexidine
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-05 10:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   vanco d/c'd
   plavix d/c'd
      ent c/s appreciated--abrasions near et, no active bleeding
   History obtained from Patient, house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-4**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-4-5**] 08:53 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-5**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 79 (69 - 101) bpm
   BP: 100/52(68) {78/41(54) - 147/79(104)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,906 mL
                                                                    840 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    452 mL
   IVF:
                                                                    594 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                  1,620 mL
   Urine:
                                                                    965 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    941 mL
                                                                   -780 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 491 (491 - 491) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.52/31/106/25/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant , Crackles : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, waisted
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): unable to assess, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   460 K/uL
   129 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   138 mEq/L
   27.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
   WBC
   12.1
   11.1
   10.0
   11.9
   Hct
   25.8
   24.2
   24.2
   23.5
   25.1
   26.6
   27.2
   Plt
   [**Telephone/Fax (3) 1351**]60
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   27
   26
   26
   Glucose
   128
   126
   112
   129
   Other labs: PT / PTT / INR:13.8/31.7/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Imaging: cxr--no new film today
   Microbiology: urine and blood NGTD
   sputum with klebsiella--esbl producing
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, now with new nosocomial
   infection, sinusitis and klebsiella VAP
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean:
   VAP/sinusitis
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness  seems main issue with wean, NIF checked
   and -1 suggesting significant weakness of respiratory muscles likely
   from post-polio syndrome, chronic diaphragmatic weakness verses icu
   myopathy
                  Now with kleb VAP on zosyn (esbl)--change to [**Last Name (un) 430**] day
   [**6-8**]
                  Remains very poor extubation candidate and now on day 14
   of intubation , recheck nif
                  After extensive discussions with family, decision made
   to pursue trach--c/s surgery for trach, as will be prolonged wean and
   may require chronic vent support
                  Continue  ACV at this time, follow gases--decrease tv to
   450 for omngoing rep alk
   >  leukocytosis and low grade temps
remains af and wbc trending down
   after initiation of empiric antibx
          change zosyn to [**Last Name (un) 430**] and complete 7 day course
           remains on c diff treatment while on antibx
   > oropharengeal bleeding--apprec ent assessment, hct stable, now off
   heparin and plavix, if rebleeds will pack site
 ANEMIA
above + chronic ds, heme +
              keep t and c and follow
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                  follow digoxin level
                 metop as bp tolerates
 HEART FAILURE (CHF), SYSTOLIC, ACUTE: New systolic failure,
   presumptively related to influenza and post viral
          myocarditis.
          - Continue to monitor fluid balance, hold on diuresis, has
   stable pulm edema and effusions on chest but with stable
          oxygenation,
          - cont low dose captopril at current dose for after load
   reduction as bp tolerates
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
        Rate control as above as bp tolerates
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
          Continue ASA and ace-1 with bb as bp allows
   > Delirium:  mental status and agitation improved
             - Continue olanzapine and minimze gtt sedation
   > chronic c diff:  continue treatment dose while on antibx then resume
   slow taper
   Other issues discussed with house staff, with whose assessments and
   plans I agree with.
   Ethics and palliative care consults for ongoing family discussion
   regarding goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-5**] 12:00 AM 44.[**Telephone/Fax (5) 1352**] mL/hour
   Comments: nutrition c/s to optimize
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-05 11:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Vanc was d/c'd now that Cx NGTD
   -hct stable, no  need for transfusion
   -ENT consult, likely oropharyngeal mucosal breakdn [**3-5**] ETT for 14 days
   -family agreed on trach placement, consulted surgery today
   Pt doing okay, grimacing during exam but responding appropriately to
   commands, answering questions & denying pain.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-2**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-4**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-4-5**] 08:53 AM
   Other medications:
   ASA, Heparin, Olanzapine, Metoprolol, Digoxin, Colace, Ca, Vit D,
   Alb/Atrovent, Levothyroxine, Simvastatin
   Flowsheet Data as of  [**2185-4-5**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 79 (69 - 101) bpm
   BP: 100/52(68) {78/41(54) - 147/79(104)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,906 mL
                                                                    880 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    480 mL
   IVF:
                                                                    594 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                  1,620 mL
   Urine:
                                                                    965 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    941 mL
                                                                   -740 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.52/31/106/25/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN: NAD, intubated, responding to commands
   HEENT: oropharynx with dry crusted blood
   CV: irreg/irreg no m/r/g
   RESP: CTAB no w/r
   ABD: soft/NT/ND/NABS, NTTP over g-tube
   EXTR: no c/c/e
   Labs / Radiology
   460 K/uL
   9.0 g/dL
   129 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   138 mEq/L
   27.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2185-4-2**]  04:28 AM
                             [**2185-4-2**]  04:55 AM
                             [**2185-4-2**]  03:50 PM
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
   WBC
   12.1
   11.1
   10.0
   11.9
   Hct
   25.8
   24.2
   24.2
   23.5
   25.1
   26.6
   27.2
   Plt
   [**Telephone/Fax (3) 1351**]60
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   27
   26
   26
   Glucose
   128
   126
   112
   129
   Other labs: PT / PTT / INR:13.8/31.7/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Blood Cx NGTD
   Urine CX NGTD
   Sputum + Klebsiella ESBL producing & [**Last Name (un) **] to Zosyn
   Assessment and Plan: 85 y/o man admitted with respiratory failure [**3-5**]
   to sepsis from MRSA PNA now with Klebsiella VAP, planning for possible
   trach placement.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Pt
   developped low grade temps s/p 10 days of  Vanc & sputum was
   +klebsiella.  Pt currently day [**6-8**] Zosyn for VAP, but Kleb is ESBL
   producing and will likely develop resistance to Zosyn.
    Pt currently day 14 of intubation, given NIFF of -1, RSBI ranging from
   80-120 & h/o post polio syndrome causing weakened resp muscles, pt not
   likely to tolerate extubation.  Family has now agreed to trach
   placement, consulting surgery today.
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**6-8**] ABx for VAP coverage, switching from Zosyn to Meropenem today
   due to ESBL producing Klebsiella
   - ABG this am pH 7.52/31/106, continues to show resp alkalosis, unclear
   etiology for overbreathing [**Last Name (LF) **], [**First Name3 (LF) 178**] [**Month (only) 38**] Tidal Volume today & recheck
   pm ABG
   - surgery consult for trach today
   #iD: Pt developped low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**6-8**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, will switch to Meropenem for last 2 days of Abx course.
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR stable today in 80-100s
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct drop with ongoing bloody secretions from
   oropharynx
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   -continue Captopril 6.25mg q6hr for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin gtt for now
   - working towards trach and monitor for acute bleed
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable this am at 27
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   - fentanyl prn pain/agitation
   ICU Care
   Nutrition: Nutren Pulm- f/u nutrition recs
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: heparin sc TID
   Stress ulcer:  no need while on TF
   VAP:  Meropenem
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-06 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- NPO for bedside/OR trach placement today
   -- family meeting w/ ethics, palliative care, team, case management:
   patient begininning screening process
   -- started on meropenem for resistent klebsiella pna
   Pt intubated, responding to commands, opening eyes & appears
   comfortable
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-6**] 02:30 AM day 2
   (ABx day [**7-9**])
   PO Vancomycin
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-5**] 02:10 PM
   Other medications:
   Captopril, Digoxin, Metoprolol, Olanzapine, Synthroid, ASA, Zocor,
   Tums, Vit D. Chlorhexidine, ISS, Fentanyl, Midazolam
   Flowsheet Data as of  [**2185-4-6**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 81 (64 - 90) bpm
   BP: 134/60(84) {92/45(61) - 183/85(121)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,152 mL
                                                                    207 mL
   PO:
             TF:
                                                                  1,123 mL
   IVF:
                                                                    609 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,214 mL
                                                                    232 mL
   Urine:
                                                                  2,214 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -62 mL
                                                                    -25 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.49/33/95.[**Numeric Identifier 607**]/25/2
   NIF: -9 cmH2O
   Ve: 8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: NAD, comfortable, opening eyes to commands
   CV: irreg/irreg no m/r/g
   RESP: upper airway congestion, otherwise CTAB, [**Month (only) 38**] BS at bases
   ABD: soft, NT/ND, G-tube NTTP, [**Month (only) 38**] BS
   EXTR: no c/c/e
   Labs / Radiology
   CXR from [**2185-4-6**]:
   FINDINGS:  In comparison with the study of [**4-4**], the tip of the ET tube
   lies
   only about 2 cm above the carina.  It could be pulled back about 2 cm.
   Little change in the diffuse bilateral pulmonary opacifications, consis
   tent
   with consolidation and bilateral pleural effusions.
   516 K/uL
   8.8 g/dL
   88 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   141 mEq/L
   26.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
   WBC
   11.1
   10.0
   11.9
   10.0
   Hct
   24.2
   23.5
   25.1
   26.6
   27.2
   26.6
   Plt
   342
   411
   460
   516
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   26
   26
   26
   26
   Glucose
   126
   112
   129
   88
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Microbiology: Sputum from [**3-/2106**] + Klebsiella ESBL producing.
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP day [**7-9**] ABx, NPO for trach placement today.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Pt currently day
   [**7-9**] Abx for Kleb VAP, Kleb is ESBL producing, on Meropenem now. Pt
   currently day 15 of intubation, repeat NIFF of -7, RSBI ranging from
   80-120 & h/o post polio syndrome causing weakened resp muscles, pt not
   likely to tolerate extubation.  NPO for trach placement today  (ETT low
   on CXR, plan for removal later today)
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**7-9**] ABx for VAP, switched to Meropenem due to ESBL producing
   Klebsiella
   - ABG continues to show resp alkalosis, will reassess ABG after trach
   placement & consider lower tidal volumes for resp alka.
   #iD: Pt developed low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**7-9**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, pt was switched to Meropenem for last 2 days of Abx
   course.
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR stable today in 80-100s
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable with [**Month (only) 38**] bloody secretions
   from oropharynx, will revisit anti-coagulatn after trach
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   -continue Captopril 6.25mg q6hr for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin gtt for now
   - NPO for trach placement today and monitor for acute bleed
   - perform better OG exam after ETT removed
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26.6
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   -fentanyl prn pain/agitation, may need to start po oxycodone s/p trach
   -will review films & MSK exam when pt more alert s/p trach
   ICU Care
   Nutrition:  NPO for trach today
   Glycemic Control:  ISS
   Lines: Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  getting TF, no need for PPI
   VAP:  chlorhexidine & Meropenem
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   MS Status: pt not responding to commands, won
t open eyes, still
   agitated. Pt c/o pain but won
t localize, getting shoulder films
   today.  Will continue restraints for now to prevent removal of trach.
   - continue Olanzapine [**Hospital1 **]
   - starting fentanyl patch 50mcg for c/o pain
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2185-4-7**] 20:41 ------

2185-04-06 12:51:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, w/ sinusitis and resolving
   klebsiella VAP
   24 Hour Events:
   surgical c/s for tracheostomy
   family meeting
   zosyn changed to [**Last Name (un) 430**] for esbl producing kleb
   History obtained from [**Hospital 85**] Medical records, hosue staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Meropenem - [**2185-4-6**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-5**] 02:10 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-6**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 66 (61 - 90) bpm
   BP: 115/48(69) {92/45(61) - 183/85(121)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,152 mL
                                                                    495 mL
   PO:
             TF:
                                                                  1,123 mL
   IVF:
                                                                    609 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  2,214 mL
                                                                    492 mL
   Urine:
                                                                  2,214 mL
                                                                    492 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -62 mL
                                                                      3 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.49/33/95.[**Numeric Identifier 607**]/25/2
   Ve: 7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   516 K/uL
   88 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   141 mEq/L
   26.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-4-2**]  04:17 PM
                             [**2185-4-3**]  03:50 AM
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
   WBC
   11.1
   10.0
   11.9
   10.0
   Hct
   24.2
   23.5
   25.1
   26.6
   27.2
   26.6
   Plt
   342
   411
   460
   516
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   26
   26
   26
   26
   Glucose
   126
   112
   129
   88
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Imaging: picc ok, et ok, rotated
   effusions b/l L slightly improved
   Microbiology: no new data
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, w/ sinusitis and resolving
   klebsiella VAP
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean,
   VAP/sinusitis
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness  seems main issue with wean, NIF checked
   and -1 suggesting significant weakness of respiratory muscles likely
   from post-polio syndrome, chronic diaphragmatic weakness verses icu
   myopathy
                  Kleb (esbl)  VAP on [**Last Name (un) 430**], day [**6-8**] antibx
                  Remains very poor extubation candidate and now on day 15
   of intubation
                  nif -7,
                  tracho per surgery planned for today, at bedside
                  Continue  ACV at this time, follow gases, consider
   weaning attempts post-trach though will be slow process
   > oropharengeal bleeding
abrasions,  hct stable off heparin and plavix
   > anemia--above + chronic ds, h/h now stable
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                 follow digoxin level
                 continue metop as bp tolerates
 HEART FAILURE (CHF)
       # SYSTOLIC, ACUTE: New systolic failure, presumptively [**3-5**]
   influenza and post viral myocarditis.
          - Continue to monitor fluid balance, hold on diuresis,
          - has pulm edema and effusions on cxr but with stable
   oxygenation,
          - cont low dose captopril for after load reduction
      # HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
        Rate control as above as bp tolerates
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis,
          Continue ASA and ace-1 with bb as bp allows
   > Delirium:  mental status and agitation improved
             - Continue olanzapine and minimze gtt sedation
   > chronic c diff:  continue treatment dose po vanco while on antibx,
   then resume slow taper
   > R shoulder dislocation--ortho assessment
   > R hand drop--OT c/s
   ICU Care
   Nutrition:  TFs on hold for trach today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill, ongoing discharge planning

2185-04-07 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2185-4-6**] 05:08 PM
   - plain films ordered for shoulder per old ortho rec's
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Meropenem - [**2185-4-7**] 02:21 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2185-4-7**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 81 (61 - 99) bpm
   BP: 122/57(78) {103/48(66) - 172/83(115)} mmHg
   RR: 15 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,140 mL
                                                                    570 mL
   PO:
             TF:
                                                                    119 mL
                                                                    348 mL
   IVF:
                                                                    740 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    125 mL
   Urine:
                                                                    757 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    445 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.45/32/110/23/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 275
   Physical Examination
   GEN: NAD, not responding to commands, not opening eyes
   HEENT: trach inplace, no active bleeding, C/D/I
   CV: irreg/irreg no m/r/g
   RESP: CTAB, coarse upper airway soungs, moving air well
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/E
   Labs / Radiology
   535 K/uL
   9.5 g/dL
   118 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   28.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
   WBC
   10.0
   11.9
   10.0
   10.5
   Hct
   23.5
   25.1
   26.6
   27.2
   26.6
   28.2
   Plt
   [**Telephone/Fax (3) 1397**]35
   Cr
   0.9
   0.9
   0.8
   0.7
   TCO2
   26
   26
   26
   23
   Glucose
   112
   129
   88
   118
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR [**2185-4-6**]:
   Little change in the diffuse bilateral pulmonary opacifications,
   consistent
   with consolidation and bilateral pleural effusions.
   Shoulder films ordered & pending
   Microbiology: No new culture data
   Assessment and Plan
    85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP currently day [**8-8**] ABx, s/p trach placement
   on [**2185-4-6**].
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Pt
   developped low grade temps s/p 10 days of  Vanc & sputum was
   +klebsiella.  Currently day [**8-8**] Abx coverage for Kleb VAP, Kleb was
   ESBL producing and pt was switched from Zosyn to Meropenem. Pt was
   intubated for 16 days & given NIFF of -1, RSBI ranging from 80-120 &
   h/o post polio syndrome causing weakened resp muscles, pt was trached
   on [**2185-4-6**]. ABG continue to show mild resp alkalosis, pt agitated &
   overbreathing still, will wean sedation slowly & starting fentanyl
   patch today.  Consider vent weaning in am.
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**8-8**] ABx for VAP coverage, switched from Zosyn to Meropenem today
   due to ESBL producing Klebsiella
   - will attempt gentle diuresis to [**Month (only) 38**] pleural effusions/component of
   pulm edema  (goal neg 500cc)
   #iD: Pt developped low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**8-8**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, was switched to Meropenem for last 2 days of Abx course.
   - d/c Abx after last dose today
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR has been stable today in 80-100s
   - continue Metoprolol 100mg TID, Digoxin 0.125mg & low dose ASA 81mg
   - continue holding anticoagulation, recent hct drop with ongoing bloody
   secretions from oropharynx
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo.
   -continue Captopril 6.25mg q6hr for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions due to ETT, now removed.
   -pt not compliant with oral exam, no current e/o bloody oropharyngeal
   secretions
   - monitor hct daily & avoid anticoagulation
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 27
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & will resume taper tommorow
   # Left shoulder dislocation: incidentally reported on prior films, will
   repeat plain films today
   - starting Fentanyl 50mcg patch today, attempt to wean IV fentanyl
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2185-4-6**] 09:37 PM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer:  PPI
   VAP:  Last day of Meropenem
   Code status: DNR (do not resuscitate)
   Disposition: working on placement

2185-04-07 12:37:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, w/ sinusitis and resolving
   klebsiella VAP,  POD 1  s/p trach
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2185-4-6**] 05:08 PM placed at bedside
   History obtained from house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-5**] 04:00 AM
   Meropenem - [**2185-4-7**] 10:34 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-7**] 08:54 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-7**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 74 (66 - 110) bpm
   BP: 121/52(74) {103/48(66) - 173/83(117)} mmHg
   RR: 20 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,140 mL
                                                                  1,131 mL
   PO:
             TF:
                                                                    119 mL
                                                                    613 mL
   IVF:
                                                                    741 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    235 mL
   Urine:
                                                                    757 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    896 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.45/32/110/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Thin, grimaces
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, trach
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): unable to coop,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   535 K/uL
   118 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   28.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-3**]  04:50 PM
                             [**2185-4-4**]  01:05 AM
                             [**2185-4-4**]  06:18 PM
                             [**2185-4-5**]  04:48 AM
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
   WBC
   10.0
   11.9
   10.0
   10.5
   Hct
   23.5
   25.1
   26.6
   27.2
   26.6
   28.2
   Plt
   [**Telephone/Fax (3) 1397**]35
   Cr
   0.9
   0.9
   0.8
   0.7
   TCO2
   26
   26
   26
   23
   Glucose
   112
   129
   88
   118
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: shoulder films ordered
   cxr--b/l effusions layering, mild pulm edema, trach and r picc in
   position
   Microbiology: no new data
   Assessment and Plan
   85 M with hypoxic respiratory failure due to influenza, VAP, CHF,
   agitation and delirium, failure to wean, w/ sinusitis and resolving
   klebsiella VAP,  POD 1 s/p trach
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean,
   VAP/sinusitis
   [**3-5**] combination of  pleural effusions, CHF, and probable VAP/infection,
   though significant  weakness  seems main issue with wean, NIF checked
   and -1 suggesting significant weakness of respiratory muscles likely
   from post-polio syndrome, chronic diaphragmatic weakness verses icu
   myopathy
                  Kleb (esbl)  VAP-- on [**Last Name (un) 430**] day [**7-9**]--af with nl wbc
                  S/p tracho
                  Continues resp alkalosis -> pain and agitation likely
   contrinbuting, better when on acv and has been worse when on wean,
   continue acv for now, address pain, transition to PS wean  and follow
   gases
                  # pleural effusions -- chronic b/l, optimizing heart
   failure meds, mobilizing fluids and continue diureses
   # pain control--start fent patch, wean fent  gtt over next 48 hrs, prn
   oxycodone
   > chronic c diff:  continue treatment dose po vanco while on antibx,
   then resume slow taper
   > R shoulder dislocation--ortho assessment, plain films ordered
   > R hand drop--OT c/s pending
   Other issues remain:
   > oropharengeal bleeding
[**3-5**] abrasions, hct stable off heparin and
   plavix
   > anemia--above + chronic ds, h/h has remained stable
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                 follow digoxin level
                 continue metop as bp tolerates
 HEART FAILURE (CHF)
       # SYSTOLIC, ACUTE: New, presumptively [**3-5**] influenza and post viral
   myocarditis.
          - resume gentle diuresis
          -  pulm edema and effusions on cxr but with stable oxygenation,
          - cont ace-I
      # HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
        Rate control as above as bp tolerates
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis
          Continue ASA and ace-1 with bb as bp allows
   > Delirium:  mental status and agitation improved, though waxing and
   [**Doctor Last Name 42**]
            - Continue olanzapine and minimze gtt sedation
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2185-4-6**] 09:37 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-04-08 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - s/p trach, some question about placement, but functionning
   appropriately
   - ABGs continue to show mild resp alkalosis
   - L shoulder films show DJD, not able to assess for dislocation
   - Started on morphine elixir for pain
   - agitated with labile blood pressures
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 01:48 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-7**] 11:08 PM
   Morphine Sulfate - [**2185-4-8**] 04:30 AM
   Fentanyl - [**2185-4-8**] 04:43 AM
   Midazolam (Versed) - [**2185-4-8**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.6
   HR: 103 (65 - 110) bpm
   BP: 140/75(100) {98/44(62) - 165/92(112)} mmHg
   RR: 25 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,227 mL
                                                                    607 mL
   PO:
             TF:
                                                                  1,120 mL
                                                                    210 mL
   IVF:
                                                                    742 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    270 mL
   Urine:
                                                                  1,450 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                    337 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 13
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.48/34/119/23/3
   Ve: 14.8 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No(t) No acute distress, Thin, agitated
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , Rhonchorous: min at right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Non
   -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   553 K/uL
   9.3 g/dL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   24 mg/dL
   108 mEq/L
   139 mEq/L
   28.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
   WBC
   10.0
   10.5
   8.5
   Hct
   26.6
   28.2
   28.3
   Plt
   [**Telephone/Fax (3) 1434**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   26
   26
   26
   23
   25
   26
   26
   Glucose
   88
   118
   117
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP day [**7-9**] ABx, NPO for trach placement today.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Pt currently day
   [**7-9**] Abx for Kleb VAP, Kleb is ESBL producing, on Meropenem now. Pt
   currently day 15 of intubation, repeat NIFF of -7, RSBI ranging from
   80-120 & h/o post polio syndrome causing weakened resp muscles, pt not
   likely to tolerate extubation.  NPO for trach placement today  (ETT low
   on CXR, plan for removal later today)
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**7-9**] ABx for VAP, switched to Meropenem due to ESBL producing
   Klebsiella
   - ABG continues to show resp alkalosis, will reassess ABG after trach
   placement & consider lower tidal volumes for resp alka.
   #iD: Pt developed low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**7-9**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, pt was switched to Meropenem for last 2 days of Abx
   course.
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
d. HR stable today in 80-100s
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable with [**Month (only) 38**] bloody secretions
   from oropharynx, will revisit anti-coagulatn after trach
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   -continue Captopril 6.25mg q6hr for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin gtt for now
   - NPO for trach placement today and monitor for acute bleed
   - perform better OG exam after ETT removed
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26.6
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.
   -fentanyl prn pain/agitation, may need to start po oxycodone s/p trach
   -will review films & MSK exam when pt more alert s/p trach
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to rehab / long term care facility

2185-04-08 09:58:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, chf, pna, failure to wean
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:   85 yo M with hypoxic respiratory failure due to influenza, VAP,
   CHF, agitation and delirium, failure to wean, w/ sinusitis and
   resolving klebsiella VAP,  POD 2 s/p trach
   24 Hour Events:
   low grade temp to 99 overnight
   palliative care c/s recs appreciated
        transitioning off fentanyl ggt to morphine via peg
   remains agitated with labile bps
   History obtained from house staff
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-7**] 11:08 PM
   Fentanyl - [**2185-4-8**] 04:43 AM
   Midazolam (Versed) - [**2185-4-8**] 04:44 AM
   Morphine Sulfate - [**2185-4-8**] 08:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-8**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 102 (65 - 112) bpm
   BP: 104/59(76) {67/40(50) - 165/92(149)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,227 mL
                                                                    797 mL
   PO:
             TF:
                                                                  1,120 mL
                                                                    210 mL
   IVF:
                                                                    742 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    270 mL
   Urine:
                                                                  1,450 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                    527 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 13
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: 7.48/34/119/23/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Thin, Anxious, agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube, trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin: warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Oriented
   (to): intubated, Movement: Non -purposeful, Sedated,
   Labs / Radiology
   9.3 g/dL
   553 K/uL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   24 mg/dL
   108 mEq/L
   139 mEq/L
   28.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2185-4-5**]  04:52 AM
                             [**2185-4-5**]  04:41 PM
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
   WBC
   10.0
   10.5
   8.5
   Hct
   26.6
   28.2
   28.3
   Plt
   [**Telephone/Fax (3) 1434**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   26
   26
   26
   23
   25
   26
   26
   Glucose
   88
   118
   117
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Fluid analysis / Other labs: alb 2.8
   no recent lft's
   Imaging: cxr:  trach in airway, r picc ok, stable b/l effusions and
   mild vascular congestion. very rotated
   Microbiology: no new data
   Assessment and Plan:  85 yo M prolonged course
 hypoxic respiratory
   failure due to influenza, VAP, CHF, agitation and delirium,, w/
   sinusitis and resolving klebsiella VAP, failure to wean POD 2 s/p
   tracheostomy placement
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean,
   resolving VAP
   #  FTW:  [**3-5**] combination of  pleural effusions, CHF, and probable
   VAP/infection, though significant  weakness  seems main issue with
   wean, NIF checked and -1 suggesting significant weakness of respiratory
   muscles likely from post-polio syndrome, chronic diaphragmatic weakness
   verses icu myopathy
        - S/p tracho
   # Kelb VAP
       - completing course of [**Last Name (un) 430**] day [**8-8**] for Kleb (esbl) - remains -af
   with nl wbc with no change in oxygenation or secretions
   #  resp alkalosis --> related to ongoing pain, agitation, weakness
   - attempt ps wean today, acv for rest
   # pleural effusions -- chronic b/l
     -   optimizing heart failure meds, mobilizing fluids and continue
   diureses
   > pain control--off fent drip
       -  titrate morphine via Peg, palliative care recs
   > Delirium:  mental status and agitation iremain [**Name (NI) 1442**], waxing
   and [**Doctor Last Name 42**]
            - Continue olanzapine and minimize gtt sedation, treat pain
   > chronic c diff:
      - continue treatment dose po vanco while on antibx,  then resume
   slow taper
   > R shoulder dislocation--plain films yesterday without evid of
   dislocation
      -    f/u down line once more stable from agitation and pain
   standpoint
   > R hand drop--OT c/s pending regarding splint
   Other issues remain:
   > anemia/oropharengeal bleeding
[**3-5**] abrasions, hct stable off heparin
   and plavix
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                 follow digoxin level
                 continue metoprolol
 HEART FAILURE (CHF)
       # SYSTOLIC, ACUTE: presumptively [**3-5**] influenza and post viral
   myocarditis.
          - resume gentle diuresis
          -  pulm edema and effusions on cxr but with stable oxygenation,
          - cont ace-I, dig
         -  consider repeat echo to assess for interval improvement
      # HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
        Rate control with dig, bb
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis
          - Continue ASA , ace-1, bb
   ICU Care
   Nutrition: tf
s via peg
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PP, given bleeding
   VAP: head of bed, chlorhex, asp precautions
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU, assessing for ventilator rehab placement
   Total time spent: 40

2185-04-09 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- patient unable to tolerate PS trial
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 08:15 AM
   Vancomycin - [**2185-4-9**] 01:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-9**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-9**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 75 (75 - 114) bpm
   BP: 134/98(58) {86/48(58) - 142/124(218)} mmHg
   RR: 35 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
                  Total In:
                                                                  1,047 mL
                                                                    155 mL
   PO:
                  TF:
                                                                    210 mL
   IVF:
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    165 mL
   Urine:
                                                                  1,065 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -18 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 616 (528 - 656) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/37/122/25/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Thin, Anxious, aggitated
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   8.7 g/dL
   109 mg/dL
   0.7 mg/dL
   25 mEq/L
   5.0 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   26.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2185-4-6**]  04:00 AM
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
   WBC
   10.0
   10.5
   8.5
   8.9
   Hct
   26.6
   28.2
   28.3
   26.8
   Plt
   [**Telephone/Fax (3) 1458**]60
   Cr
   0.8
   0.7
   0.7
   0.7
   TCO2
   26
   23
   25
   26
   26
   27
   Glucose
   88
   118
   117
   109
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA now with Klebsiella VAP day [**7-9**] ABx, NPO for trach placement today.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Pt currently day
   [**7-9**] Abx for Kleb VAP, Kleb is ESBL producing, on Meropenem now. Pt
   currently day 15 of intubation, repeat NIFF of -7, RSBI ranging from
   80-120 & h/o post polio syndrome causing weakened resp muscles, pt not
   likely to tolerate extubation.  s/p tracheostomy.
   - completed 10 day course of Vancomycin for MRSA PNA
   - day [**8-8**] ABx for VAP, switched to Meropenem due to ESBL producing
   Klebsiella
   - ABG continues to show resp alkalosis,  will attempt pressure support
   trial today
   #ID: Pt developed low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**7-9**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, pt was switched to Meropenem for last 2 days of Abx course.
   Meropenem now complete
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable
    (daily risk of CVA in pt with A. Fib very low)
   .
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   -continue Captopril 6.25mg q6hr for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin gtt for now
   - perform better OG exam after ETT removed
   .
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   .
   # DM TYPEII: continue ISS with TF
   .
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26.6
   -stools guaiac negative
   .
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Plan:
   C.diff
 Now that meropenem complete.  Will continue course of vanc for
   more 7 days then resume taper.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1286**], MD
   on:[**2185-4-9**] 23:42 ------

2185-04-09 12:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated since [**3-22**], tached x 3d
   24 Hour Events:
   PS trial yesterday - started to pull in Ve of 20L then became apneic -
   ? [**Last Name (un) 1464**] [**Doctor Last Name 1465**]
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 08:15 AM
   Vancomycin - [**2185-4-9**] 08:08 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-9**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-9**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 78 (65 - 114) bpm
   BP: 132/52(109) {91/51(58) - 142/124(218)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
                  Total In:
                                                                  1,047 mL
                                                                    250 mL
   PO:
                  TF:
                                                                    210 mL
   IVF:
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    350 mL
   Urine:
                                                                  1,065 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -18 mL
                                                                   -100 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 692 (528 - 692) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.43/41/129/25/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   460 K/uL
   109 mg/dL
   0.7 mg/dL
   25 mEq/L
   5.0 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   26.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2185-4-6**]  04:47 AM
                             [**2185-4-6**]  07:35 PM
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
   WBC
   10.5
   8.5
   8.9
   Hct
   28.2
   28.3
   26.8
   Plt
   535
   553
   460
   Cr
   0.7
   0.7
   0.7
   TCO2
   26
   23
   25
   26
   26
   27
   28
   Glucose
   118
   117
   109
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
   started on digoxin
 ANEMIA, CHRONIC
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETES MELLITUS (DM), TYPE II
 URINARY TRACT INFECTION (UTI)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Previous dx of diastolic failure
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -----------------------------------------------------------------------
   ---------------------------
   85 yo M prolonged course of hypoxic respiratory failure due to
   influenza, VAP, CHF, agitation and delirium,, w/ sinusitis and
   resolving klebsiella VAP, failure to wean POD 2 s/p tracheostomy
   placement
   Active issues remain:
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with failure to wean,
   resolving VAP
   #  FTW:  [**3-5**] combination of  pleural effusions, CHF, and probable
   VAP/infection, though significant  weakness  seems main issue with
   wean, NIF checked and -1 suggesting significant weakness of respiratory
   muscles possibly from post-polio syndrome, chronic diaphragmatic
   weakness and/or  icu myopathy
        - S/p tracho
   # Kleb VAP
       - completing course of [**Last Name (un) 430**] day [**8-8**] for Kleb (esbl) - remains -af
   with nl wbc with no change in oxygenation or secretions. S/p 10 day
   course of meropenem
   #  resp alkalosis --> related to ongoing pain, agitation, weakness
   - will attempt another ps wean today, acv for rest
   # pleural effusions -- chronic b/l
     -   optimizing heart failure meds, mobilizing fluids and continue
   diureses
   > pain control--off fent drip
       -  titrate morphine via Peg, palliative care recs
   > Delirium:  mental status and agitation iremain [**Name (NI) 1442**], waxing
   and [**Doctor Last Name 42**]
            - Continue olanzapine and minimize gtt sedation, treat pain
   > chronic c diff:
      - continue treatment dose po vanco while on antibx,  then resume
   slow taper. Will continue at full dose until [**4-18**] then taper down.
   > R shoulder dislocation--plain films yesterday without evid of
   dislocation
      -    f/u down line once more stable from agitation and pain
   standpoint
   > R hand drop--OT c/s pending regarding splint
   Other issues remain:
   > anemia/oropharengeal bleeding
[**3-5**] abrasions, hct stable off heparin
   and plavix
 ATRIAL FIBRILLATION (AFIB): blood pressures and rates better
   controlled
                 follow digoxin level
                 continue metoprolol
 HEART FAILURE (CHF)
       # SYSTOLIC, ACUTE: presumptively [**3-5**] influenza and post viral
   myocarditis.
          - resume gentle diuresis
          -  pulm edema and effusions on cxr but with stable oxygenation,
          - cont ace-I, dig
         -  consider repeat echo to assess for interval improvement
      # HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Previous dx of
   diastolic failure
        Rate control with dig, bb
 MYOCARDIAL INfARCTION, ACUTE (AMI, STEMI, NSTEMI): Likely demand
   ischemia in setting of sepsis
          - Continue ASA , ace-1, bb
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2185-3-22**] 02:10 PM
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2185-04-10 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-4-10**] 12:00 AM
   O/n events: pt did better on pressure support trial
   Pt grimaces to verbal stimuli, grimaces & wincing to exam, will open
   eyes but not following commands and will not localize pain
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   PO Vancomycin
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-10**] 03:35 AM
   Other medications:
   Digoxin, Metoprolol, Captopril, Colace, Bisacodyl, Senna,
   Levothyroxine, PO Vanc, Heparin, ASA, Statin
   Flowsheet Data as of  [**2185-4-10**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 75 (65 - 97) bpm
   BP: 140/48(101) {124/48(78) - 149/86(111)} mmHg
   RR: 24 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,691 mL
                                                                    425 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    299 mL
   IVF:
                                                                     59 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    310 mL
   Urine:
                                                                    880 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    115 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 555 (428 - 692) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.43/38/86.[**Numeric Identifier 96**]/27/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: grimacing througout exam & pulling at restraints
   HEENT: trach midline
   CV: irreg/irreg no m/r/g
   RESP: CTAB no w/r
   ABD: mildly distended but soft, NABS, ? TTP
   EXTR: no c/c/e
   Labs / Radiology
   419 K/uL
   8.6 g/dL
   82 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.9 mEq/L
   28 mg/dL
   107 mEq/L
   138 mEq/L
   26.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
   WBC
   10.5
   8.5
   8.9
   9.5
   Hct
   28.2
   28.3
   26.8
   26.0
   Plt
   535
   553
   460
   419
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   25
   26
   26
   27
   28
   26
   Glucose
   118
   117
   109
   82
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA PNA
   completed 10 days Vanc, then developed Klebsiella VAP, now s/p 7days of
   Zosyn/Meropenem.  Trach placed on [**2185-4-6**]
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Completed 7 days
   Abx for Kleb VAP. Pt was intubated for 16 days and was unable to wean.
   NIFF of -1 to -7, RSBIs ranging from 80-120 & h/o post polio syndrome
   causing weakened resp muscles. Now s/p tracheostomy on [**2185-4-6**]
   ABG improved, but breathing pattern suggestive of cheynes [**Doctor Last Name **],
   likely a central process
   - continue working on vent weaning with PS & back up MMV
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable
    (daily risk of CVA in pt with A. Fib very low)
   #Pain: Pt noted to be grimacing throughout exam and unable to localize
   pain.  Abd possibly more distended but no elev in WBC & afebrile.   Pt
   with low TF residuals and having regular BMs.  Pt has a h/o pseudogout
   and may be having joint pain
   - will get KUB to rule out obstruction, add on LFTs, amylase/lipase
   - start fentanyl patch for better sustained pain control & tylenol
   standing (unable to crush oxycontin for g-tube)
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   -switch from captopril to Lisinopril 10mg today
   # OROPHARYNGEAL BLEED: resolved. apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - continue holding systemic anticoagulation
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   .
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26
   -stools guaiac negative
   .
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine, fentanyl patch & tylenol for pain.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-9**] 04:05 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  none
   VAP:  chlorhexidine
   Code status: DNR (do not resuscitate)
   Disposition: pending placement

2185-04-10 13:15:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA completed 10 days Vanc, then developed Klebsiella VAP, now s/p
   course of Zosyn/Meropenem. Trach in place
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-4-10**] 12:00 AM
   History obtained from trached, not communicative
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 08:15 AM
   Vancomycin - [**2185-4-9**] 08:08 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-10**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-10**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 79 (67 - 97) bpm
   BP: 120/72(77) {120/48(77) - 166/86(111)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,691 mL
                                                                    817 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    570 mL
   IVF:
                                                                     59 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    540 mL
   Urine:
                                                                    880 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    277 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 509 (428 - 722) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.43/38/86.[**Numeric Identifier 96**]/27/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: cachectic
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   slightly more distended, with upper quadrant tenderness
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed, Opens eyes
   to stimulus
   Labs / Radiology
   8.6 g/dL
   419 K/uL
   82 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.9 mEq/L
   28 mg/dL
   107 mEq/L
   138 mEq/L
   26.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-4-7**]  04:13 AM
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
   WBC
   10.5
   8.5
   8.9
   9.5
   Hct
   28.2
   28.3
   26.8
   26.0
   Plt
   535
   553
   460
   419
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   25
   26
   26
   27
   28
   26
   Glucose
   118
   117
   109
   82
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:28/48, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %, Mono:3.9 %, Eos:0.1
   %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:163 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
   started on digoxin
 ANEMIA, CHRONIC
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETES MELLITUS (DM), TYPE II
 URINARY TRACT INFECTION (UTI)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Previous dx of diastolic failure
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA completed 10 days Vanc, then developed Klebsiella VAP, now s/p
   course of Zosyn/Meropenem.
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum + ESBL klebsiella, completed
   course of Abx.
   Pt was intubated for 16 days and was unable to wean with very poor NIF
   of -1 to -7, RSBIs ranging from 80-120 & h/o post polio syndrome
   causing weakened resp muscles. Now s/p tracheostomy on [**2183-4-6**].
   #ID: Pt developed low grade temps, elevated WBC count s/p 10 days of
   vanc for MRSA PNA. Chest CT showed possible RLL PNA, now day [**7-9**] of
   Zosyn for VAP, sputum Cx + for klebsiella [**Last Name (un) **] to Zosyn, but ESBL
   producing, pt was switched to Meropenem for last 2 days of Abx course.
   Meropenem now complete
   - blood & urine Cx NGTD
   - Head CT c/w sinusisitis vs mastoiditis, presumably covered by
   Meropenem
   - completed 10 day course of Vancomycin for MRSA PNA and 7 day course
   of Zosyn/Meropenem
   - continue working on vent weaning
   # Atrial Fibrillation with labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg TID.
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable. (daily risk of CVA in pt
   with A. Fib low)
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt.
   -continue Captopril for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin for now.
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPE II: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   # Abdominal distention with upper quadrant tenderness - check KUB today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-9**] 04:05 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments: Awaiting acceptance by LTC
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2185-04-11 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerating PS with back up MMV
   - waiting on placement & better pain control
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-8**] 08:15 AM
   Vancomycin - [**2185-4-11**] 01:51 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-11**] 05:39 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-11**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 90 (68 - 97) bpm
   BP: 164/71(90) {120/56(75) - 189/110(113)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,582 mL
                                                                    391 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    320 mL
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    320 mL
   Urine:
                                                                  1,015 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    567 mL
                                                                     72 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 561 (490 - 722) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 32
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 12.3 L/min
   Physical Examination
   GEN: grimacing throughout exam & pulling at restraints
   HEENT: trach midline
   CV: irreg/irreg no m/r/g
   RESP: CTAB no w/r
   ABD: soft/NTTP/NABS
   EXTR: no c/c/e
   Labs / Radiology
   508 K/uL
   9.3 g/dL
   115 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.4 mEq/L
   29 mg/dL
   103 mEq/L
   137 mEq/L
   28.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
   WBC
   8.5
   8.9
   9.5
   12.0
   Hct
   28.3
   26.8
   26.0
   28.8
   Plt
   553
   460
   419
   508
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   25
   26
   26
   27
   28
   26
   Glucose
   117
   109
   82
   115
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: KUB:
   There is a nonspecific bowel gas pattern.  There is has been resolution
   of the
   dilated loops of small bowel and gastric distension since the previous
   study.
   There is air seen within the colon.  There is scoliosis of the lumbar
   spine
   which may be positional.  Degenerative changes of the hip joints are
   seen.
   IMPRESSION:
   Nonspecific bowel gas pattern without definite evidence for bowel
   obstruction
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA PNA
   completed 10 days Vanc, then developed Klebsiella VAP, now s/p 7days of
   Zosyn/Meropenem.  Trach placed on [**2185-4-6**], working on vent weaning.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Completed 7 days
   Abx for Kleb VAP. Pt was intubated for 16 days and was unable to wean.
   Now s/p tracheostomy on [**2185-4-6**], all cell lines up today including WBC
   ct. However, pt has been afebrile, no new infiltrate on CXR.  This is
   unlikely a new infectious process, will continue to monitor.
   - repeat ABG today after being on PS of [**11-6**] overnight.
   - continue working on vent weaning with PS & back up MMV
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable
    (daily risk of CVA in pt with A. Fib very low)
   #Pain: Pt appears comfortable, but grimaces whenever examined or
   disturbed.  KUB showed non-specific bowel gas pattern, LFTs WNL &
   tolerating TFs with regular BMs
   - started fentanyl patch, with liquid morphine & tylenol standing
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   - continue Lisinopril 10mg daily
   # OROPHARYNGEAL BLEED: resolved. apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - continue holding systemic anticoagulation
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   .
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 28
   -stools guaiac negative
   .
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine, fentanyl patch & tylenol for pain.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-10**] 02:14 PM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: heparin sc TID
   Stress ulcer: PPI
   VAP:  chlorhexidine
   Code status: DNR (do not resuscitate)
   Disposition: pending placement
   ------ Protected Section ------
   Elevated K on am labs, repeat labs showed K of 4.8
   - continue to monitor daily labs, no intervention required.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2185-4-11**] 11:44 ------

2185-04-11 11:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-11**] 01:51 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-11**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-11**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 83 (68 - 97) bpm
   BP: 120/45(57) {120/45(57) - 189/110(113)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,582 mL
                                                                    610 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    499 mL
   IVF:
                                                                    240 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    320 mL
   Urine:
                                                                  1,015 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    567 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 369 (369 - 561) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: trached
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   508 K/uL
   115 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   29 mg/dL
   106 mEq/L
   138 mEq/L
   28.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2185-4-7**]  03:21 PM
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
   WBC
   8.5
   8.9
   9.5
   12.0
   Hct
   28.3
   26.8
   26.0
   28.8
   Plt
   553
   460
   419
   508
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   25
   26
   26
   27
   28
   26
   Glucose
   117
   109
   82
   115
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA
   Resp failure: trached, stable, will continue to wean
   ID: slight increase in his wbc. will watch for signs of infection. CXR
   unchanged with bilat effusions
   - completed 10 days Vanc
   - completed 7 day course of Zosyn/Meropenem for Klebsiella VAP
   - continue working on vent weaning
   # Atrial Fibrillation with labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg TID.
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable.
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt.
   -continue Captopril for afterload reduction
   # OROPHARYNGEAL BLEED: Apprec ENT consult, likely [**3-5**] skin
   breakdown/abrasions under ETT
   - reposition frequently, avoid heparin for now.
   # UTI: Urine cultures form [**3-27**] + for yeast, now completed 3 days of
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]
   - Urine cultures NGTD
   # DM TYPE II: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 26
   -stools guaiac negative
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.  Curbsided ID, plan to give treatment dose po Vancomycin 125mg
   q6hr while on broad spect Abx & resume taper post Rx.
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   # Abdominal distention with upper quadrant tenderness - check KUB today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-10**] 02:14 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2185-04-12 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Patient son concerned about mental status, NCHCT normal, normal
   Vitb12
   Pt continues to be agitated with any movement/touching, appears to be
   mouthing, possibly trying to speak.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-12**] 02:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-11**] 04:00 PM
   Morphine Sulfate - [**2185-4-12**] 04:05 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-12**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 109 (-88 - 119) bpm
   BP: 164/73(96) {108/45(57) - 209/140(144)} mmHg
   RR: 24 (13 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
                  Total In:
                                                                  1,556 mL
                                                                    329 mL
   PO:
                  TF:
                                                                  1,031 mL
                                                                    329 mL
   IVF:
                                                                    225 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    240 mL
   Urine:
                                                                    880 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                     89 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 447 (285 - 521) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 14.9 L/min
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: trach midline
   Cardiovascular: irreg/irreg no m/r/g
   Respiratory / Chest: tachypneic during movement, course BS at RLL base,
   appears to be moving air well
   Abdominal: Soft, Bowel sounds present, ND
   Extremities:, thin, wasted, no c/c/e, skin ulcers over left foot
   Musculoskeletal: Muscle wasting
   Labs / Radiology
   606 K/uL
   9.5 g/dL
   150 mg/dL
   0.7 mg/dL
   23 mEq/L
   5.8 mEq/L
   35 mg/dL
   103 mEq/L
   135 mEq/L
   28.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-4-7**]  10:54 PM
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
   WBC
   8.5
   8.9
   9.5
   12.0
   13.0
   Hct
   28.3
   26.8
   26.0
   28.8
   28.4
   Plt
   553
   460
   419
   508
   606
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   26
   26
   27
   28
   26
   Glucose
   117
   109
   82
   115
   150
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Repeat Chem 7
   Imaging: CT head:
   Evaluation is limited secondary to patient motion.  Allowing for
   these limitations, there is no evidence for intracranial hemorrhage or
   mass
   effect.  The ventricles, cisterns, and sulci are prominent secondary to
   involutional changes.  Periventricular white matter hypodensities are
   the
   sequela of chronic small vessel infarction and area of encephalomalacia
   in the
   left occipital lobe indicates prior infarction.  There is dense
   atherosclerotic disease of the cavernous carotid arteries.  The
   visualized
   paranasal sinuses are clear.  There is partial opacification of the
   mastoid
   air cells.
   IMPRESSION:  limited, and no evidence for intracranial hemorrhage.  MR
   is more sensitive for the evaluation of acute brain ischemia.
   CXR [**4-11**]:
   REASON FOR EXAMINATION:  Followup of a patient with respiratory failure
   and
   tracheostomy.
   Portable AP chest radiograph compared to [**2185-4-8**] obtained at
   05:28.
   The tracheostomy is at the midline with its tip projecting 7.4 cm above
   the
   carina.  The heart size is mildly enlarged and stable.  There is no
   interval
   change in bibasilar atelectasis and bilateral large layering pleural
   effusions, left more than right.  Underlying mild-to-moderate pulmonary
   edema
   is unchanged.
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA PNA
   completed 10 days Vanc, then developed Klebsiella VAP, now s/p 7days of
   Zosyn/Meropenem.  Trach placed on [**2185-4-6**], low grade temp o/n.
   .
   # RESPIRATORY FAILURE: Etiology multifactorial, pt was admitted with
   Influenza c/b secondary MRSA PNA. Aggressively volume resussitated with
   depressed EF & continues to have bilateral pulm effusions. Then
   developped low grade temps with Sputum +klebsiella.  Completed 7 days
   Abx for Kleb VAP. Pt was intubated for 16 days and was unable to wean.
   Now s/p tracheostomy on [**2185-4-6**], WBC ct has been slowly rising & pt had
   low grade temp o/n.
   - repeat ABG today after being on PS with MMV of [**11-6**] overnight
   - send blood/urine & sputum cultures today, concern for new VAP
   - f/u CXR from this am
   - hold off on vent weaning, rest on AC given agitation & tachypnea
   - lasix 40mg now in effort to [**Month (only) 38**] effusions/edema (goal neg 1L today)
   - family mtg today
   .
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation, hct now stable
    (daily risk of CVA in pt with A. Fib very low)
   #Pain: Pt appearing very agitated and uncomfortable when
   moved/touched.  KUB showed non-specific bowel gas pattern, LFTs WNL &
   tolerating TFs with regular BMs.  Concern for new infection given WBC
   ct & low grade Temp.
   - f/u cultures, ABG & CXR
   - continue morphine & tylenol standing
   - family mtg today regarding goals of care
   # Hyperkalemia: etiology unclear, pt with normal renal function.  This
   may be due to increased ACE-I vs new RTA, will get an EKG now & follow
   up repeat pm lytes.
   - f/u EKG
   - urine lytes with pH & osms
   - d/c Lisinopril, add nitrate if necessary for BP control
   - lasix 40mg IV now
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - lasix 40mg IV now for goal neg 1L  today
   # DM TYPEII: continue ISS with TF
   # ANEMIA: etiology likely [**3-5**] chronic disease. Hct stable at 28
   -stools guaiac negative
   .
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   .
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine & tylenol for pain.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-11**] 12:23 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Mental status: unclear why pt continues to be very agitated and not
   responding to commands,  Non con head CT WNL, VIT B12 normal.  Folate,
   RPR pending.  MS could be clouded by new infectious process vs
   polypharmacy.
   - Family meeting today
   - continue olanzapine [**Hospital1 **]
   - continue morphine prn pain
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2185-4-12**] 15:37 ------

2185-04-12 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mental status not improving.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-12**] 02:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-11**] 04:00 PM
   Morphine Sulfate - [**2185-4-12**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-12**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 116 (-88 - 119) bpm
   BP: 171/99(114) {108/53(65) - 209/140(144)} mmHg
   RR: 34 (14 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
                  Total In:
                                                                  1,556 mL
                                                                    474 mL
   PO:
                  TF:
                                                                  1,031 mL
                                                                    474 mL
   IVF:
                                                                    225 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    360 mL
   Urine:
                                                                    880 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                    114 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 447 (285 - 521) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///22/
   Ve: 14 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: S1 S2 irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant), course sounds at bases
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   606 K/uL
   171 mg/dL
   0.8 mg/dL
   22 mEq/L
   5.7 mEq/L
   36 mg/dL
   105 mEq/L
   137 mEq/L
   28.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2185-4-8**]  04:31 AM
                             [**2185-4-8**]  06:41 AM
                             [**2185-4-8**]  05:48 PM
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
   WBC
   8.5
   8.9
   9.5
   12.0
   13.0
   Hct
   28.3
   26.8
   26.0
   28.8
   28.4
   Plt
   553
   460
   419
   508
   606
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.8
   TCO2
   26
   27
   28
   26
   Glucose
   117
   109
   82
   115
   150
   171
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR [**4-11**] - no new infiltrate
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA
   1. Resp failure: trached, stable but vent dependent, will continue to
   wean. Bilat effusions, question of etiology, likely CHF. [**Month (only) 60**] benefit
   from thoracentesis or more aggressive diuresis.
   2. ID: slight increase in his wbc, may be recurrent VAP. CXR unchanged
   with bilat effusions.
   - completed 10 days Vanc, completed 7 day course of Zosyn/Meropenem for
   Klebsiella VAP
   3. Atrial Fibrillation with labile BP: better controlled on Digoxin &
   Metoprolol 100mg TID. Hypertension will likely respond to diuresis
   - continue Metoprolol 100mg TID, Digoxin 0.125mg & low dose ASA 81mg
   - hold anticoagulation, hct now stable.
   4. CHF:  Pt with h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on admission, possible related to viral myocarditis vs sepsis
   induced CMP.  Will need follow up echo as outpt.
   - d/c ACE d/t hyperkalemia
   5. Previous UTI: urine cultures form [**3-27**] + for yeast, tx with
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]. Urine cultures NGTD
   6. DM Type 2: continue ISS with TF
   7. Anemia: etiology likely from chronic disease.
   8. Cdiff: pt with h/o relapsing/recurrent c.diff now on PO vanco slow
   taper.
   9. Left shoulder dislocation: incidentally found on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   10. Hyperkalemia - ACE d/c'd. To be diuresed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-11**] 12:23 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-04-13 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-4-12**] 04:47 PM
 URINE CULTURE - At [**2185-4-12**] 04:47 PM
   - EKG showed no peaked T waves, Hyperkalemia resolved spontaneously
   - family meeting never happened, family did not show, did not know
   there was a meeting
   - lasix 40mg IV x1
   - AceI d/c'd
   Pt still grimacing & appears agitated with any disturbance, was opening
   his eyes on team rounds
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   PO Vancomycin - [**2185-4-13**] 02:22 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-13**] 12:30 AM
   Morphine Sulfate - [**2185-4-13**] 04:50 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 96 (60 - 116) bpm
   BP: 95/45(56) {94/43(56) - 180/115(114)} mmHg
   RR: 17 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,098 mL
                                                                    347 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    320 mL
   IVF:
                                                                     17 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    300 mL
   Urine:
                                                                  1,285 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                     47 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 484 (484 - 484) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.48/35/68/26/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 136
   Physical Examination
   GEN: grimacing, mouthing
   HEENT: trach in place
   CV: irreg/irreg no m/r/g
   RESP: rhoncherous BS over RLL base, otherwise clear, no w/r, still
   tachypneic
   ABD: soft, NT/ND, NABS
   Extr: wasted, no c/c/e
   Labs / Radiology
   420 K/uL
   7.7 g/dL
   127 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   43 mg/dL
   103 mEq/L
   135 mEq/L
   22.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
   WBC
   8.9
   9.5
   12.0
   13.0
   9.9
   Hct
   26.8
   26.0
   28.8
   28.4
   22.9
   Plt
   460
   419
   508
   606
   420
   Cr
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.7
   TCO2
   28
   26
   27
   Glucose
   109
   82
   115
   150
   171
   104
   127
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Urine anion gap is +24
   not helpful?
   Imaging: CXR [**4-12**]
   PORTABLE AP CHEST:  The tracheostomy is at the midline with tip
   projecting
   approximately 7.2 cm above the carina.  The heart is mildly enlarged
   and
   stable.  Since yesterday's examination, there is no interval change in
   the
   bibasilar atelectasis and bilateral large layering pleural effusions.
   The
   left-sided effusion is larger than the right.  There is also mild- to-
   moderate pulmonary edema which is unchanged since yesterday's
   examination.
   IMPRESSION:  No significant interval change.  Comparison between
   yesterday's
   and today's diffuse edematous pattern does not show new evidence of
   pneumonia.
   Microbiology: Blood Cx pending
   UA + WBC, no bac, pH 5
   Urine Cx pending
   Sputum Cx:
   GRAM STAIN (Final [**2185-4-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Pending):
      LEGIONELLA CULTURE (Pending):
      FUNGAL CULTURE (Pending):
      ACID FAST SMEAR (Pending):
      ACID FAST CULTURE (Pending):
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA then
   c/b Klebsiella VAP, now s/p Trach on [**2185-4-6**].
   .
   # RESPIRATORY FAILURE: Pt continues to have bilateral pulm effusions &
   weak resp muscles from post polio syndrome.  Unable to tolerated PS for
   long periods of time, currently resting on AC.  Pt had a low grade temp
   on [**4-12**] and rising WBC ct, pan cultures are NGTD and WBC ct trending
   down today.  Maintaining sats well on AC.
   - f/u blood/urine & sputum cultures
   - hold off on vent weaning, rest on AC given agitation & tachypnea
   - lasix 40mg now in effort to [**Month (only) 38**] effusions/edema (goal neg 1L today)
   # HCT DROP: Pt with underlying anemia of chronic disease. Hct has been
   stable at 28 and dropped to 22.9 this am.  Etiology unclear, will
   recheck hct and transfuse if remains at 23.
   - guaic all stools
   - start PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation (daily risk of CVA in pt with A. Fib very
   low)
   #Pain/MS: Pt appears agitated and uncomfortable when moved/touched.
   KUB showed non-specific bowel gas pattern, LFTs WNL & tolerating TFs
   with regular BMs.  Non-contrast head CT showed e/o small vessel
   ischemic dz, no acute intracran pathology, EEG pending, Vit B12 WNL.
   Initial concern for new infection given low grade Temp but WBC ct
   trending down
   - f/u cultures, sputum
   - continue Olanzapine, f/u Pain & palliative care recs
   - f/u EEG report
   - continue morphine & tylenol standing
   # Hyperkalemia: resolved, etiology unclear but resolved this am after
   stopping ACE
   - ph 5 and anion gap +24 (no e/o bicarb wasting)
   - add nitrate if necessary for BP control
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - continue lasix 40mg IV for goal neg 1L  today
   # DM TYPEII: continue ISS with TF
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine & tylenol for pain.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-12**] 11:40 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-13 12:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-13**] 08:00 AM
   Morphine Sulfate - [**2185-4-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-13**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 83 (60 - 116) bpm
   BP: 121/65(77) {94/43(56) - 180/115(106)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,098 mL
                                                                    577 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    445 mL
   IVF:
                                                                     17 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    425 mL
   Urine:
                                                                  1,285 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                    152 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 484 (484 - 484) mL
   RR (Set): 16
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.48/35/68/26/2
   Ve: 13.5 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: cachectic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   420 K/uL
   127 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   43 mg/dL
   103 mEq/L
   135 mEq/L
   22.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2185-4-9**]  04:10 AM
                             [**2185-4-9**]  08:21 AM
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
   WBC
   8.9
   9.5
   12.0
   13.0
   9.9
   Hct
   26.8
   26.0
   28.8
   28.4
   22.9
   Plt
   460
   419
   508
   606
   420
   Cr
   0.7
   0.7
   0.6
   0.7
   0.8
   0.7
   0.7
   TCO2
   28
   26
   27
   Glucose
   109
   82
   115
   150
   171
   104
   127
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Hct decreased from 28.4 to 22.9
   Imaging: CXR [**4-12**] no focal pna
   Microbiology: Urine cx pending
   Sputum 2+ budding yeast
   Assessment and Plan
   85 y/o man admitted with respiratory failure [**3-5**] to sepsis from MRSA
   PNA
   1. Resp failure: trached, stable but vent dependent, will continue to
   diurese for bilat effusions, etiology likely CHF. [**Month (only) 60**] benefit from
   thoracentesis.
   2. ID: wbc is decreased today. [**Month (only) 60**] have been recurrent VAP - not on
   Abx. CXR unchanged with bilat effusions.
   - completed 10 days Vanc, completed 7 day course of Zosyn/Meropenem for
   Klebsiella VAP
   3. Atrial Fibrillation with labile BP: better controlled on Digoxin &
   Metoprolol 100mg TID. Hypertension will likely respond to diuresis
   - continue Metoprolol 100mg TID, Digoxin 0.125mg & low dose ASA 81mg
   - hold anticoagulation, hct now stable.
   4. CHF:  Pt with h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on admission, probable viral induced CMP. Will need follow up
   echo as outpt.
   - d/c ACE d/t hyperkalemia
   5. Previous UTI: urine cultures form [**3-27**] + for yeast, tx with
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]. Urine cultures NGTD
   6. DM Type 2: continue ISS with TF
   7. Anemia: impressive decrease in hct despite being negative vol
   balance, question of active bleed. Recheck and follow.
   8. Cdiff: pt with h/o relapsing/recurrent c.diff now on PO vanco slow
   taper.
   9. Left shoulder dislocation: incidentally found on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   10. Hyperkalemia - resolved, ACE was d/c'd yesterday.
   11. Mental status - improving, appears to be more responsive today. EEG
   pending
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-04-14 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-4-14**] 12:00 AM
   to confirm previous +cultures from PICC.  1set from PICC, 1set from
   venipuncture
 SPUTUM CULTURE - At [**2185-4-14**] 12:10 AM
   - had EEG performed, report pending
   - blood cultures positive, 2 bottles with gpcs in pair & chains, also +
   yeast
   - cultures repeated, started on Vancomycin
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-14**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-13**] 08:00 AM
   Morphine Sulfate - [**2185-4-14**] 12:00 AM
   Furosemide (Lasix) - [**2185-4-14**] 02:44 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-14**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 75 (75 - 107) bpm
   BP: 126/71(82) {95/45(56) - 190/110(125)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,415 mL
                                                                    560 mL
   PO:
             TF:
                                                                    992 mL
                                                                    254 mL
   IVF:
                                                                    207 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,035 mL
   Urine:
                                                                  1,660 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                   -475 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 398 (398 - 398) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.8 L/min
   Physical Examination
   Labs / Radiology
   479 K/uL
   8.1 g/dL
   127 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   43 mg/dL
   103 mEq/L
   135 mEq/L
   27.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-4-9**]  05:30 PM
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
   WBC
   9.5
   12.0
   13.0
   9.9
   10.0
   Hct
   26.0
   28.8
   28.4
   22.9
   24.8
   27.4
   Plt
   [**Telephone/Fax (3) 1560**]20
   479
   Cr
   0.7
   0.6
   0.7
   0.8
   0.7
   0.7
   TCO2
   26
   27
   Glucose
   82
   115
   150
   171
   104
   127
   Other labs: PT / PTT / INR:13.2/30.1/1.1, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: RPR NR
   Microbiology: [**4-12**]: [**2185-4-12**] 3:59 pm BLOOD CULTURE      Source:
   Line-picc.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS.  BUDDING YEAST.
      Aerobic Bottle Gram Stain (Final [**2185-4-13**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      Anaerobic Bottle Gram Stain (Final [**2185-4-13**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
         BUDDING YEAST.
   [**2185-4-12**] 12:50 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2185-4-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2185-4-13**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   [**2185-4-14**] 12:43 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2185-4-14**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Pending):
      FUNGAL CULTURE (Pending):
   [**2185-4-12**] 12:50 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2185-4-13**]**
      URINE CULTURE (Final [**2185-4-13**]):
         YEAST.    10,000-100,000 ORGANISMS/ML
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA then
   c/b Klebsiella VAP, now s/p Trach on [**2185-4-6**].
   .
   # RESPIRATORY FAILURE: Pt continues to have bilateral pulm effusions &
   weak resp muscles from post polio syndrome.  Unable to tolerated PS for
   long periods of time, currently resting on AC.  Pt had a low grade temp
   on [**4-12**] and rising WBC ct, pan cultures are NGTD and WBC ct trending
   down today.  Maintaining sats well on AC.
   - f/u blood/urine & sputum cultures
   - hold off on vent weaning, rest on AC given agitation & tachypnea
   - lasix 40mg now in effort to [**Month (only) 38**] effusions/edema (goal neg 1L today)
   #Fungemia/bacteremia:  Blood cultures now growing out GPC and yeast.
   Yeast also seen in urine and sputum.  Pt has been afebrile and only
   minimal increase in WBC.  [**Month (only) 60**] be contributing to unimproved MS.
   [**Name14 (STitle) 1587**] vanc and will add caspofungin
   --optho c/s
   --fungal blood cx
   # HCT DROP: Pt with underlying anemia of chronic disease. Hct has been
   stable at 28 and dropped to 22, now back to 29.  [**Month (only) 60**] have been
   spurious.  Etiology unclear, will recheck hct and transfuse if remains
   at 23.
   - guaic all stools
   - start PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation (daily risk of CVA in pt with A. Fib very
   low)
   - will check dig level
   #Pain/MS: Pt appears agitated and uncomfortable when moved/touched.
   KUB showed non-specific bowel gas pattern, LFTs WNL & tolerating TFs
   with regular BMs.  Non-contrast head CT showed e/o small vessel
   ischemic dz, no acute intracran pathology, EEG pending, Vit B12 WNL.
   Initial concern for new infection given low grade Temp but WBC ct
   trending down
   - f/u cultures, sputum
   - continue Olanzapine, f/u Pain & palliative care recs
   - f/u EEG report
   - continue morphine & tylenol standing
   - repleated thiamine, will check ammonia
   # Hyperkalemia: resolved, etiology unclear but resolved this am after
   stopping ACE
   - ph 5 and anion gap +24 (no e/o bicarb wasting)
   - add nitrate if necessary for BP control
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - continue lasix 40mg IV for goal neg 1L  today
   # DM TYPEII: continue ISS with TF
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine & tylenol for pain.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-13**] 01:36 PM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:  chlorhex
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-14 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   growing GPC in [**3-7**] aero+anaerobic cultures from PICC
   Started on Vancomycin
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-14**] 12:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-14**] 12:00 AM
   Furosemide (Lasix) - [**2185-4-14**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-14**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 94 (73 - 107) bpm
   BP: 146/67(89) {108/60(70) - 190/110(125)} mmHg
   RR: 17 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,415 mL
                                                                    812 mL
   PO:
             TF:
                                                                    992 mL
                                                                    482 mL
   IVF:
                                                                    207 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,470 mL
   Urine:
                                                                  1,660 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                   -659 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 398 (398 - 398) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.5 L/min
   Physical Examination
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, barely
   opens eyes to physcial command
   Labs / Radiology
   9.2 g/dL
   619 K/uL
   119 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.8 mEq/L
   42 mg/dL
   101 mEq/L
   142 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2185-4-10**]  03:14 AM
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
   WBC
   9.5
   12.0
   13.0
   9.9
   10.0
   11.6
   Hct
   26.0
   28.8
   28.4
   22.9
   24.8
   27.4
   28.6
   Plt
   [**Telephone/Fax (3) 1560**]20
   479
   619
   Cr
   0.7
   0.6
   0.7
   0.8
   0.7
   0.7
   0.8
   TCO2
   27
   Glucose
   82
   115
   150
   171
   104
   127
   119
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Microbiology: Blood cultures positive GPC and yeast
   Assessment and Plan
   85 y/o man admitted with respiratory failure due to sepsis from MRSA
   PNA, now with positive blood cultures
   1. Resp failure: trached, vent dependent, will continue to diurese for
   bilat effusions, etiology likely CHF. [**Month (only) 60**] benefit from thoracentesis.
   2. ID: now with yeast and GPC in blood. On vanco, will empirically
   start caspo. Lines need to be changed, ophtho to assess
   - completed 10 days Vanc, completed 7 day course of Zosyn/Meropenem for
   Klebsiella VAP
   3. Atrial Fibrillation with labile BP: better controlled on Digoxin &
   Metoprolol 100mg TID. Hypertension will likely respond to diuresis
   - continue Metoprolol 100mg TID, Digoxin 0.125mg & low dose ASA 81mg
   - hold anticoagulation, hct now stable.
   4. CHF:  Pt with h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on admission, probable viral induced CMP. Will need follow up
   echo as outpt.
   - d/c ACE d/t hyperkalemia
   5. Previous UTI: urine cultures form [**3-27**] + for yeast, tx with
   Amphotericin CBI.  Repeat UAs +leuks & >100 WBCs, no yeast.  Foley
   changed out [**4-2**]. Urine cultures NGTD
   6. DM Type 2: continue ISS with TF
   7. Anemia: impressive decrease in hct despite being negative vol
   balance. Recheck and follow.
   8. Cdiff: pt with h/o relapsing/recurrent c.diff now on PO vanco slow
   taper.
   9. Left shoulder dislocation: incidentally found on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   10. Hyperkalemia - resolved, ACE was d/c'd yesterday.
   11. Mental status - improving, appears to be more responsive today. EEG
   pending
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-13**] 01:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total critical care time spent: 38 minutes
   Patient is critically ill

2185-04-15 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Family meeting yesterday, family wants to maintain aggressive care
   -- PICC ordered for today, currently getting vanc/caspo
   -- Optho consulted, never came by
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-14**] 02:00 PM
   Vancomycin - [**2185-4-14**] 08:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-15**] 01:00 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-15**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 81 (61 - 104) bpm
   BP: 124/57(71) {91/40(52) - 181/89(107)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,614 mL
                                                                    319 mL
   PO:
             TF:
                                                                  1,177 mL
                                                                     91 mL
   IVF:
                                                                  1,098 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    150 mL
   Urine:
                                                                  1,885 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    729 mL
                                                                    169 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   Labs / Radiology
   EEG performed [**4-13**]
   ABNORMALITY #1: The background rhythm remained slow and disorganized,
   typically reaching a 6 Hz maximum in most areas. Much of the record was
   obscured by movement artifact.
   HYPERVENTILATION: Could not be performed.
   INTERMITTENT PHOTIC STIMULATION: Could not be performed.
   SLEEP: No normal waking or sleeping morphologies were seen.
   CARDIAC MONITOR: Showed an irregularly irregular rhythm.
   IMPRESSION: Abnormal portable EEG due to the slow and disorganized
   background throughout the tracing. This suggests a widespread
   encephalopathy. Medications, metabolic disturbances, and infection are
   among the most common causes. There were no areas of prominent focal
   slowing, but encephalopathies may obscure focal findings. There were no
   epileptiform features. An abnormal cardiac rhythm was noted.
   501 K/uL
   8.0 g/dL
   106 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.6 mEq/L
   43 mg/dL
   104 mEq/L
   139 mEq/L
   24.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
   WBC
   12.0
   13.0
   9.9
   10.0
   11.6
   11.1
   Hct
   28.8
   28.4
   22.9
   24.8
   27.4
   28.6
   24.5
   Plt
   [**Telephone/Fax (2) 1592**]
   Cr
   0.6
   0.7
   0.8
   0.7
   0.7
   0.8
   0.8
   TCO2
   27
   Glucose
   115
   150
   171
   104
   127
   119
   106
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
SPUTUM GRAM STAIN (Final [**2185-4-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   FUNGAL CULTURE (Pending):
[**2185-4-12**] 3:59 pm BLOOD CULTURE      Source: Line-picc.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS.  BUDDING YEAST.
   Aerobic Bottle Gram Stain (Final [**2185-4-13**]):
      REPORTED BY PHONE TO [**Last Name (LF) 1593**], [**First Name3 (LF) 1594**] @ 2314 ON [**2185-4-13**].
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2185-4-13**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      BUDDING YEAST.
[**2185-4-12**] 12:50 pm URINE CULTURE (Final [**2185-4-13**]):
      YEAST.    10,000-100,000 ORGANISMS/ML..
   Repeat Blood Cultures from [**4-14**] pending NGTD
   Assessment and Plan
   85 y/o man adm with respiratory failure [**3-5**] to sepsis from MRSA then
   c/b Klebsiella VAP, now s/p Trach on [**2185-4-6**].
   .
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome.  Unable to tolerated PS for long periods of
   time, currently resting on AC.  Pt had a low grade temp on [**4-12**] and
   blood Cx now + for GPCs & fungemia
   - continue Vanc day 2 & Caspofungin day 2
   - hold off on vent weaning, rest on AC given agitation & tachypnea
   - lasix 40mg now in effort to [**Month (only) 38**] effusions/edema (goal neg 1L today)
   #Fungemia/bacteremia:  Blood cultures now growing out GPC and yeast.
   Yeast also seen in urine and sputum.  Pt has been afebrile and only
   minimal increase in WBC.  [**Month (only) 60**] be contributing to unimproved MS.  Source
   ? Urine
   --day 2 Vancomycin, Day 2 Caspofungin
   --f/u optho recs
   --fungal blood cx
   # HCT DROP: Pt with underlying anemia of chronic disease, hct wide
   variation ?, no acute indication for transfusion
   - guaic all stools
   - start PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and labile
   BPs that have been better controlled on Digoxin & Metoprolol 100mg
   TID.  Pt had an episode of bradycardia on [**2185-4-3**] and Diltiazem was
   d/c
   - continue Metoprolol 100mg TID
   - continue Digoxin 0.125mg & low dose ASA 81mg
   - holding anticoagulation (daily risk of CVA in pt with A. Fib very
   low)
   - will check dig level
   #Pain/MS: Pt appears agitated and uncomfortable when moved/touched.
   KUB showed non-specific bowel gas pattern, LFTs WNL & tolerating TFs
   with regular BMs.  Non-contrast head CT showed e/o small vessel
   ischemic dz, no acute intracran pathology, EEG pending, Vit B12 WNL.
   Initial concern for new infection given low grade Temp but WBC ct
   trending down
   - f/u cultures, sputum
   - continue Olanzapine, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   - repleated thiamine, will check ammonia
   # HEART FAILURE: Pt with h/o diastolic CHF, found to have globally
   depressed EF of 25-30% on admission, possible related to viral
   myocarditis vs sepsis induced CMP.  No RWMA, function likely to recover
   in 6-8wks, will need follow up echo as outpt
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - continue lasix 40mg IV for goal neg 1L  today
   # DM TYPEII: continue ISS with TF
   # C. Diff: pt with h/o relapsing/recurrent c.diff on a slow taper as
   outpt.
   - begin slow po Vancomycin taper currently 125mg TID
   # Left shoulder dislocation: incidentally seen on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine & tylenol for pain.
   ICU Care
   Nutrition: Pulm Nutren
   Glycemic Control:  ISS
   Lines: PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer: PPI
   VAP:  chlorhexidine
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-15 09:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Caspo day 2 for yeast fungemia
   Family meeting held with wife and [**Name (NI) 1367**] present.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-14**] 02:00 PM
   Vancomycin - [**2185-4-15**] 08:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-15**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-15**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 87 (61 - 104) bpm
   BP: 128/44(58) {91/40(52) - 181/89(107)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,614 mL
                                                                    680 mL
   PO:
             TF:
                                                                  1,177 mL
                                                                     91 mL
   IVF:
                                                                  1,098 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    200 mL
   Urine:
                                                                  1,885 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    729 mL
                                                                    480 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, contractures
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   501 K/uL
   106 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.6 mEq/L
   43 mg/dL
   104 mEq/L
   139 mEq/L
   24.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2185-4-11**]  05:06 AM
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
   WBC
   12.0
   13.0
   9.9
   10.0
   11.6
   11.1
   Hct
   28.8
   28.4
   22.9
   24.8
   27.4
   28.6
   24.5
   Plt
   [**Telephone/Fax (3) 1592**]
   Cr
   0.6
   0.7
   0.8
   0.7
   0.7
   0.8
   0.8
   TCO2
   27
   Glucose
   115
   150
   171
   104
   127
   119
   106
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: EEG report noted. Diffuse slowing
   Microbiology: sputum gram - 3+ GPC, 2 + GNR
   blood cx [**4-12**] - 2 bottles GPC + yeast
   urine [**4-12**] - yeast
   Assessment and Plan
   85 y/o man admitted with prolonged respiratory failure due to sepsis
   from MRSA PNA, now with positive blood cultures/fungemia
   1. Acute resp failure: trached, vent dependent, bilat effusions to be
   reassessed. Check CXR post PICC placement.  Keep even to neg.
   2.  Bacteremia/Fungemia sepsis: now with yeast and GPC in blood,
   species not yet reported. On vanco and caspo. PICC to be changed today,
   ophtho to assess.
   - completed 10 days Vanc, completed 7 day course of Zosyn/Meropenem for
   Klebsiella VAP
   3. Atrial Fibrillation with labile BP: better controlled on Digoxin &
   Metoprolol 100mg TID. Hypertension will likely respond to diuresis.
   - continue Metoprolol 100mg TID, Digoxin 0.125mg & low dose ASA 81mg
   - hold anticoagulation, hct now stable. check digoxin level today
   4. CHF:  Pt with h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on admission, probable viral induced CMP. Will need follow up
   echo as outpt.
   5. DM Type 2: continue ISS with TF
   6. Anemia: fluctuating hct, guaiac negative.
   7. Cdiff: pt with h/o relapsing/recurrent c.diff now on PO vanco slow
   taper.
   8. Left shoulder dislocation: incidentally found on CXR, per ortho,
   deferring management until medically stable to tolerate MRI.  L
   shoulder films show DJD, not able to assess for dislocation
   -po morphine for pain
   9. Mental status
 delerium. EEG c/w toxic metabolic state
   Family meeting yesterday - family wishes for full care but is leaning
   toward comfort care if no improvement by early next week.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-3-31**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 min critical care time minutes
   Patient is critically ill

2185-04-16 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2185-4-15**] 12:30 PM
 PICC LINE - STOP [**2185-4-15**] 02:45 PM
   inserted in IR
   - new PICC inserted, old removed and tip sent for cx
   - ophtho - no evidence of involvement
   - sputum cx postive for Klebsiella, restarted antibx - vanc and [**Last Name (un) 430**]
   - on caspo for fungemia
   - UA positive - should be covered with above regimen
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-15**] 10:30 AM
   Vancomycin - [**2185-4-15**] 09:00 PM
   Meropenem - [**2185-4-16**] 12:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-15**] 11:00 PM
   Enoxaparin (Lovenox) - [**2185-4-16**] 12:57 AM
   Morphine Sulfate - [**2185-4-16**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-16**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 101 (71 - 101) bpm
   BP: 139/60(78) {95/43(50) - 160/103(114)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.8 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,272 mL
                                                                    550 mL
   PO:
             TF:
                                                                    942 mL
                                                                    218 mL
   IVF:
                                                                    960 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    795 mL
                                                                    725 mL
   Urine:
                                                                    795 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,477 mL
                                                                   -175 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 118
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   476 K/uL
   8.2 g/dL
   106 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.6 mEq/L
   43 mg/dL
   104 mEq/L
   139 mEq/L
   25.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
   WBC
   13.0
   9.9
   10.0
   11.6
   11.1
   10.5
   Hct
   28.4
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   Plt
   [**Telephone/Fax (2) 1621**]
   Cr
   0.7
   0.8
   0.7
   0.7
   0.8
   0.8
   TCO2
   27
   Glucose
   150
   171
   104
   127
   119
   106
   Other labs: PT / PTT / INR:13.4/30.1/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR from [**4-15**]
   Microbiology: [**2185-4-12**] 3:59 pm BLOOD CULTURE      Source: Line-picc.
      Blood Culture, Routine (Preliminary):
         ENTEROCOCCUS SP..
         GRAM POSITIVE COCCUS(COCCI).    2ND MORPHOLOGY.
         YEAST.
      Aerobic Bottle Gram Stain (Final [**2185-4-13**]):
         REPORTED BY PHONE TO [**Last Name (LF) 1593**], [**First Name3 (LF) 1594**] @ 2314 ON [**2185-4-13**].
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      Anaerobic Bottle Gram Stain (Final [**2185-4-13**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
         BUDDING YEAST.
   Urine Cx from [**4-12**]: + yeast
   /[**12-10**] 12:50 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2185-4-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      [**4-12**] Sputum Cx:
         KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
                 _______________________________________
                                KLEBSIELLA PNEUMONIAE
                                |
   AMPICILLIN/SULBACTAM--    16 I
   CEFAZOLIN-------------  =>64 R
   CEFEPIME--------------       PND
   CEFTAZIDIME-----------  =>64 R
   CEFTRIAXONE-----------       PND
   CEFUROXIME------------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     2 S
   MEROPENEM-------------       PND
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------  =>16 R
   TRIMETHOPRIM/SULFA----  =>16 R
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2185-4-13**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Sputum from [**4-14**]:
    [**2185-4-14**] 12:43 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2185-4-14**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
            OF TWO COLONIAL MORPHOLOGIES.
         KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
   [**Numeric Identifier 1622**]
            FROM [**2185-4-12**].
   blood, urine, mycolytic Cx all pending from [**4-15**] NGTD
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   .
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome.  Unable to tolerated PS for long periods of
   time, currently on AC.  Blood Cx now + for [**Date Range 1623**] & fungus,
   Sputum +Klebsiella c/w new VAP
   - Vanc day 3 & Caspofungin day 3 & Meropenem day 2
   - f/u sensitivites for [**Last Name (LF) 1623**], [**First Name3 (LF) **] need Linezolid
   - hold off on vent weaning, rest on AC given agitation & tachypnea
   - lasix 40mg now in effort to [**Month (only) 38**] effusions/edema (goal neg 500cc
   today)
   #Fungemia/bacteremia:  Blood cultures +[**Month (only) 1623**] and +Yeast.
   Sputum frm [**4-12**] + Klebsiella, likely c/w VAP.  Yeast also seen in urine
   and sputum.  Pt has been afebrile and WBC ct trending down, Blood Cx
   since [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on [**4-15**].
   Started [**Last Name (un) **] on [**4-15**]. Infections likely contributing to unimproved
   MS/Delirium.
   -- f/u sensitivities of [**Month/Year (2) 1623**] & Fungus
   --day 3 Vancomycin, Day 3 Caspofungin & Meropenem Day 2
   --per ortho, no ophthalmic involvemt with fungemia
   - change out foley today
   # HCT DROP: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, stable at 25 , no acute indication for
   transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile, possibly due to agitation/pain
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg  (dig level 1.3)
   #Pain/MS: Pt continues to appear agitated when disturbed, opening eyes
   intermittently to commands but not interacting with staff or family.
   Non-contrast head CT showed e/o small vessel ischemic dz, no acute
   intracran pathology, EEG showed diffuse slowing suggestive of
   encephalopathy, other work up neg to date. Continue treatment for
   bacteremia/fungemia, likely contributing to delirium
   - continue Olanzapine, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   # HEART FAILURE: h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on adm, ongoing bilateral pulm effusions
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - lasix 40mg IV for goal neg 500cc  today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-16**] 04:52 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-16 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo man with influenza, MRSA pna, now trached with likely VAP,
   fungemia
   24 Hour Events:
   PICC line changed yesterday
   Sputum pos for Klebs - started on [**Last Name (un) 430**]/vanc
   Optho eval showed no evidence of opthalmic fungal infxn
 PICC LINE - START [**2185-4-15**] 12:30 PM
 PICC LINE - STOP [**2185-4-15**] 02:45 PM
   inserted in IR
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-16**] 12:45 AM
   Vancomycin - [**2185-4-16**] 08:45 AM
   Caspofungin - [**2185-4-16**] 09:43 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-15**] 11:00 PM
   Enoxaparin (Lovenox) - [**2185-4-16**] 12:57 AM
   Morphine Sulfate - [**2185-4-16**] 08:45 AM
   Other medications:
   thiamine, prevacid, olanazipine, oral morphine, dig, lopressor, SS
   insulin, Peridex, Vit D, CaCO3, [**Last Name (LF) 1634**], [**First Name3 (LF) 369**], synthroid
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-16**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 101 (71 - 101) bpm
   BP: 139/60(78) {95/46(50) - 160/103(114)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.8 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,272 mL
                                                                  1,431 mL
   PO:
             TF:
                                                                    942 mL
                                                                    426 mL
   IVF:
                                                                    960 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                    795 mL
                                                                    880 mL
   Urine:
                                                                    795 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,477 mL
                                                                    552 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 118
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 11 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed, Sleeping
   Labs / Radiology
   8.2 g/dL
   476 K/uL
   83 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   36 mg/dL
   102 mEq/L
   140 mEq/L
   25.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-12**]  04:39 AM
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
   WBC
   13.0
   9.9
   10.0
   11.6
   11.1
   10.5
   Hct
   28.4
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   Plt
   [**Telephone/Fax (2) 1621**]
   Cr
   0.7
   0.8
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   27
   Glucose
   150
   171
   104
   127
   119
   106
   83
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Microbiology: Blood cxs [**4-12**]: pos for enterococcus
   Urine [**4-12**]: yeast
   Sputum [**4-12**]: Klebsiella
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with likely VAP,
   fungemia
   Respiratory Failure: Cont efforts at efforts at diuresis.  Cont A/C for
   now - try PSV after some fluid off
   Entercoccal bacteremia: Cont vanco.  F/U sensitivities.
   Klebsiella VAP: Cont meropenem
   Funal infection: Con caspofungin
   FEN: Goal 500-1000cc
   AF: Digoxin
   C.Diff: po vanco
    HEART FAILURE (CHF), SYSTOLIC, ACUTE
   New systolic failure, presumptively related to influenza.  Re-echo.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-16**] 04:52 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2185-04-17 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sputum growing Klebsiella, sensitive to [**Last Name (un) **]
   - blood cx +VRE, switched from Vanc to Linezolid
   - changed out foley for fungus in urine
   - actively diuresing overnight with lasix, BP stable
   - BS of 57 this am, rec'd [**2-2**] amp of D50
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-16**] 09:43 AM
   Linezolid - [**2185-4-16**] 08:03 PM
   Vancomycin - [**2185-4-17**] 12:01 AM
   Meropenem - [**2185-4-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-4-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-17**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 100 (63 - 103) bpm
   BP: 179/82(100) {94/40(54) - 217/103(128)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.8 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,727 mL
                                                                    710 mL
   PO:
             TF:
                                                                  1,090 mL
                                                                    296 mL
   IVF:
                                                                  1,161 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    705 mL
   Urine:
                                                                  2,355 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                      5 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Eyes clossed, grimicing w/
   stiumuation
   Head, Ears, Nose, Throat: tracheostomy c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, PEG
   tube c/d/i
   Extremities: Right: Absent, Left: Absent, noted continued LE
   contracture
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   455 K/uL
   8.0 g/dL
   53 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   38 mg/dL
   102 mEq/L
   139 mEq/L
   24.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2185-4-12**]  07:28 AM
                             [**2185-4-12**]  01:26 PM
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
   WBC
   9.9
   10.0
   11.6
   11.1
   10.5
   9.9
   Hct
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   24.0
   Plt
   420
   479
   619
   [**Telephone/Fax (3) 1652**]
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   TCO2
   27
   Glucose
   171
   104
   127
   119
   106
   83
   53
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: Portable AP semi-erect film obtained.  A portion of the right
   lung is obscured
   from the study as well as the right lung base.  The left lung base is
   also
   omitted.  There is no substantial change since the prior study.  There
   is
   diffuse patchy opacification of both lungs.  There are bilateral
   pleural
   effusions.  Heart is top normal in size.  There is diffuse prominence
   of the
   pulmonary vasculature consistent with mild pulmonary edema.
   Tracheostomy is in the midline.  There is prominence of the mediastinal
   structures, which may represent adenopathy.
   Microbiology: [**2185-4-15**] URINE CULTURE-{YEAST}
   BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   RESPIRATORY CULTURE-{MRSA, KLEBSIELLA PNEUMONIAE};
   Blood Culture, -{VRE and YEAST}
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome and deconditioning.  Unable to tolerated PS
   for long periods of time, currently on AC.  Blood Cx now + for
   Enterrococcus & fungus, Sputum +Klebsiella c/w new VAP
   - Patiet switched from Vanc day 3 to linezolid day 2 yesterday when s/s
   showed VRE & Caspofungin day 4 & Meropenem day 3 to treated reoccurent
   klebsiella
   - hold off on vent weaning, rest on AC given new infections
   - diureesed w/ lasix 40mg x 2 yesterday, but still even for the day.
   Will give 80mg lasix today now in effort to [**Month (only) 38**] effusions/edema (goal
   neg 500cc today)
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VREand +Yeast.  Sputum from
   [**4-12**] + Klebsiella likely c/w prior VAP that was ESBL producing.  Yeast
   seen in urine & sputum.  Pt has been afebrile and WBC ct trending down,
   Blood Cx since [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on
   [**4-15**].  Started [**Last Name (un) **] on [**4-15**]. Infections likely contributing to
   unimproved MS & delirium.
   -- f/u Fungus specieation and sensitivities
   --day 2 linezolid, Day 4 Caspofungin & Meropenem Day 3
   --per optho, no ophthalmic involvemt with fungemia
   - change out foley [**4-16**]
   # HCT DROP: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, stable at 25 , no acute indication for
   transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile, possibly due to agitation/pain
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg  (dig level 1.3)
   #Pain/MS: Pt continues to appear agitated when disturbed, opening eyes
   intermittently to commands but not interacting with staff or family.
   Non-contrast head CT showed e/o small vessel ischemic dz, no acute
   intracran pathology, EEG showed diffuse slowing suggestive of
   encephalopathy, NR rpr, normal Vb12/ammonia, repleated thiamine, other
   work up neg to date. Continue treatment for bacteremia/fungemia, likely
   contributing to delirium
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   # HEART FAILURE: h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on adm, ongoing bilateral pulm effusions
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - lasix 80mg IV BID for goal neg 500cc today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-17**] 02:59 AM 45 mL/hour
   Comments: PEG tube feeding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-17 12:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo man with influenza, MRSA pna, now trached with likely VAP,
   fungemia
   24 Hour Events:
   Foley changed yesterday
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-17**] 08:41 AM
   Linezolid - [**2185-4-17**] 08:41 AM
   Caspofungin - [**2185-4-17**] 09:59 AM
   Meropenem - [**2185-4-17**] 11:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-17**] 06:00 AM
   Morphine Sulfate - [**2185-4-17**] 08:40 AM
   Other medications:
   thiamine, zyprexa, morphine po, metoprolol, digoxin, PPI, RISS,
   Peridex, Vit D, Calcium, Zocor, Synthroid, Senna, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-17**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 72 (63 - 103) bpm
   BP: 116/54(76) {94/39(51) - 217/103(128)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.8 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,727 mL
                                                                  1,696 mL
   PO:
             TF:
                                                                  1,090 mL
                                                                    577 mL
   IVF:
                                                                  1,161 mL
                                                                    798 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    870 mL
   Urine:
                                                                  2,355 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                    826 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No acute distress, Intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: [**3-6**] way up b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   455 K/uL
   154
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   38 mg/dL
   102 mEq/L
   139 mEq/L
   24.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2185-4-12**]  03:03 PM
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
   WBC
   9.9
   10.0
   11.6
   11.1
   10.5
   9.9
   Hct
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   24.0
   Plt
   420
   479
   619
   [**Telephone/Fax (3) 1652**]
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   Glucose
   104
   127
   119
   106
   83
   53
   57
   154
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: large b/l layering effusions
   Microbiology: Blood Cx [**4-12**]: [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 1656**] and VRE
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia
   Respiratory Failure: Not able to diurese well yesterday.  Cont A/C for
   now - will need further treatment for his VAP and further diuresis,
   nutrition before tolerating further wean
   Entercoccal bacteremia: Speciated as VRE - now on linezolid
   Klebsiella VAP: Cont meropenem
   Funal infection: Cont caspofungin
   FEN: Goal 500cc negative
   AF: Digoxin
   C.Diff: po vanco
   Heart Failure: New systolic failure, presumptively related to
   influenza.  Re-echo.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-17**] 02:59 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2185-04-18 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -intention to run patient negative, + 1.3L despite 80mg IV lasix, 120mg
   IV lasix given this evening w/ 700cc urine outupt
   -yeast speciated as [**Female First Name (un) 188**]  (TORULOPSIS) GLABRATA
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-17**] 09:59 AM
   Linezolid - [**2185-4-17**] 08:00 PM
   Vancomycin - [**2185-4-18**] 12:00 AM
   Meropenem - [**2185-4-18**] 05:50 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2185-4-17**] 08:00 PM
   Morphine Sulfate - [**2185-4-18**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-18**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-18**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 71 (63 - 88) bpm
   BP: 96/40(52) {90/39(51) - 179/104(124)} mmHg
   RR: 20 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.8 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,656 mL
                                                                    658 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    305 mL
   IVF:
                                                                  1,071 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    375 mL
   Urine:
                                                                  1,555 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,101 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 144
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (S1: Normal), No(t) S3, No(t) S4, No(t) Rub, (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t) Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   467 K/uL
   8.2 g/dL
   105 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.2 mEq/L
   41 mg/dL
   103 mEq/L
   139 mEq/L
   24.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
   WBC
   9.9
   10.0
   11.6
   11.1
   10.5
   9.9
   8.9
   Hct
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   24.0
   24.8
   Plt
   420
   479
   619
   [**Telephone/Fax (3) 1652**]
   467
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   1.0
   Glucose
   127
   119
   106
   83
   53
   57
   154
   105
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome and deconditioning.  Unable to tolerated PS
   for long periods of time, currently on AC.  Blood Cx now + for
   Enterrococcus & fungus, Sputum +Klebsiella c/w new VAP
   - Patiet switched from Vanc day 3 to linezolid day 2 yesterday when s/s
   showed VRE & Caspofungin day 4 & Meropenem day 3 to treated reoccurent
   klebsiella
   - hold off on vent weaning, rest on AC given new infections
   - diureesed w/ lasix 40mg x 2 yesterday, but still even for the day.
   Will give 80mg lasix today now in effort to [**Month (only) 38**] effusions/edema (goal
   neg 500cc today)
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VREand +Yeast.  Sputum from
   [**4-12**] + Klebsiella likely c/w prior VAP that was ESBL producing.  Yeast
   seen in urine & sputum.  Pt has been afebrile and WBC ct trending down,
   Blood Cx since [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on
   [**4-15**].  Started [**Last Name (un) **] on [**4-15**]. Infections likely contributing to
   unimproved MS & delirium.
   -- f/u Fungus specieation and sensitivities
   --day 2 linezolid, Day 4 Caspofungin & Meropenem Day 3
   --per optho, no ophthalmic involvemt with fungemia
   - change out foley [**4-16**]
   # HCT DROP: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, stable at 25 , no acute indication for
   transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile, possibly due to agitation/pain
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg  (dig level 1.3)
   #Pain/MS: Pt continues to appear agitated when disturbed, opening eyes
   intermittently to commands but not interacting with staff or family.
   Non-contrast head CT showed e/o small vessel ischemic dz, no acute
   intracran pathology, EEG showed diffuse slowing suggestive of
   encephalopathy, NR rpr, normal Vb12/ammonia, repleated thiamine, other
   work up neg to date. Continue treatment for bacteremia/fungemia, likely
   contributing to delirium
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   # HEART FAILURE: h/o diastolic CHF, found to have globally depressed EF
   of 25-30% on adm, ongoing bilateral pulm effusions
   - d/c ACE due to hyperkalemia, consider nitrate prn
   - lasix 80mg IV BID for goal neg 500cc today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-17**] 02:59 AM 45 mL/hour
   Comments: PEG tube feeding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-18**] 01:10 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-18 12:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-18**] 12:00 AM
   Meropenem - [**2185-4-18**] 05:50 AM
   Caspofungin - [**2185-4-18**] 08:00 AM
   Linezolid - [**2185-4-18**] 10:00 AM
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2185-4-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-4-18**] 05:54 AM
   Morphine Sulfate - [**2185-4-18**] 08:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-18**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 78 (63 - 93) bpm
   BP: 104/48(58) {90/40(52) - 179/104(124)} mmHg
   RR: 16 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,656 mL
                                                                  1,268 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    547 mL
   IVF:
                                                                  1,071 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    570 mL
   Urine:
                                                                  1,555 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,101 mL
                                                                    698 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 144
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), Respiratory /
   Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm  Neurologic: No(t) Attentive, No(t) Follows simple
   commands, Responds to: Not assessed, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.2 g/dL
   467 K/uL
   105 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.2 mEq/L
   41 mg/dL
   103 mEq/L
   139 mEq/L
   24.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2185-4-13**]  04:27 AM
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
   WBC
   9.9
   10.0
   11.6
   11.1
   10.5
   9.9
   8.9
   Hct
   22.9
   24.8
   27.4
   28.6
   24.5
   25.3
   24.0
   24.8
   Plt
   420
   479
   619
   [**Telephone/Fax (3) 1652**]
   467
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   1.0
   Glucose
   127
   119
   106
   83
   53
   57
   154
   105
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia. Remains critically ill.
   Acute Respiratory Failure: will try putting back on PSV. Try repeating
   NIF if possible.
   - will need further treatment for his VAP. Keep even to negative
   balance. Agree will need improved nutrition before he will tolerate
   further wean
   Septicemia/Fungemia
   VRE bacteremia: on linezolid
   Klebsiella VAP: Cont meropenem
   C Glabrata fungemia: Cont caspofungin
   Recurrent C.Diff: po vanco taper
   FEN: Goal 500cc negative
   AF: Digoxin
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2185-4-18**] 11:32 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate), Disposition :ICU
   Total time spent: 30 minutes critical care time

2185-04-19 12:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   TTE - negative for vegetations
   No other events
   Patient unable to provide history: unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine), Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2185-4-18**] 10:00 AM
   Vancomycin - [**2185-4-19**] 12:10 AM
   Meropenem - [**2185-4-19**] 08:18 AM
   Caspofungin - [**2185-4-19**] 10:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-19**] 04:00 AM
   Morphine Sulfate - [**2185-4-19**] 04:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-19**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 60 (60 - 96) bpm
   BP: 119/55(71) {101/42(55) - 166/108(114)} mmHg
   RR: 13 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,239 mL
                                                                  1,269 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    497 mL
   IVF:
                                                                    879 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    750 mL
   Urine:
                                                                    900 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                    519 mL
   Respiratory support
   Ventilator mode: MMV/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 480 (357 - 480) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   417 K/uL
   109 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   42 mg/dL
   103 mEq/L
   137 mEq/L
   24.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2185-4-13**]  02:49 PM
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
   WBC
   10.0
   11.6
   11.1
   10.5
   9.9
   8.9
   8.5
   Hct
   24.8
   27.4
   28.6
   24.5
   25.3
   24.0
   24.8
   24.0
   Plt
   [**Telephone/Fax (3) **]76
   455
   467
   417
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   0.9
   Glucose
   119
   106
   83
   53
   57
   154
   105
   109
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia. Remains critically ill.
   1. Acute Respiratory Failure: tolerating PSV with question of apnea
   episodes, which may be periodic breathing/CSB. Will switch from MMV to
   PSV and wean as tolerated.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep even to negative
   balance. Agree will need improved nutrition before he will tolerate
   further wean
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**5-16**], klebsiella VAP: on meropenem d
   [**6-9**], C Glabrata fungemia: on caspofungin day [**7-16**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: Goal even to negative
   5. AF: Digoxin
   ICU Care
   Nutrition:  tube feeds,
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes critical care time, Patient is critically
   ill

2185-04-20 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sating well on back up MMV, [**6-6**]
   - weaned to CPAP & doing well
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2185-4-18**] 10:00 AM
   Vancomycin - [**2185-4-19**] 12:10 AM
   Caspofungin - [**2185-4-19**] 10:00 AM
   Meropenem - [**2185-4-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-19**] 08:56 PM
   Morphine Sulfate - [**2185-4-20**] 03:46 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-20**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 66 (60 - 107) bpm
   BP: 144/59(79) {110/49(69) - 185/73,125(130)} mmHg
   RR: 17 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,269 mL
                                                                    320 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    105 mL
   IVF:
                                                                    670 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    445 mL
   Urine:
                                                                  2,195 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     74 mL
                                                                   -125 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 369 (365 - 480) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, significant contractures
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed, grimices w/ stimulation
   Labs / Radiology
   418 K/uL
   8.4 g/dL
   122 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.2 mEq/L
   44 mg/dL
   103 mEq/L
   140 mEq/L
   24.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
   WBC
   11.6
   11.1
   10.5
   9.9
   8.9
   8.5
   9.5
   Hct
   27.4
   28.6
   24.5
   25.3
   24.0
   24.8
   24.0
   24.6
   Plt
   [**Telephone/Fax (3) 1695**]55
   467
   417
   418
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   119
   106
   83
   53
   57
   154
   105
   109
   122
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Microbiology: URINE CULTURE-PENDING [**2185-4-17**]  BLOOD CULTURE PENDING
   [**2185-4-15**]  CATHETER TIP-IV WOUND CULTURE-NGTD
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome.  Blood Cx from [**4-12**] + for Enterrococcus &
   fungus, Sputum +Klebsiella c/w new VAP. Pt appears to be tolerating
   pressure support with MMV trial, changed to PS 5/5 and tolerating
   well.  Will attempt on trach collar today
   - check ABG and VBG so VBG can be used propotionally to check
   ventillation status
   - Continue Abx currently day [**6-15**] linezolid, Day [**8-15**] Caspofungin, day
   [**9-9**] Meropenem
   - I/O goal negative 500c to 1L, have been unsuccessful in acheiving
   goals w/ lasix bolus and will consider starting gtt
   - will attempt to ween patient to SBT of 5/0 and hopefully transition
   to trach [**Last Name (un) 1696**]
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Pt has been afebrile
   and WBC ct trending down, Blood Cx since [**4-12**] are NGTD on
   Vanc/Caspofungin.  PICC changed out on [**4-15**].  Infections likely
   contributing to unimproved MS & delirium.
   --per ID, day [**6-15**] linezolid, Day [**8-15**] Caspofungin, day [**7-10**] Meropenem
   --per optho, no ophthalmic involvemt with fungemia
   --ECHO-no e/o fungal vegetations
   --f/u urine c/x since repacement of foley to assure that it has cleared
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg
   #Pain/MS: appears less agitated today, but still not interacting with
   staff or family. Non-contrast head CT showed e/o small vessel ischemic
   dz, no acute intracran pathology, EEG showed diffuse slowing suggestive
   of encephalopathy, NR rpr, normal Vb12/ammonia, repleted thiamine.
   - continue ABx for bacteremia/fungemia, likely contributing to delirium
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   # HEART FAILURE: h/o diastolic CHF but ECHO  from [**4-18**] shows
   significant improvement in LVEF since adm, likely globally depressed EF
   on adm was due to sepsis/cytokine induced injury, now resolved.
   Bilateral effusions still present on CXR
    - will consider starting lasix gtt with goal I/O neg 500cc to 1L
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition:
   Comments: TF through PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-20 12:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2185-4-18**] 10:00 AM
   Vancomycin - [**2185-4-19**] 12:10 AM
   Caspofungin - [**2185-4-20**] 09:30 AM
   Meropenem - [**2185-4-20**] 09:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-19**] 08:56 PM
   Morphine Sulfate - [**2185-4-20**] 03:46 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-20**] 04:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-20**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 77 (65 - 107) bpm
   BP: 159/46(73) {110/46(69) - 185/73,125(130)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,269 mL
                                                                    756 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    105 mL
   IVF:
                                                                    670 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    570 mL
   Urine:
                                                                  2,195 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     74 mL
                                                                    186 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 523 (337 - 523) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Bowel sounds present, grimaces
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   418 K/uL
   122 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.2 mEq/L
   44 mg/dL
   103 mEq/L
   140 mEq/L
   24.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-4-13**]  09:19 PM
                             [**2185-4-14**]  05:12 AM
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
   WBC
   11.6
   11.1
   10.5
   9.9
   8.9
   8.5
   9.5
   Hct
   27.4
   28.6
   24.5
   25.3
   24.0
   24.8
   24.0
   24.6
   Plt
   [**Telephone/Fax (3) 1695**]55
   467
   417
   418
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   119
   106
   83
   53
   57
   154
   105
   109
   122
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia. Remains critically ill.
   1. Acute Respiratory Failure: now tolerating PSV 5/5. Apnea episodes
   were likely central.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep even to negative
   balance. Appears to have a resolving myopathy.
   - check ABG/VBG and would do trach collar trial.
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**6-15**], klebsiella VAP: on meropenem d
   [**9-9**], C Glabrata fungemia: on caspofungin day [**8-15**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: Goal even to negative
   5. AF: Digoxin
   ICU Care
   Nutrition: tube feeds, Glycemic Control:  Regular insulin sliding scale
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU, Total time spent: 30 minutes critical care time

2185-04-21 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- patient did not achieve goal on lasix gtt, increased to 4mg in early
   morning
   -- ABG/VBG obtained, patient had some desaturation, and had to increase
   to PS 10/5/50%, will put on trach collar today
   -- attempts made at family meeting, some discussion had, but full
   family meeting planned for friday at 2pm
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2185-4-18**] 10:00 AM
   Vancomycin - [**2185-4-19**] 12:10 AM
   Caspofungin - [**2185-4-20**] 09:30 AM
   Meropenem - [**2185-4-21**] 04:31 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Insulin - Regular - [**2185-4-20**] 12:00 PM
   Heparin Sodium - [**2185-4-20**] 03:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-21**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 88 (56 - 94) bpm
   BP: 174/66(89) {108/46(63) - 225/114(117)} mmHg
   RR: 16 (14 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,219 mL
                                                                    256 mL
   PO:
             TF:
                                                                    105 mL
   IVF:
                                                                    794 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    750 mL
   Urine:
                                                                  1,200 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     19 mL
                                                                   -494 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (310 - 616) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 117
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.48/42/55/30/6
   Ve: 14.3 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   8.6 g/dL
   121 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   44 mg/dL
   103 mEq/L
   143 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
   WBC
   11.1
   10.5
   9.9
   8.9
   8.5
   9.5
   11.5
   Hct
   24.5
   25.3
   24.0
   24.8
   24.0
   24.6
   24.9
   Plt
   [**Telephone/Fax (3) 1724**]67
   417
   418
   436
   Cr
   0.8
   0.8
   0.9
   1.0
   0.9
   0.9
   0.9
   TCO2
   32
   Glucose
   106
   83
   53
   57
   154
   105
   109
   122
   121
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome.  Blood Cx from [**4-12**] + for Enterrococcus &
   fungus, Sputum +Klebsiella c/w new VAP. ABG/VBG obtained, low pO2,
   increased PS to 10/5/50%,
   - Continue Abx currently day [**6-15**] linezolid, Day [**8-15**] Caspofungin, day
   [**9-9**] Meropenem
   - I/O goal negative 500c to 1L, have been unsuccessful in acheiving
   goals w/ lasix bolus and will consider starting gtt
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Pt has been afebrile
   and WBC ct trending down, Blood Cx since [**4-12**] are NGTD on
   Vanc/Caspofungin.  PICC changed out on [**4-15**].  Infections likely
   contributing to unimproved MS & delirium.
   --per ID, day [**6-15**] linezolid, Day [**8-15**] Caspofungin, day [**7-10**] Meropenem
   --per optho, no ophthalmic involvemt with fungemia
   --ECHO-no e/o fungal vegetations
   --f/u urine c/x since repacement of foley to assure that it has cleared
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg
   #Pain/MS: appears less agitated today, but still not interacting with
   staff or family. Non-contrast head CT showed e/o small vessel ischemic
   dz, no acute intracran pathology, EEG showed diffuse slowing suggestive
   of encephalopathy, NR rpr, normal Vb12/ammonia, repleted thiamine.
   - continue ABx for bacteremia/fungemia, likely contributing to delirium
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue morphine & tylenol standing
   # HEART FAILURE: h/o diastolic CHF but ECHO  from [**4-18**] shows
   significant improvement in LVEF since adm, likely globally depressed EF
   on adm was due to sepsis/cytokine induced injury, now resolved.
   Bilateral effusions still present on CXR.
   - lasix gtt for diuresis, goal neg 1L today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition:  Nutren Pulm
   Glycemic Control:  ISS
   Lines: PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   VAP:  HOB elev, mouth care
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2185-04-21 12:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix drip increased.
   PS increased to [**11-6**].
   Family meeting scheduled for [**4-22**].
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-19**] 12:10 AM
   Meropenem - [**2185-4-21**] 09:45 AM
   Caspofungin - [**2185-4-21**] 10:29 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2185-4-20**] 03:14 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2185-4-21**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 63 (56 - 94) bpm
   BP: 111/56(69) {108/52(63) - 225/114(117)} mmHg
   RR: 15 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,219 mL
                                                                    771 mL
   PO:
             TF:
                                                                    105 mL
   IVF:
                                                                    794 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    970 mL
   Urine:
                                                                  1,200 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     19 mL
                                                                   -199 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (310 - 616) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 117
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.48/42/55/30/6
   Ve: 4.1 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse sounds ant, clear laterally at bases
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   436 K/uL
   121 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   44 mg/dL
   103 mEq/L
   143 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2185-4-15**]  05:00 AM
                             [**2185-4-16**]  04:55 AM
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
   WBC
   11.1
   10.5
   9.9
   8.9
   8.5
   9.5
   11.5
   Hct
   24.5
   25.3
   24.0
   24.8
   24.0
   24.6
   24.9
   Plt
   [**Telephone/Fax (3) 1724**]67
   417
   418
   436
   Cr
   0.8
   0.8
   0.9
   1.0
   0.9
   0.9
   0.9
   TCO2
   32
   Glucose
   106
   83
   53
   57
   154
   105
   109
   122
   121
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2
   Microbiology: no new data
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia. Remains critically ill.
    1. Acute Respiratory Failure: now tolerating PSV.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep even to negative
   balance. Appears to have a resolving myopathy.
   - will update CXR today and consider repeating trach collar trial.
   - weaning slowly. thin, white secretions.
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**7-16**], klebsiella VAP: on meropenem d
   [**7-10**], C Glabrata fungemia: on caspofungin day [**9-15**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: Goal even to negative
   5. AF: Digoxin
   6. Pain control: morphine, will change to q6h standing + prn
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   PICC Line - [**2185-4-15**] 12:30 PM
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication: ICU consent signed Comments: Family meeting tomorrow
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes, Patient is critically ill

2185-04-22 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PS trial [**6-6**]
   - family meeting, Friday 2pm
   - freq of morphine reduced to q8h
   [**8-15**] linezolid, Day [**10-16**] Caspofungin, day [**9-9**] Meropenem
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-21**] 10:29 AM
   Meropenem - [**2185-4-22**] 04:02 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2185-4-22**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 58 (57 - 92) bpm
   BP: 139/62(83) {111/51(68) - 179/116(127)} mmHg
   RR: 17 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,985 mL
                                                                    517 mL
   PO:
             TF:
                                                                    720 mL
                                                                    262 mL
   IVF:
                                                                    875 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    910 mL
   Urine:
                                                                  2,120 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                   -393 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 392 (301 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 58,333
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 9 L/min
   Physical Examination
   Labs / Radiology
   CXR [**4-21**]:
   FINDINGS:  In comparison with the study of [**4-17**], there is little interv
   [**Doctor Last Name **]
   change in the bilateral large layering pleural effusions and bibasilar
   atelectatic change.  Mild-to- moderate pulmonary edema is again seen.
   Tracheostomy tube remains in place, as does the left subclavian cathete
   r.
   IMPRESSION:  Little overall change.
   426 K/uL
   8.1 g/dL
   105 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   48 mg/dL
   102 mEq/L
   144 mEq/L
   24.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
   WBC
   9.9
   8.9
   8.5
   9.5
   11.5
   10.5
   Hct
   24.0
   24.8
   24.0
   24.6
   24.9
   24.6
   Plt
   455
   467
   417
   [**Telephone/Fax (3) 1732**]
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   32
   Glucose
   53
   57
   154
   105
   109
   122
   121
   110
   105
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Urine Cx from [**4-19**] NGTD
   Cath Tip from [**4-15**] NGTD
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: bilateral pulm effusions & weak resp muscles
   from post polio syndrome.  Blood Cx from [**4-12**] + for Enterrococcus &
   fungus, Sputum +Klebsiella c/w new VAP. ABG/VBG obtained, low pO2,
   increased PS to 10/5/50%, will work on weaning to CPAP 5/5 today.  WBC
   slightly increased, will get CXR today.
   - Continue Abx currently day [**8-15**] linezolid, Day [**10-16**] Caspofungin, day
   [**9-9**] Meropenem
   - I/O goal negative 500c to 1L, titrate lasix gtt
   - f/u CXR today
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Pt has been afebrile
   and WBC ct trending down, Blood Cx since [**4-12**] are NGTD on
   Vanc/Caspofungin.  PICC changed out on [**4-15**].  Infections likely
   contributing to unimproved MS & delirium.  Per Optho, no e/o fungal
   ocular involvment
   --per ID, day [**8-15**] linezolid, Day [**10-16**] Caspofungin, day [**8-9**] Meropenem
   --sending repeat Urine Cx today
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaic all stools (neg currently)
   - continue PPI
   # Atrial Fibrillation with Labile BP: Pt with chronic A.Fib and BP
   continues to be labile likely due to agitation
   - continue Metoprolol 100mg TID, ASA 81mg
   - continue Digoxin 0.125mg
   #Pain/MS: pt still not interacting with staff or family. Non-contrast
   head CT showed e/o small vessel ischemic dz, no acute intracran
   pathology, EEG showed diffuse slowing suggestive of encephalopathy, NR
   rpr, normal Vb12/ammonia
   - continue ABx for bacteremia/fungemia, likely contributing to deliriu
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - change standing Morphine 15mg q8hrs with breakthrough q3hr prn
   # HEART FAILURE: h/o diastolic CHF but ECHO [**4-18**] shows significant
   improvement in LVEF since adm, likely globally depressed EF on adm was
   due to sepsis/cytokine induced injury, now resolved. Bilateral
   effusions still present on CXR.
   - lasix gtt for diuresis, goal neg 1L today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - Vancomycin taper 125mg q8hr on [**4-16**]
   ICU Care
   Nutrition: Nutren Pulm
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-22 12:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV 5/5 since yesterday
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 AM
   Caspofungin - [**2185-4-22**] 10:30 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2185-4-22**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 65 (57 - 96) bpm
   BP: 121/49(67) {121/37(67) - 218/116(127)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,985 mL
                                                                  1,190 mL
   PO:
             TF:
                                                                    720 mL
                                                                    532 mL
   IVF:
                                                                    875 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,490 mL
   Urine:
                                                                  2,120 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                   -300 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (301 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 41
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 14.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trached
   Cardiovascular: (S1: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: contractures
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, Communicating with simple questions,
   appears to understand and respond appropriately
   Labs / Radiology
   8.1 g/dL
   426 K/uL
   105 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   48 mg/dL
   102 mEq/L
   144 mEq/L
   24.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-17**]  04:10 AM
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
   WBC
   9.9
   8.9
   8.5
   9.5
   11.5
   10.5
   Hct
   24.0
   24.8
   24.0
   24.6
   24.9
   24.6
   Plt
   455
   467
   417
   [**Telephone/Fax (3) 1732**]
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   32
   Glucose
   53
   57
   154
   105
   109
   122
   121
   110
   105
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia.
    1. Acute Respiratory Failure: now tolerating PSV.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep negative balance if
   possible, on lasix drip.
   - appears to have a resolving myopathy.
   - repeat trach collar trial, possibly with PMV for phonation.
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**8-15**], klebsiella VAP: on meropenem d
   [**8-9**], C Glabrata fungemia: on caspofungin day [**10-16**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: Goal negative 1 L
   5. AF: Digoxin
   6. Pain control: morphine dose cut in half yesterday. continue as is
   for now with prn.
   7. Family meeting at 2pm today to discuss disposition plan/goals.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-22**] 05:41 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes, critical care time

2185-04-23 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2185-4-22**] 02:47 PM
   - after trach collar for 2hrs, acutely desatted & became bradycardic,
   pt was suctionned, placed on volume control, & 100% Fi02 with recovery
   of sats
   - CXR showed possible atelectasis of LLL, no acute changes, event
   likely [**3-5**] derecruitment & mucus plugging
   - family meeting regarding plan for placement, large financial
   challenges
   - continued episodes of bradycardia overnight, but maintaining sats
   well
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-22**] 10:30 AM
   Meropenem - [**2185-4-22**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2185-4-23**] 01:00 AM
   Other medications:
   Flowsheet Data as of  [**2185-4-23**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 71 (58 - 106) bpm
   BP: 106/60(71) {98/36(56) - 218/104(117)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,254 mL
                                                                    451 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    299 mL
   IVF:
                                                                    962 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    840 mL
   Urine:
                                                                  2,650 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -396 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 495 (364 - 495) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 11.2 L/min
   Physical Examination
   GEN: more comfortable today, responding to questions, not oriented
   HEENT: trach in place
   CV: irreg/irreg, no m/r/g apprec
   RESP: coarse BS but clear bilaterally
   ABD: soft, NT/ND/NABS
   EXTR: wasted, no c/c/e
   Labs / Radiology
   426 K/uL
   8.1 g/dL
   137 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   51 mg/dL
   102 mEq/L
   145 mEq/L
   24.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-4-17**]  06:00 AM
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   Plt
   467
   417
   418
   436
   426
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   32
   Glucose
   57
   154
   105
   109
   122
   121
   110
   105
   137
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**4-23**] FINDINGS:  In comparison with study of [**4-21**], there is
   little change in the
   diffuse bilateral pulmonary opacifications with substantial left apical
   capping and tracheostomy and central catheters in place.
   IMPRESSION:  Little overall change.
   Microbiology: Urine Cx from [**4-19**], [**4-21**]  NGTD
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: Pt failed trach collar trial on [**4-23**] with acute
   desat & profound bradycardia, responded to suctioning & high fiO2.  Pt
   was rested on PS 10/5 overnight, continued to have intermittent
   bradycardia overnight but sats >95%. Pt continues to have bilateral
   pulm effusions. Blood Cx from [**4-12**] + for Enterrococcus & fungus.
   Sputum from [**4-12**] was +Klebsiella c/w new VAP, now completed a course of
   Meropenem.   Pt oxygenating well on minimal settings, but recurrent
   apneic episodes.
   - d/c lasix gtt as no need for continued diuresis
   - given continued apnea, will leave on MMV with PEEP 5 today, hold off
   on weaning
   - Continue Abx currently day [**9-15**] linezolid, Day [**11-15**] Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on [**4-15**]. Per
   Optho, no e/o fungal ocular involvment, echo showed no e/o vegetations
   -per ID, day [**9-15**] linezolid, Day [**11-15**] Caspofungin, completed [**9-9**] of
   Meropenem
   - f/u repeat urine culture from [**4-21**]
   # CV: Pt has h/o labile BP [**3-5**] agitation & AFib difficult to rate
   control. However, pt developed bradycardia during hypoxic episode on
   [**4-22**] & had continued intermittent bradycardia overnight, with HRs in
   40-60s.
   - d/c digoxin today & f/u am dig level.
   - hold am BB & [**Month (only) 38**] Metoprolol to 25mg TID, can inc BB if HR trends back
   up later today
   - continue ASA 81mg
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaic all stools (neg currently)
   - continue PPI
   #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc, does not appear oriented
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue [**Month (only) 38**] standing regimen of Morphine 15mg q8hrs with
   breakthrough q3hr prn (hold for sedation)
   # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR but pt
   oxygenating well, no need for continued diuresis.
   - d/c lasic gtt today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2185-4-22**] 09:24 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-23 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV 5/5 yesterday but desaturated and became bradycardic on
   trach collar.
   Family meeting took place
                   Patient unable to provide history: trached
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 PM
   Caspofungin - [**2185-4-23**] 10:00 AM
   Other ICU medications:
   Heparin Sodium - [**2185-4-23**] 01:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-23**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 83 (57 - 106) bpm
   BP: 134/84(92) {98/36(56) - 202/104(117)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,255 mL
                                                                  1,080 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    475 mL
   IVF:
                                                                    963 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,370 mL
   Urine:
                                                                  2,650 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 590 (364 - 590) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.5 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   328 K/uL
   117 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   53 mg/dL
   101 mEq/L
   144 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   11.0
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   25.6
   Plt
   467
   417
   418
   436
   426
   328
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   154
   105
   109
   122
   121
   110
   105
   137
   117
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia.
   1. Acute Respiratory Failure: now tolerating MMV but not trach collar.
   Has prolonged apneas, likely central.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep even to negative
   balance if possible. Would d/c lasix drip.
   - appears to have a resolving myopathy.
   - consider in-line PMV for speech but likely won't tolerate it.
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**9-15**], klebsiella VAP: on meropenem d
   [**9-9**], C Glabrata fungemia: on caspofungin day [**11-15**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: d/c lasix drip, K to be repleted.
   5. AF: Digoxin, metoprolol but SVR today. Will d/c dig, check level and
   decrease metoprolol.
   6. Pain control: morphine dose cut in half yesterday. continue as is
   for now with prn.
   Family meeting yesterday. I was present along with [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**], [**Name (NI) 39**]
   [**Name (NI) 40**], wife, [**Name (NI) 1367**] and [**First Name4 (NamePattern1) 1751**] [**Name (NI) 1020**]. Family is considering plan
   of 'no escalation' of care. They are considering discharge with vent to
   home with 24 hr care vs self-pay at facility.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-22**] 09:24 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU, Total time spent: 30 minutes, Patient is critically
   ill

2185-04-24 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- d/c'd meropenem
   -- no success with lasix gtt, without overwelming indication to run
   negative, so was d/c'd
   -- dig level WNL
   -- with now do QOD blood draws
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 PM
   Caspofungin - [**2185-4-23**] 10:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2185-4-23**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-24**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 73 (57 - 94) bpm
   BP: 144/66(80) {112/47(62) - 170/131(136)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,025 mL
                                                                    433 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    326 mL
   IVF:
                                                                    491 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    220 mL
   Urine:
                                                                  2,215 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                    213 mL
   Respiratory support
   Ventilator mode: MMV/PSV
   Vt (Set): 670 (450 - 670) mL
   Vt (Spontaneous): 580 (262 - 751) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 11 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   328 K/uL
   8.7 g/dL
   117 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   53 mg/dL
   101 mEq/L
   144 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   11.0
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   25.6
   Plt
   467
   417
   418
   436
   426
   328
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   154
   105
   109
   122
   121
   110
   105
   137
   117
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
   # RESPIRATORY FAILURE: Pt failed trach collar trial on [**4-23**] with acute
   desat & profound bradycardia, responded to suctioning & high fiO2.  Pt
   was rested on PS 10/5 overnight, continued to have intermittent
   bradycardia overnight but sats >95%. Pt continues to have bilateral
   pulm effusions. Blood Cx from [**4-12**] + for Enterrococcus & fungus.
   Sputum from [**4-12**] was +Klebsiella c/w new VAP, now completed a course of
   Meropenem.   Pt oxygenating well on minimal settings, but recurrent
   apneic episodes.
   - d/c lasix gtt as no need for continued diuresis
   - given continued apnea, will leave on MMV with PEEP 5 today, hold off
   on weaning
   - Continue Abx currently day [**9-15**] linezolid, Day [**11-15**] Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on [**4-15**]. Per
   Optho, no e/o fungal ocular involvment, echo showed no e/o vegetations
   -per ID, day [**9-15**] linezolid, Day [**11-15**] Caspofungin, completed [**9-9**] of
   Meropenem
   - f/u repeat urine culture from [**4-21**]
   # CV: Pt has h/o labile BP [**3-5**] agitation & AFib difficult to rate
   control. However, pt developed bradycardia during hypoxic episode on
   [**4-22**] & had continued intermittent bradycardia overnight, with HRs in
   40-60s.
   - d/c digoxin today & f/u am dig level.
   - hold am BB & [**Month (only) 38**] Metoprolol to 25mg TID, can inc BB if HR trends back
   up later today
   - continue ASA 81mg
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaic all stools (neg currently)
   - continue PPI
   #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc, does not appear oriented
   - continue Olanzapine TID, f/u Pain & palliative care recs
   - continue [**Month (only) 38**] standing regimen of Morphine 15mg q8hrs with
   breakthrough q3hr prn (hold for sedation)
   # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR but pt
   oxygenating well, no need for continued diuresis.
   - d/c lasic gtt today
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-23**] 09:19 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-04-24 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Last Name (un) **] discontinued.
   Dig level WNL at 1.3
   ROS: intermittently responsive, denies pain.
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 PM
   Caspofungin - [**2185-4-24**] 10:09 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2185-4-23**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-24**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 72 (67 - 94) bpm
   BP: 149/102(113) {112/48(65) - 170/131(136)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,075 mL
                                                                  1,005 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    527 mL
   IVF:
                                                                    541 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    340 mL
   Urine:
                                                                  2,215 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                    665 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 670) mL
   Vt (Spontaneous): 470 (262 - 751) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   328 K/uL
   117 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   53 mg/dL
   101 mEq/L
   144 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2185-4-17**]  07:00 AM
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   11.0
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   25.6
   Plt
   467
   417
   418
   436
   426
   328
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   154
   105
   109
   122
   121
   110
   105
   137
   117
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   85 yo man with influenza, MRSA pna, now trached with Klebs VAP,
   fungemia.
   1. Acute respiratory failure: now tolerating MMV but not trach collar.
   Has prolonged apneas, likely central.
   - will need 8 day course of [**Last Name (un) 430**] for his VAP. Keep even to negative
   balance if possible. Would d/c lasix drip.
   - appears to have a resolving myopathy.
   - consider in-line PMV for speech but likely won't tolerate it.
   2. Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**10-16**]
   C Glabrata fungemia: on caspofungin day [**12-16**].
   Recent non-ESBL klebsiella VAP: completed course of meropenem on [**4-23**]
   3. Recurrent C.Diff: po vanco taper
   4. FEN: d/c lasix drip, K to be repleted. on tube feeds
   5. AF: Digoxin, metoprolol but SVR today. Will d/c dig, check level and
   decrease metoprolol.
   6. Pain control: morphine dose cut in half yesterday. continue as is
   for now with prn.
   Family meeting [**4-22**]. I was present along with [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**], [**Name (NI) 39**]
   [**Name (NI) 40**], wife, [**Name (NI) 1367**] and [**First Name4 (NamePattern1) 1751**] [**Name (NI) 1020**]. Family is considering plan
   of 'no escalation' of care. They are considering discharge with vent to
   home with 24 hr care vs self-pay at facility.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-23**] 09:19 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2185-04-25 11:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Over weekend, did not tolerate TM trial.  Now back on PSV.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 PM
   Caspofungin - [**2185-4-25**] 09:32 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-25**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-25**] 06:22 AM
   Other medications: as per [**Month (only) **] (Reviewed in detail on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-25**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 79 (60 - 110) bpm
   BP: 144/79(97) {107/46(61) - 200/99(135)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,753 mL
                                                                    993 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    524 mL
   IVF:
                                                                    370 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    855 mL
   Urine:
                                                                    785 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                    138 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (312 - 451) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   335 K/uL
   177 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   51 mg/dL
   104 mEq/L
   145 mEq/L
   25.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   11.0
   11.6
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   25.6
   25.6
   Plt
   467
   417
   418
   436
   426
   328
   335
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   TCO2
   32
   Glucose
   105
   109
   122
   121
   110
   105
   137
   117
   177
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   85 year-old man with respiratory failure following influenza, in the
   setting of multiple chronic debilitating conditions, now s/p trach with
   Klebsiella VAP and fungemia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - complete 8d of meropenem for his VAP
   - try to keep even or negative
   . Keep even to negative balance if possible. Would d/c lasix drip.
   - appears to have a resolving myopathy.
   - consider in-line PMV for speech but likely won't tolerate it.
   - myopathy appears to be slowly improving
 Septicemia/Fungemia
   VRE bacteremia: on linezolid day [**11-15**]
   C Glabrata fungemia: on caspofungin day [**1-15**].
 Recurrent C.Diff
   - po vanco taper
   AFib
   - on digoxin and metoprolol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-24**] 09:15 PM 45 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Per prior notes:  Family meeting [**4-22**]. I was
   present along with [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**], [**Name (NI) 39**] [**Name (NI) 40**], wife, [**Name (NI) 1367**] and [**First Name4 (NamePattern1) 1751**]
   [**Name (NI) 1020**]. Family is considering plan of 'no escalation' of care.
   They are considering discharge with vent to home with 24 hr care vs
   self-pay at facility.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2185-04-25 17:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-4-22**] 10:00 PM
   Caspofungin - [**2185-4-25**] 09:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-25**] 06:22 AM
   Ranitidine (Prophylaxis) - [**2185-4-25**] 12:11 PM
   Furosemide (Lasix) - [**2185-4-25**] 12:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-25**] 04:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 78 (60 - 110) bpm
   BP: 139/56(76) {107/46(61) - 172/99(135)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,753 mL
                                                                  1,306 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    743 mL
   IVF:
                                                                    371 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                  1,545 mL
   Urine:
                                                                    785 mL
                                                                  1,545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                   -239 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (312 - 435) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Crackles : at bases b/l, Diminished: b/l
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   No(t) Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   335 K/uL
   8.6 g/dL
   177 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   51 mg/dL
   104 mEq/L
   145 mEq/L
   25.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2185-4-18**]  04:35 AM
                             [**2185-4-19**]  04:27 AM
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
   WBC
   8.9
   8.5
   9.5
   11.5
   10.5
   11.0
   11.6
   Hct
   24.8
   24.0
   24.6
   24.9
   24.6
   25.6
   25.6
   Plt
   467
   417
   418
   436
   426
   328
   335
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   TCO2
   32
   Glucose
   105
   109
   122
   121
   110
   105
   137
   117
   177
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
    # RESPIRATORY FAILURE: Pt failed trach collar trial on [**4-23**] with acute
   desat & profound bradycardia, responded to suctioning & high FiO2.  Pt
   continues to have bilateral pulm effusions, slightly worsened this am,
   approx 1L positive yesterday, now off of Lasix drip. Blood Cx from [**4-12**]
   + for Enterrococcus & fungus.  Sputum from [**4-12**] was +Klebsiella c/w new
   VAP, now completed a course of Meropenem.   Pt oxygenating well on
   minimal settings, but recurrent apneic episodes.
   - d/c
d lasix gtt , transition today to IV Bolus in order to maintain
   -500cc-1 liter, start with Lasix 40mg IV bid
   - given continued apnea, will leave on MMV with PEEP 5 today, hold off
   on weaning
   - Continue Abx currently day [**11-15**] linezolid, Day [**1-15**] Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on [**4-15**]. Per
   Optho, no e/o fungal ocular involvment, echo showed no e/o vegetations
   - per ID, day [**11-15**] linezolid, Day [**1-15**] Caspofungin, completed [**9-9**] of
   Meropenem
   - urine culture from [**4-21**] no growth
   # CV: BP with one [**Location (un) 308**] SBP 170, otherwise moderate control with SBP
   in 120-140s. No change today to current meds
   - d/c
d digoxin
   -Metoprolol to 25mg TID
   - continue ASA 81mg
    #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaiac all stools (neg currently)
   -no GI bleed, change ppx to H2 blocker
   #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc, does not appear oriented
   - continue Olanzapine TID
   - continue [**Month (only) 38**] standing regimen of Morphine 15mg q8hrs with
   breakthrough q3hr prn (hold for sedation)
    # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR, slightly worse.
   - diuresis as above
   # DM TYPEII: continue ISS with TF
   # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-24**] 09:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: H2 blocker
   VAP:  mouth care, elevate HOB
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending further investigation re : placement on ventilator

2185-04-26 06:30:00 Physician Resident Progress Note
Chief Complaint: Pt not responsive for interview this morning
   24 Hour Events:
   - Started Lasix 40mg IV bid
   - D5W bolus ofr Na 148 as well as added free water flushes
   - Decreased FiO2 from 50-40%
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-25**] 09:32 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-25**] 07:54 PM
   Furosemide (Lasix) - [**2185-4-25**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-26**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.8
   HR: 74 (57 - 90) bpm
   BP: 144/84(98) {111/48(68) - 171/102(134)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,854 mL
                                                                    878 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    289 mL
   IVF:
                                                                    503 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    670 mL
   Urine:
                                                                  2,205 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    208 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 314 (252 - 314) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 4.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   7.9 g/dL
   106 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   51 mg/dL
   103 mEq/L
   145 mEq/L
   23.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
   WBC
   9.5
   11.5
   10.5
   11.0
   11.6
   9.4
   Hct
   24.6
   24.9
   24.6
   25.6
   25.6
   23.4
   Plt
   [**Telephone/Fax (3) 1795**]28
   335
   309
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   122
   121
   110
   105
   137
   117
   177
   91
   106
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
    # RESPIRATORY FAILURE: Pt failed trach collar trial on [**4-23**] with acute
   desat & profound bradycardia, responded to suctioning & high FiO2.  Pt
   continues to have bilateral pulm effusions, slightly worsened this am,
   approx 1L positive yesterday, now off of Lasix drip. Blood Cx from [**4-12**]
   + for Enterrococcus & fungus.  Sputum from [**4-12**] was +Klebsiella c/w new
   VAP, now completed a course of Meropenem.   Pt oxygenating well on
   minimal settings, but recurrent apneic episodes.
   - d/c
d lasix gtt , transition today to IV Bolus in order to maintain
   -500cc-1 liter, start with Lasix 40mg IV bid
   - given continued apnea, will leave on MMV with PEEP 5 today, hold off
   on weaning
   - Continue Abx currently day [**11-15**] linezolid, Day [**1-15**] Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on Vanc/Caspofungin.  PICC changed out on [**4-15**]. Per
   Optho, no e/o fungal ocular involvment, echo showed no e/o vegetations
   - per ID, day [**11-15**] linezolid, Day [**1-15**] Caspofungin, completed [**9-9**] of
   Meropenem
   - urine culture from [**4-21**] no growth
   # CV: BP with one [**Location (un) 308**] SBP 170, otherwise moderate control with SBP
   in 120-140s. No change today to current meds
   - d/c
d digoxin
   - Metoprolol to 25mg TID
   - continue ASA 81mg
   #Anemia: Pt with underlying anemia of chronic disease, wide hct
   variation seen on daily labs, no acute indication for transfusion
   - guaiac all stools (neg currently)
   -no GI bleed, change ppx to H2 blocker
    #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc, does not appear oriented
   - continue Olanzapine TID
   - continue [**Month (only) 38**] standing regimen of Morphine 15mg q8hrs with
   breakthrough q3hr prn (hold for sedation)
    # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR, slightly worse.
   - diuresis as above
    # DM TYPEII: continue ISS with TF
    # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-25**] 09:13 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-26 06:43:00 Physician Resident Progress Note
Chief Complaint: Pt nonresponsive this morning
   24 Hour Events:
   - Started Lasix 40mg IV bid
   - D5W bolus for Na 148 (free water deficit 2L) as well as free water
   flushed
   - Decreased FiO2 from 50% to 40%
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-25**] 09:32 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-25**] 07:54 PM
   Furosemide (Lasix) - [**2185-4-25**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-26**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.8
   HR: 74 (57 - 90) bpm
   BP: 144/84(98) {111/48(68) - 171/102(134)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,854 mL
                                                                    883 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    293 mL
   IVF:
                                                                    503 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    670 mL
   Urine:
                                                                  2,205 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    213 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 314 (252 - 314) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No(t) No acute distress, restless
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, No(t) Oriented (to): non responsive, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   309 K/uL
   7.9 g/dL
   106 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   51 mg/dL
   103 mEq/L
   145 mEq/L
   23.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
   WBC
   9.5
   11.5
   10.5
   11.0
   11.6
   9.4
   Hct
   24.6
   24.9
   24.6
   25.6
   25.6
   23.4
   Plt
   [**Telephone/Fax (3) 1795**]28
   335
   309
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   122
   121
   110
   105
   137
   117
   177
   91
   106
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
    # RESPIRATORY FAILURE: Pt tolerating MMV with FiO2 decreased yesterday
   from 50% to 40%.  Oxygenating well.
   Contributing factors: 1) volume overload 2) deconditioning 3) VAP
   Volume: Pt continues to have bilateral pulm edema, worse on CXR
   yesterday. With Lasix 40mg IV bid, approx 350cc negative, however
   already +200cc since midnight.
   VAP
 Klebsiella PNA: completed a course of Meropenem on [**4-23**].
   - trial off of PS/PEEP, maintain on vent with backup for prolonged
   apnea. If not maintaining pressures or pulling adequate TV will resume
   MMV as before
   - increase Lasix to 40mg IV tid with goal -500cc-1L negative
   - Cont. MMV with PEEP 5 today, hold off on weaning
   - Continue Abx currently day [**12-16**] linezolid, Day 13/14 Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on current regimen. PICC changed out on [**4-15**]. Per Optho,
   no e/o fungal ocular involvment, echo showed no e/o vegetations
   - per ID, day [**12-16**] linezolid, Day 13/14 Caspofungin, completed [**9-9**] of
   Meropenem on [**4-23**]
   - urine culture from [**4-21**] no growth
   # CV: BP fluctuates with brief periods up to 170, with lows in 120s. No
   change today to current meds, try to maintain BP on higher side to
   support HD.
   - Metoprolol to 25mg TID
   - continue ASA 81mg
   #Anemia: Pt with underlying anemia of chronic disease, wide HCT
   variation seen on daily labs, no acute indication for transfusion
   - guaiac all stools (neg currently)
   -no GI bleed H2 blocker for PPx
   - recheck HCT in am, if <23 would consider transfusing 1u pRBCs
    #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc
   - continue Olanzapine TID
   - continue standing regimen of Morphine 15mg q8hrs with breakthrough
   q3hr prn (hold for sedation)
    # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR, slightly worse.
   - diuresis as above
    # DM TYPEII: continue ISS with TF
    # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   # Hypernatremia: Increase free water flushes in feeding tube.
   Calculated deficit 2L with Na of 148 O/N, improved this am to 145.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-25**] 09:13 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Heparin sc
   Stress ulcer: H2 blocker
   VAP:  Elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Cont. Ongoing discussion with family and case management
   re : vent facility vs. possibility of home with vent.

2185-04-26 09:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on PSV.
   Unresponsive this morning.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Unresponsive
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-25**] 09:32 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-25**] 07:54 PM
   Furosemide (Lasix) - [**2185-4-26**] 08:37 AM
   Other medications:
   ASA, statin, vit D, CHG, SQI, olanzapine, caspo, vanco oral, SQH,
   linezolid, senna, docusate, metoprolol, H2B, Lasix twice a day, free
   water
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-26**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.5
   HR: 63 (57 - 90) bpm
   BP: 153/61(82) {111/48(68) - 171/102(105)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,854 mL
                                                                  1,230 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    416 mL
   IVF:
                                                                    503 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    830 mL
   Urine:
                                                                  2,205 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    400 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 314 (252 - 314) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Increased
   Labs / Radiology
   7.9 g/dL
   309 K/uL
   106 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   51 mg/dL
   103 mEq/L
   145 mEq/L
   23.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2185-4-20**]  04:40 AM
                             [**2185-4-20**]  02:25 PM
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
   WBC
   9.5
   11.5
   10.5
   11.0
   11.6
   9.4
   Hct
   24.6
   24.9
   24.6
   25.6
   25.6
   23.4
   Plt
   [**Telephone/Fax (3) 1795**]28
   335
   309
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   TCO2
   32
   Glucose
   122
   121
   110
   105
   137
   117
   177
   91
   106
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Imaging: Yesterday's CXR unchanged
   Assessment and Plan
   85 year-old man with respiratory failure following influenza, in the
   setting of multiple chronic debilitating conditions, now s/p trach with
   Klebsiella VAP and fungemia.

 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - multifactorial
   - completed 8d of treatment for his VAP
   - try to keep even or negative
   - myopathy appears to be slowly improving
   - try PSV 0 / 0 for monitoring, given events on Friday
 Septicemia/Fungemia
   - VRE bacteremia: on linezolid day [**12-16**]
   - C Glabrata fungemia: on caspofungin day 13/14.
 Recurrent C.Diff
   - po vanco taper
 AFib
   - on digoxin and metoprolol, adequately controlled

 ANEMIA, CHRONIC
   - stable
 DIABETES MELLITUS (DM), TYPE II
   - adequately controlled
 HEART FAILURE (CHF), SYSTOLIC, ACUTE and HEART FAILURE (CHF),
   DIASTOLIC, ACUTE ON CHRONIC (previous dx of diastolic CHF)
   - keep even to negative today
   For increased tone, ask PT and OT to see him for range of motion
   exercises and possible splints.
   Will discuss with family, case management, and social work today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-25**] 09:13 PM 45 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU.  Discuss with case management
   Total time spent: 35 min
   Patient is critically ill

2185-04-27 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   OT/PT reconsulted / needs call for splinting
   failed spont breathing trial: > 30 s apnea on cpap alone.  On pressure
   supoprt/MMV
   lasix increased to 60 mg IV tid; i/o goal not met (-500 cc 7a-7p)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-26**] 10:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-26**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 83 (60 - 99) bpm
   BP: 113/75(85) {113/42(72) - 196/131(144)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,640 mL
                                                                    655 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    320 mL
   IVF:
                                                                    738 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                  1,300 mL
   Urine:
                                                                  2,230 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                   -645 mL
   Respiratory support
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 245 (245 - 464) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ///34/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Throughout)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   305 K/uL
   8.4 g/dL
   130 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   48 mg/dL
   101 mEq/L
   144 mEq/L
   25.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2185-4-21**]  03:52 AM
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
   WBC
   11.5
   10.5
   11.0
   11.6
   9.4
   11.2
   Hct
   24.9
   24.6
   25.6
   25.6
   23.4
   25.3
   Plt
   436
   426
   328
   335
   309
   305
   Cr
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   Glucose
   121
   110
   105
   137
   117
   177
   91
   106
   124
   130
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   85 y/o M with respiratory failure [**3-5**] to sepsis from MRSA then c/b
   Klebsiella VAP, now s/p Trach on [**2185-4-6**].  Recurrent VAP, bacteremia &
   fungemia.
    # RESPIRATORY FAILURE: Pt tolerating MMV with FiO2 decreased yesterday
   from 50% to 40%.  Oxygenating well.
   Contributing factors: 1) volume overload 2) deconditioning 3) VAP
   Volume: Pt continues to have bilateral pulm edema, worse on CXR
   yesterday. With Lasix 40mg IV bid, approx 350cc negative, however
   already +200cc since midnight.
   VAP
 Klebsiella PNA: completed a course of Meropenem on [**4-23**].
   - trial off of PS/PEEP, maintain on vent with backup for prolonged
   apnea. If not maintaining pressures or pulling adequate TV will resume
   MMV as before
   - increase Lasix to 40mg IV tid with goal -500cc-1L negative
   - Cont. MMV with PEEP 5 today, hold off on weaning
   - Continue Abx currently day [**12-16**] linezolid, Day 13/14 Caspofungin
   #Fungemia/bacteremia:  [**4-12**] Blood cultures +VRE and +Yeast.  Sputum
   from [**4-12**] + Klebsiella.  Yeast + urine & sputum.  Repeat Blood Cx since
   [**4-12**] are NGTD on current regimen. PICC changed out on [**4-15**]. Per Optho,
   no e/o fungal ocular involvment, echo showed no e/o vegetations
   - per ID, day [**12-16**] linezolid, Day 13/14 Caspofungin, completed [**9-9**] of
   Meropenem on [**4-23**]
   - urine culture from [**4-21**] no growth
   # CV: BP fluctuates with brief periods up to 170, with lows in 120s. No
   change today to current meds, try to maintain BP on higher side to
   support HD.
   - Metoprolol to 25mg TID
   - continue ASA 81mg
   #Anemia: Pt with underlying anemia of chronic disease, wide HCT
   variation seen on daily labs, no acute indication for transfusion
   - guaiac all stools (neg currently)
   -no GI bleed H2 blocker for PPx
   - recheck HCT in am, if <23 would consider transfusing 1u pRBCs
    #Pain/MS: much improved, pt more interactive this am, responding to
   questions by nodding etc
   - continue Olanzapine TID
   - continue standing regimen of Morphine 15mg q8hrs with breakthrough
   q3hr prn (hold for sedation)
    # HEART FAILURE: LV was globally depressed EF on adm was due to
   sepsis/cytokine induced injury, resolved on repeat ECHO [**4-18**], no e/o
   vegetations. Bilateral effusions still present on CXR, slightly worse.
   - diuresis as above
    # DM TYPEII: continue ISS with TF
    # C. Diff: h/o relapsing/recurrent c.diff on a slow taper as outpt.
   - continued Vanc taper 125mg TID for 2wks, [**Month (only) 38**] to 125mg [**Hospital1 **] on [**4-27**] for
   2wks, then qdaily for 2wks.
   # Hypernatremia: Increase free water flushes in feeding tube.
   Calculated deficit 2L with Na of 148 O/N, improved this am to 145.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-26**] 09:09 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-28 07:58:00 Physician Resident Progress Note
Chief Complaint: 85M h/o respiratory failure [**3-5**] MRSA sepsis,
   Klebsiella VAP (completed meropenem [**4-23**]), now s/p trach ([**2185-4-6**]), with
   VRE bacteremia on linezolid, C. Glabrata fungemia on caspofungin,
   severely contracted [**3-5**] ICU myopathy.
   24 Hour Events:
   - Caspofungin 14 day course completed
   - Linezolid [**4-28**]:  Day 13/14
   - Furosemide increased to 60mg IV QID, neg negative over 1L
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-26**] 10:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-28**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 81 (74 - 102) bpm
   BP: 101/48(75) {93/44(63) - 170/91(104)} mmHg
   RR: 58 (18 - 58) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,895 mL
                                                                    724 mL
   PO:
             TF:
                                                                  1,095 mL
                                                                    355 mL
   IVF:
                                                                    120 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  3,395 mL
                                                                    560 mL
   Urine:
                                                                  3,395 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                    164 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 245 (206 - 272) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 3.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   8.5 g/dL
   115 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   51 mg/dL
   98 mEq/L
   140 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   110
   105
   137
   117
   177
   91
   106
   124
   130
   115
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85M h/o respiratory failure [**3-5**] MRSA sepsis, Klebsiella VAP (completed
   meropenem [**4-23**]), now s/p trach ([**2185-4-6**]), with VRE bacteremia on
   linezolid, completed caspofungin course for C. Glabrata fungemia,
   severely contracted [**3-5**] ICU myopathy.
    # Respiratory failure: Failed SBT [**3-5**] (1) volume overload, (2)
   myopathy (completed meropenem 8/8 days on [**4-23**] for Klebsiella VAP).
   - Volume overload: Furosemide 60mg QID to achieve net 500cc
   negative fluid balance.
   - Maintain PS/PEEP with MMV until more volume removed.
   # Fungemia/bacteremia:  [**4-12**] blood cultures positive for VRE/yeast;
   sputum positive for Klebsiella/yeast; urine positive for yeast.  PICC
   changed [**4-15**]. Per Optho, no fungal ocular involvment.  Per echo, no
   vegetations.
   -          [**4-28**]: Day 13/14 linezolid, caspofungin completed as of [**4-27**]
   -          Since [**4-12**], blood cx NGTD.
   # CV:  STABLE.
   - Rhythm: Afib.  Metoprolol 25mg TID
   - Pump: Continue furosemide diuresis
   - Ischemia/Risk: ASA 81mg
   # C. Diff: STABLE.  Continuing outpatient regimen.  Vanc taper 125mg
   TID for 2wks, then vancomycin 125mg [**Hospital1 **] on [**4-27**] for 2wks, then
   vancomycin 125mg PO daily for 2wks.
   #Anemia: STABLE.  Anemia of chronic disease, transfuse to maintain hct
   >23.
   #Pain/MS: STABLE.  Continue olanzapine TID, morphine 15mg q8hrs,
   morphine q3hr PRN
   # DM2: STABLE.  ISS with TF
   # Dispo: [**Hospital 1844**] rehab pending family mtg
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-27**] 08:46 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Ranitidine 150mg PO BID
   VAP:  Tracheostomy
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-28 11:56:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Finished caspofungin.
   On trach collar since 9a.m.
   History obtained from Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-26**] 10:02 AM
   Vancomycin - [**2185-4-28**] 08:37 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-28**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-28**] 08:38 AM
   Furosemide (Lasix) - [**2185-4-28**] 09:17 AM
   Other medications:
   As reviewed from [**Month (only) **] on rounds
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-28**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 89 (74 - 102) bpm
   BP: 157/80(99) {93/44(63) - 170/80(104)} mmHg
   RR: 29 (19 - 58) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,895 mL
                                                                  1,168 mL
   PO:
             TF:
                                                                  1,095 mL
                                                                    529 mL
   IVF:
                                                                    120 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  3,395 mL
                                                                    990 mL
   Urine:
                                                                  3,395 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 338 (206 - 338) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterioly)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Increased, contractures
   Labs / Radiology
   8.5 g/dL
   302 K/uL
   115 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   51 mg/dL
   98 mEq/L
   140 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   110
   105
   137
   117
   177
   91
   106
   124
   130
   115
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85 year-old man with respiratory failure following influenza, in the
   setting of multiple chronic debilitating conditions, now s/p trach with
   Klebsiella VAP and fungemia
 both of which are reaching the end of
   their treatment courses.

 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - multifactorial
   - s/p VAP rx
   - try to keep even or negative
   - myopathy appears to be slowly improving
   - tolerating TC so far today
 Septicemia/Fungemia
   - VRE bacteremia: finishing course of linezolid
   - C Glabrata fungemia: fineshes caspofungin today
 Recurrent C.Diff
   - po vanco taper once other ABX finished
 AFib
   - adequately controlled

 ANEMIA, CHRONIC
   - stable
 DIABETES MELLITUS (DM), TYPE II
   - adequately controlled
 HEART FAILURE (CHF), SYSTOLIC, ACUTE and HEART FAILURE (CHF),
   DIASTOLIC, ACUTE ON CHRONIC (previous dx of diastolic CHF)
   - keep even to negative today
   OT/PT consult
   Will discuss with family, case management, and social work today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-27**] 08:46 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family has called and reports that they are unable to make our
   scheduled 12 noon meeting.  We will do our best to meet with them when
   they are available.
   Code status: DNR (do not resuscitate)
   Disposition :ICU.  He is ready for a subacute facility or home with
   hospice.
   Total time spent: 35 min
   Family Meeting
   1pm
   Met with pt
s wife and son [**Name (NI) 1367**] today.  Reviewed Mr. [**Known lastname 1020**]
   course:  I have seen him three times, spaced apart by weeks to months.
   He is clearly dwindling.  We confirmed that they would not pursue
   resumption of vasopressors if shock recurred.  They are considering the
   idea that he does not have to be reconnected to the ventilator if
   problems develop, and state that in fact he would tell us not to do
   it.  However, they do not wish to pursue that limit at present.
   We will begin to arrange teaching and home services, with a plan for
   discharge (likely with hospice, per family
s wishes) mid-to-late next
   week.
   40 minutes

2185-04-29 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2185-4-28**] 05:21 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2185-4-26**] 10:02 AM
   Vancomycin - [**2185-4-28**] 05:05 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-28**] 08:37 AM
   Furosemide (Lasix) - [**2185-4-28**] 03:14 PM
   Heparin Sodium (Prophylaxis) - [**2185-4-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-29**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 75 (66 - 92) bpm
   BP: 71/40(45) {71/34(43) - 157/80(127)} mmHg
   RR: 42 (19 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,152 mL
                                                                    701 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    289 mL
   IVF:
                                                                    120 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    360 mL
   Urine:
                                                                  2,500 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 114 (114 - 437) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   8.5 g/dL
   115 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   51 mg/dL
   98 mEq/L
   140 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-21**]  03:56 PM
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   110
   105
   137
   117
   177
   91
   106
   124
   130
   115
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85M h/o respiratory failure [**3-5**] MRSA sepsis, Klebsiella VAP (completed
   meropenem [**4-23**]), now s/p trach ([**2185-4-6**]), with VRE bacteremia on
   linezolid (day 13/14), completed caspofungin course for C. Glabrata
   fungemia, severely contracted [**3-5**] ICU myopathy.
    # Respiratory failure: Off PSV, now breathing spontaneously on trach
   collar.
   - Volume overload: Continue furosemide 60mg QID to achieve net 500cc
   1L negative fluid balance.
   # Fungemia/bacteremia:  [**4-12**] blood cultures positive for VRE/yeast;
   sputum positive for Klebsiella/yeast; urine positive for yeast.  PICC
   changed [**4-15**]. Per Optho, no fungal ocular involvment.  Per echo, no
   vegetations.
   -          [**4-28**]: Day 13/14 linezolid, caspofungin completed as of [**4-27**]
   -          Since [**4-12**], blood cx NGTD.
   # Mental status:  Attempt to wean morphine to achieve improved mental
   status.  Currently responding minimally to commands, does vocalize.
   # CV:  STABLE.
   - Rhythm: Afib.  Metoprolol 25mg TID
   - Pump: Continue furosemide diuresis
   - Ischemia/Risk: ASA 81mg
   # C. Diff: STABLE.  Continuing outpatient regimen.  Vanc taper 125mg
   TID for 2wks, then vancomycin 125mg [**Hospital1 **] on [**4-27**] for 2wks, then
   vancomycin 125mg PO daily for 2wks.
   #Anemia: STABLE.  Anemia of chronic disease, transfuse to maintain hct
   >23.
   #Pain/MS: STABLE.  Continue olanzapine TID, morphine 15mg q8hrs,
   morphine q3hr PRN
   # DM2: STABLE.  ISS with TF
   # Dispo: [**Hospital 1844**] rehab pending family mtg
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-28**] 08:43 PM 45 mL/hour
   Glycemic Control:  sq insulin
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: sq h
   Stress ulcer: ranitidine
   VAP:  chlorhex, hob
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-29 14:29:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2185-4-28**] 05:21 PM
   Vent to PS 5/5 during the day--> trach collar
   "rested" overnight on PS 5/5
   Rec'd Splint
   Speaking now w/ passy muir valve
   Lasix VI converted to PO
   Changed morphine to q12 hrs prn
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-29**] 08:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-4-28**] 03:14 PM
   Heparin Sodium (Prophylaxis) - [**2185-4-29**] 08:39 AM
   Ranitidine (Prophylaxis) - [**2185-4-29**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-29**] 02:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 98 (66 - 98) bpm
   BP: 112/50(68) {71/39(45) - 146/77(127)} mmHg
   RR: 25 (19 - 42) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,152 mL
                                                                  1,536 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    644 mL
   IVF:
                                                                    120 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,045 mL
   Urine:
                                                                  2,500 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 367 (114 - 437) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, No(t) Sedated, Tone: Not
   assessed, speaking w/ valve in place. oriented to his name.
   Labs / Radiology
   302 K/uL
   8.5 g/dL
   126 mg/dL
   1.1 mg/dL
   35 mEq/L
   4.1 mEq/L
   65 mg/dL
   96 mEq/L
   138 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   Glucose
   105
   137
   117
   177
   91
   106
   124
   130
   115
   126
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR
   IMPRESSION:
   1.  Lines and tubes in satisfactory location.
   2.  Significant decrease of the bilateral pleural effusion with
   persistent
   effusion/atelectasis and consolidation at the right lower lung.  The
   left lung
   base is not included in this examination.
   Assessment and Plan
   85 yo male w/ hx resp failre, MRSA / Klebsiella VAP now s/p trach [**4-6**],
   s/p VRE bacteremia s/p linezolid, s/p c. galabrata fungemia.
   # Resp Failure
   S/p Trach
   Now weaned from vent, on trach collar.
   Doing very well from this perspective.
   Goal is to keep free of infections and keep volume status stable to
   ensure ok oxygenation.
   # Bacteremia
   Last day of linezolid for VRe bacteremia.
   # Mental status
   Awake / alert, speaking.
   Cont orientation, family visits.
   # CARDS
          Rhythm : cont metoprolol 25 mg tid
          Pump: keep even.  Lasix converted to PO to keep EVEN
          Risk: asa 81 mg / d
   # C Diff
   Will restart vanco PO taper starting today, the first day off
   antibiotics
   5 week PO vanco taper
   # Anemia
   Stable.  No need for daily labs
   Transfuse hct > 23.
   # Pain
   Cont olanzapine, morphine
   # Dm2
   ISS
   # Dispo
   Prepare for placement, w/ po regimen, PT consult for strengthening.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-28**] 08:43 PM 45 mL/hour
   Glycemic Control:  sliding scale insulin
   Lines:
   FOLEY
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: sub q heparin
   Stress ulcer: ranitidine
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu until ok for d/c

2185-04-30 07:21:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   passy muir valve in place, speaking
   left on trach collar o/n
   restarted vanco PO taper
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-29**] 08:39 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-29**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2185-4-29**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 82 (73 - 101) bpm
   BP: 118/60(71) {105/40(40) - 146/80(102)} mmHg
   RR: 21 (20 - 31) insp/min
   SpO2: 72%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,209 mL
                                                                    744 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    329 mL
   IVF:
                                                                    176 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    750 mL
   Urine:
                                                                  2,045 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    164 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 367 (313 - 367) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 72%
   ABG: ////
   Ve: 8.8 L/min
   Physical Examination
   Gen: thin man, no acute distress
   Heent: trach in place
   COR:
   PUL
   ABD
   EXTREM
   NEURO
   Labs / Radiology
   302 K/uL
   8.5 g/dL
   126 mg/dL
   1.1 mg/dL
   35 mEq/L
   4.2 mEq/L
   65 mg/dL
   96 mEq/L
   138 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   Glucose
   105
   137
   117
   177
   91
   106
   124
   130
   115
   126
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR [**4-29**]
   FINDINGS:  The tracheostomy tube is 6 cm from the carina.  A left
   subclavian
   PICC line terminates in the proximal-to-mid SVC.  In the interim, there
   is a
   significant decrease of the bilateral pleural effusion.  Persistent
   opacification secondary to both effusion and consolidation is seen in
   the
   right lower lobe.  The left lung base is not included in this
   examination.
   Degenerative changes are seen involving the right glenohumeral joint.
   IMPRESSION:
   1.  Lines and tubes in satisfactory location.
   2.  Significant decrease of the bilateral pleural effusion with
   persistent
   effusion/atelectasis and consolidation at the right lower lung.  The
   left lung
   base is not included in this examination.
   Microbiology: No New micro
   Assessment and Plan
   85M h/o respiratory failure [**3-5**] MRSA sepsis, Klebsiella VAP (completed
   meropenem [**4-23**]), now s/p trach ([**2185-4-6**]), with VRE bacteremia on
   linezolid (day 13/14), completed caspofungin course for C. Glabrata
   fungemia, severely contracted [**3-5**] ICU myopathy.
    # Respiratory failure: Off PSV, now breathing spontaneously on trach
   collar.
   - Volume overload: Continue furosemide 60mg QID to achieve net 500cc
   1L negative fluid balance.
   # Fungemia/bacteremia:  [**4-12**] blood cultures positive for VRE/yeast;
   sputum positive for Klebsiella/yeast; urine positive for yeast.  PICC
   changed [**4-15**]. Per Optho, no fungal ocular involvment.  Per echo, no
   vegetations.
   -          [**4-28**]: Day 13/14 linezolid, caspofungin completed as of [**4-27**]
   -          Since [**4-12**], blood cx NGTD.
   # Mental status:  Attempt to wean morphine to achieve improved mental
   status.  Currently responding minimally to commands, does vocalize.
   # CV:  STABLE.
   - Rhythm: Afib.  Metoprolol 25mg TID
   - Pump: Continue furosemide diuresis
   - Ischemia/Risk: ASA 81mg
   # C. Diff: STABLE.  Continuing outpatient regimen.  Vanc taper 125mg
   TID for 2wks, then vancomycin 125mg [**Hospital1 **] on [**4-27**] for 2wks, then
   vancomycin 125mg PO daily for 2wks.
   #Anemia: STABLE.  Anemia of chronic disease, transfuse to maintain hct
   >23.
   #Pain/MS: STABLE.  Continue olanzapine TID, morphine 15mg q8hrs,
   morphine q3hr PRN
   # DM2: STABLE.  ISS with TF
   # Dispo: [**Hospital 1844**] rehab pending family mtg
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-29**] 08:24 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2185-04-30 10:28:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PMV placed and pt is now talking to staff
   Trach collar only (vent out of room!) no need for it overnight
                                History obtained from Patient, Family / Friend
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-4-29**] 08:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-4-29**] 04:20 PM
   Other medications:
   [**Last Name (LF) 1873**], [**First Name3 (LF) 369**] zocor, ca carb, vit d, SSRI, olanzapine, senna, colace,
   lopressor, ranitidine, SQ heparin, Lasix 120 po QID, po Vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-30**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 93 (73 - 101) bpm
   BP: 131/60(75) {105/40(40) - 146/80(102)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 83%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  2,209 mL
                                                                    880 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    466 mL
   IVF:
                                                                    176 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    970 mL
   Urine:
                                                                  2,045 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    164 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 367 (367 - 367) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: ////
   Physical Examination
   Cachetic male lying in bed,
   Neck: trach CDI, PMV in place
   CV: RR
   Chest: poor airmovement but grossly clear to ausc.
   Abd: soft NT
   Ext: wasted
   Neuro: Alert, answering simples ?S and following simple commmands
   Labs / Radiology
   8.5 g/dL
   302 K/uL
   126 mg/dL
   1.1 mg/dL
   35 mEq/L
   4.2 mEq/L
   65 mg/dL
   96 mEq/L
   138 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2185-4-22**]  03:40 AM
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
   WBC
   10.5
   11.0
   11.6
   9.4
   11.2
   12.5
   Hct
   24.6
   25.6
   25.6
   23.4
   25.3
   25.1
   Plt
   426
   328
   335
   [**Telephone/Fax (3) 1843**]
   Cr
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   Glucose
   105
   137
   117
   177
   91
   106
   124
   130
   115
   126
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   85 year-old man with respiratory failure following influenza, in the
   setting of multiple chronic debilitating conditions, now s/p trach with
   Klebsiella VAP and fungemia
 both of which are at  the end of their
   treatment courses.

 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - multifactorial
   - s/p VAP rx
   - myopathy appears to be slowly improving
   - on trach collar now (last on ventilator overnight [**Date range (1) 1861**])
 Septicemia/Fungemia
   - VRE bacteremia: finishing course of linezolid [**4-29**]
   - C Glabrata fungemia: finished caspofungin [**4-28**]
 Recurrent C.Diff
   - po vanco taper
 several weeks starting today
 AFib
   - adequately controlled

 ANEMIA, CHRONIC
   - stable
 DIABETES MELLITUS (DM), TYPE II
   - adequately controlled
 HEART FAILURE (CHF), SYSTOLIC, ACUTE and HEART FAILURE (CHF),
   DIASTOLIC, ACUTE ON CHRONIC (previous dx of diastolic CHF)
   - keep even today
 DISPOSITION
   If he continues to tolerate spontaneous breathing, would consider
   calling out to the floor in the next day or two.  His family wishes to
   take him home, but will need substantial training even if he remains
   off the ventilator.
CODE STATUS
   DNR.  Per family
s instructions, we would not treat major
   decompensations such as the development of shock (see family meeting
   note from yesterday).  They would want to reconnect  to ventilator if
   needed.  Appreciate social work, case management, and palliative care
   assistance.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-29**] 08:24 PM 45 mL/hour
   Glycemic Control:  SSRI
   Lines: PICC [**4-15**]
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: zantac
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35

2185-05-01 06:55:00 Physician Resident Progress Note
Chief Complaint: 85M h/o respiratory failure [**3-5**] MRSA sepsis, s/p
   meropenem for Klebsiella VAP, now s/p trach ([**2185-4-6**]), s/p linezolid for
   VRE bacteremia, s/p caspofungin for C. Glabrata fungemia, severely
   contracted [**3-5**] ICU myopathy.
   24 Hour Events:
   - OT: Arms splinted
   - Vent mgt: Remained off vent
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-1**] 02:14 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-30**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 97 (76 - 106) bpm
   BP: 109/56(68) {103/42(45) - 158/122(131)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,846 mL
                                                                    638 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    310 mL
   IVF:
                                                                     75 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    840 mL
   Urine:
                                                                  1,950 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   Gen: NAD, awake, responsive, speaking, cachectic
   HEENT: Trach collar in place, NCAT
   CV: Irreg irreg, S1S2, no m/r/g noted
   Chest: CTAB
   Abd: Soft NTND BS+
   Ext: Cachectic, contracted, splint in place
   Labs / Radiology
   344 K/uL
   10.0 g/dL
   175 mg/dL
   1.1 mg/dL
   31 mEq/L
   5.2 mEq/L
   78 mg/dL
   93 mEq/L
   137 mEq/L
   29.0 %
   17.4 K/uL
        [image002.jpg]
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
                             [**2185-5-1**]  05:22 AM
   WBC
   11.0
   11.6
   9.4
   11.2
   12.5
   17.4
   Hct
   25.6
   25.6
   23.4
   25.3
   25.1
   29.0
   Plt
   328
   335
   309
   [**Telephone/Fax (3) 1887**]
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   1.1
   Glucose
   137
   117
   177
   91
   106
   124
   130
   115
   126
   175
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Imaging: No new imaging
   Microbiology: No new microbiology
   Assessment and Plan
   85M h/o respiratory failure [**3-5**] MRSA sepsis, s/p meropenem for
   Klebsiella VAP, now s/p trach ([**2185-4-6**]), s/p linezolid for VRE
   bacteremia, s/p caspofungin for C. Glabrata fungemia, severely
   contracted [**3-5**] ICU myopathy.
   # Elevated WBC: Ddx infection v dehydration (all CBC lines increased).
   Afebrile.
   -          Differential requested on WBC; submit sputum, blood, urine
   cx; submit CXR
   # Fluid status: Cr trending up, all CBC lines increased, likely [**3-5**]
   dehydration
   -          Change furosemide from 120mg QID to 120mg TID.
   -          Goal: Net even
   # C. diff: Restarted vanco taper on [**4-29**].
   - Original taper plan: Vancomycin 125mg TID for 2wks, then vancomycin
   125mg [**Hospital1 **] on [**4-27**] for 2wks, then vancomycin 125mg PO daily for 2wks.
   # Respiratory status: STABLE.  Breathing spontaneously and comfortably
   on trach collar.
   - Continue VAP prevention/mouth care
   # CV:  STABLE.
   - Rhythm: Afib.  Metoprolol 25mg TID
   - Pump: Furosemide 120mg TID
   - Ischemia/Risk: ASA 81mg
   #Anemia: STABLE.  Anemia of chronic disease, transfuse for hct >23.
   Check labs as needed, q [**4-6**] d.
   #Pain/MS: STABLE.  Continue olanzapine TID, morphine 15mg Q12H PRN.
   # DM2: STABLE.  ISS with TF
   # Dispo: Home with hospice.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-30**] 08:22 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Ranitidine 150mg PO BID
   VAP:  Chlorhexidine wash
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Home with hospice

2185-05-01 10:41:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   remained off ventilator
   talking on PMV
   24 Hour Events:
    Cr slightly elevated as is WBC
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-4-30**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-1**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 92 (76 - 106) bpm
   BP: 121/51(66) {99/42(45) - 158/122(131)} mmHg
   RR: 22 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,846 mL
                                                                    842 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    477 mL
   IVF:
                                                                     75 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,100 mL
   Urine:
                                                                  1,950 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Cachetic male lying in bed,
   Neck: trach CDI, PMV in place
   CV: RR
   Chest: poor air movement but grossly clear to ausc.
   Abd: soft NT+BS G tube in place
   Ext: wasted
   Neuro: Alert, answering simples ?S and following simple commands
   Labs / Radiology
   10.0 g/dL
   344 K/uL
   175 mg/dL
   1.1 mg/dL
   31 mEq/L
   5.2 mEq/L
   78 mg/dL
   93 mEq/L
   137 mEq/L
   29.0 %
   17.4 K/uL
        [image002.jpg]
                             [**2185-4-22**]  08:16 PM
                             [**2185-4-23**]  08:00 AM
                             [**2185-4-25**]  04:07 AM
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
                             [**2185-5-1**]  05:22 AM
   WBC
   11.0
   11.6
   9.4
   11.2
   12.5
   17.4
   Hct
   25.6
   25.6
   23.4
   25.3
   25.1
   29.0
   Plt
   328
   335
   309
   [**Telephone/Fax (3) 1887**]
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   1.1
   Glucose
   137
   117
   177
   91
   106
   124
   130
   115
   126
   175
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:86.9 %, Band:0.0 %, Lymph:9.2 %,
   Mono:3.9 %, Eos:0.1 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85 year-old man with respiratory failure following influenza, in the
   setting of multiple chronic debilitating conditions, now s/p trach with
   Klebsiella VAP and fungemia
 both of which are at  the end of their
   treatment courses.
   Leukocytosis: afebrile. All counts are up today. Does have incr
   secretions, will check CXR and send sputum Cx . Pan culture if spikes
 Respiratory failure
 resolved
   - myopathy slowly improving
   - on trach collar now (last on ventilator overnight [**Date range (1) 1861**])
 Septicemia/Fungemia
   - VRE bacteremia: finishing course of linezolid [**4-29**]
   - C Glabrata fungemia: finished caspofungin [**4-28**]
 Recurrent C.Diff
   - po vanco taper
 several weeks starting today. Repeat C diff if
   persistent leukocytpsis or diarrhea
 AFib
   - adequately controlled

 ANEMIA, CHRONIC
   - stable
 DIABETES MELLITUS (DM), TYPE II
   - adequately controlled
 HEART FAILURE (CHF), SYSTOLIC, ACUTE and HEART FAILURE (CHF),
   DIASTOLIC, ACUTE ON CHRONIC (previous dx of diastolic CHF); Cr is 1.1
  will decrease Lasix to TID, watch I and O .  keep even to slightly
   positive today.
 DISPOSITION
   If he continues to tolerate spontaneous breathing, would consider
   calling out to the floor in the next day or two.  His family wishes to
   take him home, but will need substantial training even if he remains
   off the ventilator.
CODE STATUS
   DNR.  Per family
s instructions, we would not treat major
   decompensations such as the development of shock (see family meeting
   note from yesterday).  They would want to reconnect  to ventilator if
   needed.  Appreciate social work, case management, and palliative care
   assistance.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-4-30**] 08:22 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : possible tx to floor versus home by tomm.
   Total time spent: 35

2185-05-04 06:47:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   None
   Patient denies SOB or pain.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-2**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-5-3**] 05:05 PM
   Ranitidine (Prophylaxis) - [**2185-5-3**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-4**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 92 (80 - 106) bpm
   BP: 131/63(97) {96/28(61) - 134/94(97)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.3 kg (admission): 64 kg
   Height: 69 Inch
             Total In:
                                                                  1,953 mL
                                                                    710 mL
   PO:
             TF:
                                                                  1,222 mL
                                                                    302 mL
   IVF:
                                                                    242 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    560 mL
   Urine:
                                                                  1,490 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    463 mL
                                                                    150 mL
   Respiratory support
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: trach tube in position
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   383 K/uL
   9.0 g/dL
   139 mg/dL
   1.2 mg/dL
   36 mEq/L
   4.3 mEq/L
   80 mg/dL
   95 mEq/L
   138 mEq/L
   26.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2185-4-25**]  06:16 PM
                             [**2185-4-26**]  04:24 AM
                             [**2185-4-26**]  05:36 PM
                             [**2185-4-27**]  04:57 AM
                             [**2185-4-28**]  01:57 AM
                             [**2185-4-29**]  06:02 AM
                             [**2185-5-1**]  05:22 AM
                             [**2185-5-1**]  06:00 PM
                             [**2185-5-2**]  04:33 AM
                             [**2185-5-4**]  04:12 AM
   WBC
   9.4
   11.2
   12.5
   17.4
   14.9
   15.4
   Hct
   23.4
   25.3
   25.1
   29.0
   28.4
   26.5
   Plt
   [**Telephone/Fax (3) 1932**]44
   317
   383
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   1.1
   1.1
   1.1
   1.1
   1.2
   Glucose
   91
   106
   124
   130
   115
   126
   175
   160
   175
   139
   Other labs: PT / PTT / INR:14.3/37.5/1.2, CK / CKMB /
   Troponin-T:55/7/0.10, ALT / AST:[**10-16**], Alk Phos / T Bili:91/0.2, Amylase
   / Lipase:27/11, Differential-Neuts:72.9 %, Band:0.0 %, Lymph:14.0 %,
   Mono:6.5 %, Eos:6.2 %, D-dimer:2559 ng/mL, Fibrinogen:416 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   85M h/o respiratory failure [**3-5**] MRSA sepsis, s/p meropenem for
   Klebsiella VAP, trach ([**2185-4-6**]) (s/p linezolid for VRE bacteremia, s/p
   caspofungin for C. glabrata fungemia), severely contracted [**3-5**] ICU
   myopathy.
    # Respiratory status: Continues to breathe spontaneously on trach
   collar, decreased secretions.
   - CXR for change in clinical status
    # Elevated WBC:
   Unclear why, ? atelectasis.  Afebrile without focal changes
   clinically.  CXr improved from previous today.
   Will obtain: sputum culture, ua/urine culture.
   -          trend cbc
   # Contraction myopathy:  PT/OT continuing to splint, stretch.
   # C. Diff: STABLE.  Vanco taper restarted [**4-29**].
   - Original taper plan: Vancomycin 125mg TID for 2wks, then vancomycin
   125mg [**Hospital1 **] on [**4-27**] for 2wks, then vancomycin 125mg PO daily for 2wks.
    # CV:  STABLE.
   - Rhythm: Afib.  Metoprolol 25mg TID
   - Pump: Slightly Positive yesterday, only rec
d 3 doses of lasix.  Will
   decrease BP parameters.  Goal net even.  Cont Furosemide 120mg TID
   - Ischemia/Risk: ASA 81mg
    #Anemia: STABLE.  Anemia of chronic disease, transfuse for hct >23.
   Check labs weekly or clinically indicated, q [**4-6**] d.
    #Pain/MS: STABLE.  Continue olanzapine TID, morphine 15mg Q12H PRN.
    # DM2: STABLE.  ISS with TF
   # Dispo: Home with hospice.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2185-5-4**] 03:23 AM 45 mL/hour
   Glycemic Control:  ssi
   Lines:
   PICC Line - [**2185-4-15**] 12:30 PM
   FOLEY: will d/c and place condom cath.
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ranitidine
   VAP:  na
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: floor today